2190-04-09 09:37:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2190-4-8**] 09:23 PM
 DIALYSIS CATHETER - START [**2190-4-8**] 09:30 PM
 EKG - At [**2190-4-8**] 11:00 PM
 EKG - At [**2190-4-9**] 12:54 AM
 URINE CULTURE - At [**2190-4-9**] 01:05 AM
 SPUTUM CULTURE - At [**2190-4-9**] 01:06 AM
   -
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2190-4-9**] 02:30 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-9**] 09:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.7
C (96.3
   HR: 80 (54 - 80) bpm
   BP: 129/37(59) {73/32(47) - 129/69(116)} mmHg
   RR: 18 (13 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.6 kg
             Total In:
                                                                     57 mL
                                                                    326 mL
   PO:
             TF:
             52 mL
   IVF:
                                                                     57 mL
                                                                    185 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                     30 mL
   Urine:
                                                                    200 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -143 mL
                                                                    296 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   PS : 0 cmH2O
   RR (Set): 14
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 72
   PIP: 30 cmH2O
   Plateau: 20 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.40/39/168/23/0
   Ve: 6.1 L/min
   PaO2 / FiO2: 420
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Wheezes : )
   Extremities: Right: 4+, Left: 4+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.3 g/dL
   122 K/uL
   97 mg/dL
   2.3 mg/dL
   23 mEq/L
   4.5 mEq/L
   44 mg/dL
   100 mEq/L
   134 mEq/L
   31.3 %
   18.2 K/uL
        [image002.jpg]
                             [**2190-4-8**]  10:35 PM
                             [**2190-4-8**]  11:33 PM
                             [**2190-4-9**]  01:28 AM
                             [**2190-4-9**]  03:52 AM
   WBC
   16.8
   18.2
   Hct
   30.9
   31.3
   Plt
   121
   122
   Cr
   2.2
   2.3
   TropT
   0.17
   0.15
   TCO2
   25
   Glucose
   76
   97
   Other labs: PT / PTT / INR:13.2/25.2/1.1, CK / CKMB /
   Troponin-T:25//0.15, ALT / AST:135/25, Alk Phos / T Bili:96/0.3,
   Differential-Neuts:96.5 %, Lymph:2.3 %, Mono:1.1 %, Eos:0.0 %,
   Fibrinogen:373 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:2.5 g/dL, LDH:350
   IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Fluid analysis / Other labs: Troponin-
   Imaging: LUE-U/S--no DVT
   CT
[**2190-3-15**]-Left lung collapse
   CT
3/32
bilateral LL collapse but proximal airway patency
   CXR Today
LLL collapse. Tubes and lines in good position.
   LENI-no DVT noted, concern for superficial femoral
   ECG: ECG--inferior ST segment changes concering for injury.  CK was 25
   and Troponin 0.15
   Assessment and Plan
   81 yo female from [**Hospital3 **] where she had presentation with worsening
   hypoxemia and now has had progression to respiratory failure with
   recurrent hypoxia and lung collapse.  In the recent past patient has
   had SBO and prolonged hosptial course including trach and PEG placement
   and transfer to rehab and has been unable to return to full
   independence since that time.  She had worsening respiratory status and
   bilateral LL and upper lobe opacities and was treated with Levo/Ceftaz
   for possible pneumonia but progressed to hypoxemic respiratory failure
   and transfer to [**Hospital1 19**] for further care.
   1)       RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])-This is a
   significant combination of weakness, deconditioning, inability to clear
   secretions and certainly will require careful optimization prior to any
   attempt at extubation.  With infiltrate, prolonged hospitalizations and
   intubation certainly broad spectrum antibiotics.
   -Will pursue bronchoscopy to evaluate airway patency and obtain
   protected specimen for culture and clear any proximal plugs
   -Will continue with PSV support this am
   -Continue broad spectrum abx-_Vanco/Cefepime
   2)Acute/Chronic Renal Failure-Persistent and modest
   -Will continue dialysis on regular schedule
   -Would like to remove volume if possible at HD given overall anasarca
   3)Anasarca
Has previous ultrasound without clear deep venous thrombosis
   and has poor oncotic pressure contributing.  Will move to negative
   fluid removal as possible.
   4)Thrombocytopenia-HIT has been sent and is pending at this time
   although time course is unusual.
   -Will follow up HIT
   -Would be likely medications and infection
   -Will avoid new heparin products until is negative as possible
   -Will repeat LENI given concern for DVT and move to argatroban if seen
   -In absence of new thrombosis will continue to monitor until HIT Ab
   returns
   4)EKG Changes-Non-specific, no change in CK and discussed with
   cardiology at admission by housestaff
   -ECHO today
   -Follow CK
   -Concern for possible inferior wall insult
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2190-4-9**] 04:08 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2190-4-8**] 09:23 PM
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Plan discussed in detail with husband during
   [**Name2 (NI) 2585**]
   Code status: FULL CODE
   Disposition :ICU
   Total time spent: 45

2190-04-10 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2190-4-9**] 09:32 AM
 URINE CULTURE - At [**2190-4-9**] 10:07 AM
 ULTRASOUND - At [**2190-4-9**] 11:00 AM
   BLE
 BRONCHOSCOPY - At [**2190-4-9**] 05:20 PM
 BAL FLUID CULTURE - At [**2190-4-9**] 05:47 PM
   - Flex Bronch: thick, tenacious secretions in most segments, RML
   take-off with significant narrowing and collapse - BAL sent
   - OSH micro [**4-8**]: rare polys, rare gram neg rods, mold (one colony)
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2190-4-9**] 04:45 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-10**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.8
C (96.5
   HR: 75 (68 - 87) bpm
   BP: 113/36(53) {109/32(51) - 140/84(94)} mmHg
   RR: 9 (9 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.6 kg
             Total In:
                                                                  1,106 mL
                                                                    424 mL
   PO:
             TF:
                                                                    526 mL
                                                                    298 mL
   IVF:
                                                                    430 mL
                                                                     96 mL
   Blood products:
   Total out:
                                                                    344 mL
                                                                     25 mL
   Urine:
                                                                     94 mL
                                                                     25 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                    762 mL
                                                                    399 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Spontaneous): 493 (360 - 493) mL
   PS : 8 cmH2O
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 30
   SpO2: 100%
   ABG: 7.32/43/151/22/-3
   Ve: 9.3 L/min
   PaO2 / FiO2: 377
   Physical Examination
   General: sedated, intubated, not following commands
   HEENT: Sclera anicteric, intubated
   Lungs: diffuse wheezing in all lung fields
   CV: distant heart sounds, Regular rate and rhythm, normal S1 + S2, no
   murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: cool extremities, anasarca
   Lines: left picc, right tunneled HD line
   Labs / Radiology
   137 K/uL
   10.2 g/dL
   128 mg/dL
   2.6 mg/dL
   22 mEq/L
   4.7 mEq/L
   56 mg/dL
   101 mEq/L
   133 mEq/L
   30.7 %
   23.6 K/uL
        [image002.jpg]
                             [**2190-4-8**]  10:35 PM
                             [**2190-4-8**]  11:33 PM
                             [**2190-4-9**]  01:28 AM
                             [**2190-4-9**]  03:52 AM
                             [**2190-4-9**]  08:39 PM
                             [**2190-4-10**]  03:29 AM
   WBC
   16.8
   18.2
   23.6
   Hct
   30.9
   31.3
   30.7
   Plt
   121
   122
   137
   Cr
   2.2
   2.3
   2.6
   TropT
   0.17
   0.15
   0.16
   TCO2
   25
   23
   Glucose
   76
   97
   128
   Other labs: PT / PTT / INR:12.1/24.9/1.0, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:135/25, Alk Phos / T Bili:96/0.3,
   Differential-Neuts:96.5 %, Lymph:2.3 %, Mono:1.1 %, Eos:0.0 %,
   Fibrinogen:373 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:2.5 g/dL, LDH:350
   IU/L, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   This is a 81 yo f with HTN, HL, CHF, ESRD on HD, malnutrition, here
   with recurrent respiratory distress secondary to RLL lobar collapse
   (?TBM vs aspiration with mucous plugging vs HAP) now intubated.
   .
   1.  Respiratory failure.  Patient has recurrent lobar collapse with
   respiratory distress.  Reportedly has TBM but left sided lesion is too
   distal to stent.  Given that OSH CT from [**3-15**] shows bilateral lower lobe
   collapse, concern for malignancy as etiology is low.  Has elevated WBC
   and chronic cough (per daugher) without fever, but suspicious for HAP
   as well.  Reccurent sympotoms in the setting of severe deconditioning
   also raises the possibility of recurrent aspiration.
   - vanco/cefepime to cover HAP
   - sputum culture
   - f/u OSH sputum culture
   - f/u blood culture
   - f/u fever curve, wbc
   - consider bronch in AM
   - review OSH chest CT, but consider re-imaging here
   - f/u glucan & galactomannan
   - albuterol/atrovent nebs
   - frequent suctioning
   - taper steroids instituted at OSH
   - increase PEEP
   - clarify pcn allergy with husband
   .
   2.  Leukocytosis.  Most likely source of leukocytosis is PNA, however,
   reportedly had yeast in urine.  Was getting amphotericin bladder washes
   at OSH, however, unlikley to be pathogenic.  More likely to be
   secondary to long-term broad spectrum Abx.
   - repeat UA/UCx
   - change foley
   - vanco/cefepime for HAP
   - f/u blood cultures
   - stop amphotericin bladder washes
   .
   3.  Anasarca.  Patient is total body volume overlaoded in setting of
   severe malnutrition (colectomy, poor PO intake).  Getting volume
   removed at dailaysis at rehab.  However, extremities are cool and
   patient has low-normal blood pressure.  Would favor keeping patient
   even at dialysis in setting of infection.
   - nutrition consult
   - tube feeds
   .
   3.  Thrombocytopenia.  Patient has 5 points (2 points for
   thrombocyptopenia, 1 point for timing, 0 for thrombosis, 2 for other
   causes) on the 4Ts scale, but has been on heparin for > 7 months due to
   dialysis.  No history of liver disease.  [**Month (only) 51**] be related to infection.
   - check peripheral smear
   - check DIC labs
   - trend platelet count
   - hold heparin products
   - sent HIT
   - f/u OSH hit which is currently pending
   .
   4. ESRD on HD.  Patient has been on dialysis since recent colectomy.
   Gets dialysis MWF.
   - notify renal of patient's arrival
   - nephrocaps
   .
   5. HTN.  On nitropaste and amlodipine at home.
   - hold antihhypertensives for now and monitor BP overnight; consider
   resuming in AM
   .
   6. HL.  Reportedly has history of hyperlipidemia, though not on any
   lipid lowering medications.
   - confirm med list with [**Hospital 997**] rehab
   FEN: No IVF, replete electrolytes, tube feeds
   .
   Prophylaxis: Subcutaneous heparin
   .
   Access: peripherals
   .
   Code: full, confirmed with patient
   .
   Communication: Patient, daughter, husband
   .
   Disposition: ICU care
   ..
   Disposition: ICU care
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2190-4-10**] 05:28 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2190-4-8**] 09:23 PM
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2190-04-10 12:17:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   81 yr old ESRD on HD, recurrent episodes of resp failure, on /off Abx
   since [**Month (only) **]
   Back with acute respiratory failure, intubated
   24 Hour Events:
   Bronch - thick secretions, BAL sent
   Micro sputum + mold
   Echo - hyperdynamic LV with evidence of dCHF
   Duplex - no DVT
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2190-4-9**] 04:45 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2190-4-10**] 08:33 AM
   Other medications:
   Solumedrol 80mg q8h, ASA, Vanc with HD, MVI
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-10**] 11:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.1
C (96.9
   HR: 74 (68 - 87) bpm
   BP: 124/30(52) {109/30(51) - 140/84(94)} mmHg
   RR: 10 (9 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.6 kg
             Total In:
                                                                  1,106 mL
                                                                    796 mL
   PO:
             TF:
                                                                    526 mL
                                                                    463 mL
   IVF:
                                                                    430 mL
                                                                    153 mL
   Blood products:
   Total out:
                                                                    344 mL
                                                                     60 mL
   Urine:
                                                                     94 mL
                                                                     60 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                    762 mL
                                                                    736 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 480 (380 - 493) mL
   PS : 8 cmH2O
   RR (Spontaneous): 12
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 30
   SpO2: 100%
   ABG: 7.32/43/151/22/-3
   Ve: 5.2 L/min
   PaO2 / FiO2: 377
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: Right tunnelled HD line, crackles left base, few
   on right, no wheezes
   Abdominal: Soft, NT
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: sedated
   Labs / Radiology
   10.2 g/dL
   137 K/uL
   128 mg/dL
   2.6 mg/dL
   22 mEq/L
   4.7 mEq/L
   56 mg/dL
   101 mEq/L
   133 mEq/L
   30.7 %
   23.6 K/uL
        [image002.jpg]
                             [**2190-4-8**]  10:35 PM
                             [**2190-4-8**]  11:33 PM
                             [**2190-4-9**]  01:28 AM
                             [**2190-4-9**]  03:52 AM
                             [**2190-4-9**]  08:39 PM
                             [**2190-4-10**]  03:29 AM
   WBC
   16.8
   18.2
   23.6
   Hct
   30.9
   31.3
   30.7
   Plt
   121
   122
   137
   Cr
   2.2
   2.3
   2.6
   TropT
   0.17
   0.15
   0.16
   TCO2
   25
   23
   Glucose
   76
   97
   128
   Other labs: PT / PTT / INR:12.1/24.9/1.0, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:135/25, Alk Phos / T Bili:96/0.3,
   Differential-Neuts:96.5 %, Lymph:2.3 %, Mono:1.1 %, Eos:0.0 %,
   Fibrinogen:373 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:2.5 g/dL, LDH:350
   IU/L, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O BACTEREMIA
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
   81 yo female from [**Hospital3 **] where she had presentation with worsening
   hypoxemia and now has had progression to respiratory failure with
   recurrent hypoxia and lung collapse.  In the recent past patient has
   had SBO and prolonged hosptial course including trach and PEG placement
   and transfer to rehab and has been unable to return to full
   independence since that time.  She had worsening respiratory status and
   bilateral LL and upper lobe opacities and was treated with Levo/Ceftaz
   for possible pneumonia but progressed to hypoxemic respiratory failure
   and transfer to [**Hospital1 19**] for further care.
   1)       Acute respiratory failure - This is a significant combination
   of weakness, deconditioning, inability to clear secretions and
   certainly will require careful optimization prior to any attempt at
   extubation.  With infiltrate, prolonged hospitalizations and intubation
   certainly broad spectrum antibiotics.
   -Will pursue bronchoscopy to evaluate airway patency and obtain
   protected specimen for culture and clear any proximal plugs
   -Will continue with PSV support this am
   -Continue broad spectrum abx-_Vanco/Cefepime
   2)Acute/Chronic Renal Failure-Persistent and modest
   -Will continue dialysis on regular schedule
   -Would like to remove volume if possible at HD given overall anasarca
   3) Anasarca
Has previous ultrasound without clear deep venous
   thrombosis and has poor oncotic pressure contributing.  Will move to
   negative fluid removal as possible.
   4) Thrombocytopenia-HIT has been sent and is pending at this time
   although time course is unusual.
   -Will follow up HIT
   -Would be likely medications and infection
   -Will avoid new heparin products until is negative as possible
   -Will repeat LENI given concern for DVT and move to argatroban if seen
   -In absence of new thrombosis will continue to monitor until HIT Ab
   returns
   4)EKG Changes-Non-specific, no change in CK and discussed with
   cardiology at admission by housestaff
   -ECHO today
   -Follow CK
   -Concern for possible inferior wall insult
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2190-4-8**] 09:23 PM
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2190-04-11 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started on fluconazole for mold in sputum
   - steroids decreased from methylpred 80 IV daily to 60 IV daily
   starting [**4-11**]
   - NIF -18 / RSBI 79 in the evening, but somewhat sedated; NIF -21 /
   RSBI 48 this morning.
   - guaiac + stool
 STOOL CULTURE - At [**2190-4-10**] 11:38 PM
   Easily arousable to voice this morning.
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2190-4-10**] 01:48 PM
   Cefipime - [**2190-4-10**] 03:40 PM
   Fluconazole - [**2190-4-10**] 06:30 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2190-4-10**] 08:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-11**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 90 (71 - 108) bpm
   BP: 145/42(66) {103/30(51) - 147/54(71)} mmHg
   RR: 20 (9 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.6 kg
             Total In:
                                                                  2,031 mL
                                                                    619 mL
   PO:
             TF:
                                                                    975 mL
                                                                    294 mL
   IVF:
                                                                    505 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  2,296 mL
                                                                     40 mL
   Urine:
                                                                     71 mL
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -265 mL
                                                                    579 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 480 (480 - 480) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 13 cmH2O
   SpO2: 98%
   ABG: 7.37/50/119/28/2
   NIF: -21 cmH2O
   Ve: 6.3 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General: sedated, intubated, not following commands
   HEENT: Sclera anicteric, intubated
   Lungs: coarse BS
   CV: distant heart sounds, Regular rate and rhythm, normal S1 + S2, no
   murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: cool extremities, anasarca
   Lines: left picc, right tunneled HD line
 no exudate surrounding
   lines.
   Labs / Radiology
   164 K/uL
   10.3 g/dL
   129 mg/dL
   1.8 mg/dL
   28 mEq/L
   3.4 mEq/L
   30 mg/dL
   101 mEq/L
   138 mEq/L
   30.5 %
   31.2 K/uL
        [image002.jpg]
                             [**2190-4-8**]  10:35 PM
                             [**2190-4-8**]  11:33 PM
                             [**2190-4-9**]  01:28 AM
                             [**2190-4-9**]  03:52 AM
                             [**2190-4-9**]  08:39 PM
                             [**2190-4-10**]  03:29 AM
                             [**2190-4-11**]  02:07 AM
                             [**2190-4-11**]  03:32 AM
   WBC
   16.8
   18.2
   23.6
   31.2
   Hct
   30.9
   31.3
   30.7
   30.5
   Plt
   121
   122
   137
   164
   Cr
   2.2
   2.3
   2.6
   1.8
   TropT
   0.17
   0.15
   0.16
   TCO2
   25
   23
   30
   Glucose
   76
   97
   128
   129
   Other labs: PT / PTT / INR:12.1/24.9/1.0, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:135/25, Alk Phos / T Bili:96/0.3,
   Differential-Neuts:96.5 %, Lymph:2.3 %, Mono:1.1 %, Eos:0.0 %,
   Fibrinogen:373 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:350
   IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   HIT antibody NEG
   Assessment and Plan
   This is a 81 yo f with HTN, HL, CHF, ESRD on HD, malnutrition, here
   with recurrent respiratory distress secondary to RLL lobar collapse
   (?TBM vs aspiration with mucous plugging vs HAP) now intubated.
   .
   1.  Respiratory failure.  Patient has recurrent lobar collapse with
   respiratory distress.  Reportedly has TBM but left sided lesion is too
   distal to stent.  Given that OSH CT from [**3-15**] shows bilateral lower lobe
   collapse, concern for malignancy as etiology is low.  Has elevated WBC
   and chronic cough (per daugher) without fever, but suspicious for HAP
   as well.  Recurrent symptoms in the setting of severe deconditioning
   also raises the possibility of recurrent aspiration.
   - vancomycin (D1 [**4-10**]) & cefepime (D1 [**4-9**]) to cover HAP
   - fluconzole (D1 [**4-10**]) to cover mold in sputum
   - f/u glucan & galactomannan
   - f/u OSH sputum culture
   - f/u blood culture
   - f/u fever curve, wbc
   - review OSH chest CT, but consider re-imaging here
   - albuterol/atrovent nebs
   - frequent suctioning
   - taper steroids instituted at OSH
   .
   2.  Leukocytosis.  Most likely source of leukocytosis is PNA, however,
   reportedly had yeast in urine at OSH.  Was getting amphotericin bladder
   washes at OSH, however, unlikley to be pathogenic.  More likely to be
   secondary to long-term broad spectrum Abx.  Urine culture here with no
   growth. BAL showing 3+ PMNs, but culture with no growth to date.
   - vanco/cefepime for HAP
   - f/u blood cultures
   - C. diff neg x 1
   - Check vanc level in AM
   .
   3. ESRD on HD.  Patient has been on dialysis since recent colectomy.
   Gets dialysis MWF.  Nephrology following.
   - vancomycin with dialysis/ check levels
   - nephrocaps
   - f/u nephrology recs
   .
   4.  Anasarca.  Patient is total body volume overlaoded in setting of
   severe malnutrition (colectomy, poor PO intake).  Getting volume
   removed at dailaysis at rehab.  However, extremities are cool and
   patient has low-normal blood pressure.  Would favor keeping patient
   even at dialysis in setting of infection.
   - nutrition consult
   - tube feeds
   .
   5.  Thrombocytopenia.  Patient has 5 points (2 points for
   thrombocyptopenia, 1 point for timing, 0 for thrombosis, 2 for other
   causes) on the 4Ts scale, but has been on heparin for > 7 months due to
   dialysis.  No history of liver disease.  [**Month (only) 51**] be related to infection.
   HIT negative here.  DIC labs and peripheral smear negative.
   - trend platelet count
   - Add back Hep SQ
   .
   6. HTN.  On nitropaste and amlodipine at home.
   - hold antihhypertensives for now as patient is likely intravascularly
   volume depleted and within normotensive range at this time.
   .
   7. HL.  Reportedly has history of hyperlipidemia, though not on any
   lipid lowering medications.
   - confirm med list with [**Hospital 997**] rehab
   .
   8. RUQ swelling
 check U/S to r/o DVT
   FEN: No IVF, replete electrolytes, tube feeds
   .
   Prophylaxis: pneumoboots, start Hep SQ today, PPI
   .
   Access: PICC
   .
   Code: full, confirmed with patient
   .
   Communication: Patient, daughter, husband
   .
   Disposition: ICU care
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2190-4-11**] 05:01 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2190-4-8**] 09:23 PM
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2190-04-11 13:01:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Overnight - started on flluconazole for mold in sputum
   solumedrol decreased 80 to 60 mg daily
   RSBI 48, NIF -21
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2190-4-10**] 01:48 PM
   Cefipime - [**2190-4-10**] 03:40 PM
   Fluconazole - [**2190-4-10**] 06:30 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2190-4-11**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-11**] 12:54 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.5
   HR: 110 (78 - 116) bpm
   BP: 139/38(58) {103/31(51) - 147/54(74)} mmHg
   RR: 16 (10 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65.6 kg (admission): 65.6 kg
             Total In:
                                                                  2,031 mL
                                                                    991 mL
   PO:
             TF:
                                                                    975 mL
                                                                    512 mL
   IVF:
                                                                    505 mL
                                                                    129 mL
   Blood products:
   Total out:
                                                                  2,296 mL
                                                                     57 mL
   Urine:
                                                                     71 mL
                                                                     57 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -265 mL
                                                                    934 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 285 (285 - 285) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 13 cmH2O
   SpO2: 98%
   ABG: 7.37/50/119/28/2
   NIF: -21 cmH2O
   Ve: 6 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Crackles : , Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.3 g/dL
   164 K/uL
   129 mg/dL
   1.8 mg/dL
   28 mEq/L
   3.4 mEq/L
   30 mg/dL
   101 mEq/L
   138 mEq/L
   30.5 %
   31.2 K/uL
        [image002.jpg]
                             [**2190-4-8**]  10:35 PM
                             [**2190-4-8**]  11:33 PM
                             [**2190-4-9**]  01:28 AM
                             [**2190-4-9**]  03:52 AM
                             [**2190-4-9**]  08:39 PM
                             [**2190-4-10**]  03:29 AM
                             [**2190-4-11**]  02:07 AM
                             [**2190-4-11**]  03:32 AM
   WBC
   16.8
   18.2
   23.6
   31.2
   Hct
   30.9
   31.3
   30.7
   30.5
   Plt
   121
   122
   137
   164
   Cr
   2.2
   2.3
   2.6
   1.8
   TropT
   0.17
   0.15
   0.16
   TCO2
   25
   23
   30
   Glucose
   76
   97
   128
   129
   Other labs: PT / PTT / INR:12.1/24.9/1.0, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:135/25, Alk Phos / T Bili:96/0.3,
   Differential-Neuts:96.5 %, Lymph:2.3 %, Mono:1.1 %, Eos:0.0 %,
   Fibrinogen:373 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:350
   IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR unchanged, ETT ok, OG ok
   Assessment and Plan
   81 yo female from [**Hospital3 **] where she had presentation with worsening
   hypoxemia and now has had progression to respiratory failure with
   recurrent hypoxia and lung collapse.  In the recent past patient has
   had SBO and prolonged hospital course including trach and PEG placement
   and transfer to rehab and has been unable to return to full
   independence since that time.  She had worsening respiratory status and
   bilateral LL and upper lobe opacities and was treated with Levo/Ceftaz
   for possible pneumonia but progressed to hypoxemic respiratory failure
   and transfer to [**Hospital1 19**] for further care. Bronch
d [**4-9**] showed thick
   secretions bilat, patent left sided airways, narrowing of [**Hospital1 **] with
   collapse.
   1)  Acute respiratory failure - this is a significant combination of
   weakness, deconditioning, inability to clear secretions. She will
   require careful optimization prior to any attempt at extubation. On
   broad spectrum antibiotics.
   - will continue with vent support. Trial of PS 0/5 today. Suspect she
   may benefit from another trach. Overall unfavorable prognosis from
   respiratory point of view.
   - BAL
 3+ pms, no organisms, mold
   - Vanco/Cefepime
   - B-glucan pending, on Fluc for mold in BAL
   - taper steroids by 20 mg q2d
   2) ESKD on HD
   -Will continue dialysis on regular schedule with volume removal
   3) Anasarca
Has previous ultrasound without clear deep venous
   thrombosis and has poor oncotic pressure contributing (alb 2.5).  Will
   move to negative fluid removal as possible.
   4) Thrombocytopenia
   - HIT Ab negative. Would add back SCH
   5) Hypertension
 well controlled off BP meds
   6) Leukocytosis
 cultures pending, on broad spectrum Abx
   (Vanc/Cef/Fluc)
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2190-4-11**] 10:56 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2190-4-8**] 09:23 PM
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2190-04-12 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Patient developed afib as well as episodes of NSVT which appear to
   coincide with HD this morning
   - Yesterday, tolerated SBT (PS 5/0) for 1 1/2 hrs, although RSBI did
   rise from ~50 to 80. Back on PS [**8-21**]
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2190-4-10**] 01:48 PM
   Cefipime - [**2190-4-10**] 03:40 PM
   Fluconazole - [**2190-4-11**] 04:32 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2190-4-11**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2190-4-11**] 04:31 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-12**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.1
C (96.9
   HR: 90 (83 - 119) bpm
   BP: 148/50(72) {97/32(55) - 173/62(89)} mmHg
   RR: 18 (13 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.6 kg
             Total In:
                                                                  1,855 mL
                                                                    669 mL
   PO:
             TF:
                                                                    977 mL
                                                                    284 mL
   IVF:
                                                                    244 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                    652 mL
                                                                    170 mL
   Urine:
                                                                    102 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,203 mL
                                                                    499 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 342 (285 - 376) mL
   PS : 8 cmH2O
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///27/
   NIF: -25 cmH2O
   Ve: 5.5 L/min
   Physical Examination
   General: sedated, intubated, not following commands
   HEENT: Sclera anicteric, intubated
   Lungs: coarse BS
   CV: distant heart sounds, Regular rate and rhythm, normal S1 + S2, no
   murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: cool extremities, anasarca
   Lines: left picc, right tunneled HD line
 no exudate surrounding
   lines.
   Labs / Radiology
   137 K/uL
   10.2 g/dL
   135 mg/dL
   2.1 mg/dL
   27 mEq/L
   3.3 mEq/L
   45 mg/dL
   101 mEq/L
   137 mEq/L
   31.0 %
   26.4 K/uL
        [image002.jpg]
                             [**2190-4-8**]  10:35 PM
                             [**2190-4-8**]  11:33 PM
                             [**2190-4-9**]  01:28 AM
                             [**2190-4-9**]  03:52 AM
                             [**2190-4-9**]  08:39 PM
                             [**2190-4-10**]  03:29 AM
                             [**2190-4-11**]  02:07 AM
                             [**2190-4-11**]  03:32 AM
                             [**2190-4-12**]  02:50 AM
   WBC
   16.8
   18.2
   23.6
   31.2
   26.4
   Hct
   30.9
   31.3
   30.7
   30.5
   31.0
   Plt
   121
   122
   137
   164
   137
   Cr
   2.2
   2.3
   2.6
   1.8
   2.1
   TropT
   0.17
   0.15
   0.16
   TCO2
   25
   23
   30
   Glucose
   76
   97
   128
   129
   135
   Other labs: PT / PTT / INR:12.7/25.7/1.1, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:63/25, Alk Phos / T Bili:142/0.3,
   Differential-Neuts:95.7 %, Lymph:2.7 %, Mono:1.5 %, Eos:0.1 %,
   Fibrinogen:373 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.6 g/dL, LDH:331
   IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   This is a 81 yo f with HTN, HL, CHF, ESRD on HD, malnutrition, here
   with recurrent respiratory distress secondary to RLL lobar collapse
   (?TBM vs aspiration with mucous plugging vs HAP) now intubated.
   .
   #.  Respiratory failure.  Patient has recurrent lobar collapse with
   respiratory distress.  Reportedly has TBM but left sided lesion is too
   distal to stent.  OSH CT from [**3-15**] shows bilateral lower lobe collapse.
   Concern for malignancy as etiology is low.  Has elevated WBC and
   chronic cough (per daugher) without fever, but suspicious for HAP as
   well.  Recurrent symptoms in the setting of severe deconditioning also
   raises the possibility of recurrent aspiration.
   -plan for bronch today or tomorrow to evaluate TBM and potential for
   further intervention
   - vancomycin (D1 [**4-10**]) & cefepime (D1 [**4-9**]) to cover HAP
   - fluconzole (D1 [**4-10**]) to cover mold in sputum
   - f/u glucan & galactomannan
   - f/u OSH sputum culture
   - f/u blood culture
   - f/u fever curve, wbc
   - albuterol/atrovent nebs
   - frequent suctioning
   - slow taper of steroids instituted at OSH
   .
   #.  Leukocytosis.  Most likely source of leukocytosis is PNA, however,
   reportedly had yeast in urine at OSH.  Was getting amphotericin bladder
   washes at OSH, however, unlikley to be pathogenic.  More likely to be
   secondary to long-term broad spectrum Abx.  Urine culture here with no
   growth. BAL showing 3+ PMNs, but culture with no growth to date.
   - vanco/cefepime for HAP
   - f/u blood cultures
   - reculture with HD
   - C. diff neg x 1
   - Check vanc level per HD protocol
   .
   #. NSVT/Afib. Patient does have known pafib and appears to have had the
   episodes of NSVT coinciding with dialysis.
   - Given 150mg x1 and is now on drip.
   - If ectopy improves, can d/c drip and let patient auto-taper.
   #. ESRD on HD.  Patient has been on dialysis since recent colectomy.
   Gets dialysis MWF.  Nephrology following.
   - vancomycin with dialysis/ check levels
   - nephrocaps
   - f/u nephrology recs
   .
   #.  Anasarca.  Patient is total body volume overlaoded in setting of
   severe malnutrition (colectomy, poor PO intake).  Getting volume
   removed at dailaysis at rehab.  However, extremities are cool and
   patient has low-normal blood pressure.  Would favor keeping patient
   even at dialysis in setting of infection.
   - nutrition consult
   - tube feeds
   .
   #.  Thrombocytopenia.  Patient has 5 points (2 points for
   thrombocyptopenia, 1 point for timing, 0 for thrombosis, 2 for other
   causes) on the 4Ts scale, but has been on heparin for > 7 months due to
   dialysis.  No history of liver disease.  [**Month (only) 51**] be related to infection.
   HIT negative here.  DIC labs and peripheral smear negative.
   - trend platelet count
   - back on Hep SQ
   .
   #. HTN.  On nitropaste and amlodipine at home.
   - hold antihhypertensives for now and will manage intravascular volume
   with HD.
   .
   #. HL.  Reportedly has history of hyperlipidemia, though not on any
   lipid lowering medications.
   - confirm med list with [**Hospital 997**] rehab
   FEN: No IVF, replete electrolytes, tube feeds
   .
   Prophylaxis: pneumoboots, start Hep SQ today, PPI
   .
   Access: PICC
   .
   Code: full, confirmed with patient
   .
   Communication: Patient, daughter, husband
   .
   Disposition: ICU care
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2190-4-12**] 04:44 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2190-4-8**] 09:23 PM
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2190-04-13 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2190-4-12**] 10:30 AM
   for run of vtach in AM with lots of ectopy, HD stable, given amio bolus
   and started on Amio gtt, ectopy stable after initiation of amio
 BLOOD CULTURED - At [**2190-4-12**] 12:21 PM
   off hd cath
 ULTRASOUND - At [**2190-4-12**] 03:06 PM
   bilat upper extremity- swelling in RUE, U/S sig for DVT in brachial
   vein.  No anticoag at this point due to hx ?bleeds with anticoag
 tapering steroids
 SBT x30 min, tol well.  NIF -25
 ARTERIAL LINE - START [**2190-4-12**] 07:07 PM
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2190-4-10**] 01:48 PM
   Fluconazole - [**2190-4-11**] 04:32 PM
   Cefipime - [**2190-4-12**] 06:00 PM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2190-4-12**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2190-4-13**] 12:00 AM
   Fentanyl - [**2190-4-13**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-13**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 90 (75 - 119) bpm
   BP: 199/70(99) {119/38(21) - 199/75(104)} mmHg
   RR: 24 (14 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.6 kg
             Total In:
                                                                  2,244 mL
                                                                    614 mL
   PO:
             TF:
                                                                    961 mL
                                                                    284 mL
   IVF:
                                                                    628 mL
                                                                    160 mL
   Blood products:
   Total out:
                                                                  2,880 mL
                                                                    485 mL
   Urine:
                                                                     80 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -636 mL
                                                                    129 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 373 (300 - 394) mL
   PS : 8 cmH2O
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 61
   SpO2: 99%
   ABG: 7.39/43/160/25/1
   NIF: -17 cmH2O
   Ve: 7.9 L/min
   PaO2 / FiO2: 400
   Physical Examination
   General: sedated, intubated, not following commands
   HEENT: Sclera anicteric, intubated
   Lungs: coarse BS
   CV: distant heart sounds, Regular rate and rhythm, normal S1 + S2, no
   murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: cool extremities, anasarca
   Lines: left picc, right tunneled HD line
 no exudate surrounding
   lines.
   Labs / Radiology
   155 K/uL
   11.0 g/dL
   156
   1.6 mg/dL
   25 mEq/L
   3.5 mEq/L
   28 mg/dL
   102 mEq/L
   135 mEq/L
   33.4 %
   36.0 K/uL
        [image002.jpg]
                             [**2190-4-9**]  08:39 PM
                             [**2190-4-10**]  03:29 AM
                             [**2190-4-11**]  02:07 AM
                             [**2190-4-11**]  03:32 AM
                             [**2190-4-12**]  02:50 AM
                             [**2190-4-12**]  03:17 PM
                             [**2190-4-12**]  03:44 PM
                             [**2190-4-13**]  02:10 AM
                             [**2190-4-13**]  02:34 AM
                             [**2190-4-13**]  04:00 AM
   WBC
   23.6
   31.2
   26.4
   36.0
   Hct
   30.7
   30.5
   31.0
   33.4
   Plt
   137
   164
   137
   155
   Cr
   2.6
   1.8
   2.1
   1.3
   1.6
   TCO2
   23
   30
   30
   27
   Glucose
   128
   129
   135
   136
   149
   156
   Other labs: PT / PTT / INR:13.3/33.5/1.1, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:67/34, Alk Phos / T Bili:189/0.3,
   Differential-Neuts:93.1 %, Band:0.0 %, Lymph:4.4 %, Mono:1.9 %, Eos:0.4
   %, Fibrinogen:373 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.6 g/dL,
   LDH:381 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   This is a 81 yo f with HTN, HL, CHF, ESRD on HD, malnutrition, here
   with recurrent respiratory distress secondary to RLL lobar collapse
   (?TBM vs aspiration with mucous plugging vs HAP) now intubated.
   .
   #.  Respiratory failure.  Patient has recurrent lobar collapse with
   respiratory distress.  Reportedly has TBM but left sided lesion is too
   distal to stent.  OSH CT from [**3-15**] shows bilateral lower lobe collapse.
   Concern for malignancy as etiology is low.  Has elevated WBC and
   chronic cough (per daugher) without fever, but suspicious for HAP as
   well.  Recurrent symptoms in the setting of severe deconditioning also
   raises the possibility of recurrent aspiration. Now has positive
   galactomannan. Due to multiple respiratory problems, patient may
   ultimately require another trach and PEG.
   - plan for bronch today or tomorrow to evaluate TBM and potential for
   further intervention
   - vancomycin (D1 [**4-10**]) & cefepime (D1 [**4-9**]) to cover HAP, fluconzole
   (D1 [**4-10**]) to cover mold in sputum
   - ID consult re:treatment for fungus
   - f/u blood culture
   - f/u fever curve, wbc
   - albuterol/atrovent nebs
   - frequent suctioning
   - slow taper of steroids instituted at OSH, drop to 40qday
   .
   #.  Leukocytosis.  Most likely source of leukocytosis is PNA, however,
   reportedly had yeast in urine at OSH.  Was getting amphotericin bladder
   washes at OSH, however, unlikley to be pathogenic.  More likely to be
   secondary to long-term broad spectrum Abx.  Urine culture here with no
   growth. BAL showing 3+ PMNs, but culture with no growth to date.
   C.diff. negative x1.
   - vanco/cefepime for HAP
   - f/u blood cultures
   - reculture with HD
   - resend C. diff
   - Check vanc level per HD protocol
   .
   #. NSVT/Afib. Patient does have known pafib and appears to have had the
   episodes of NSVT coinciding with dialysis. Given 150mg amio x1
   yesterday and continued on drip at 1 then 0.5 per hour. ectopy has
   improved.
   - d/c drip and let patient auto-taper; would try to avoid amio
   especially given her tenuous pulmonary status.
   - can restart amio and consider longer-term amio if ectopy returns
   .
   #. RUE DVT: DVT seen on U/S. plan to start heparin drip after bronch.
   No bolus and monitor for signs of bleeding as patient has had previous
   epistaxsis and trach bleed.
   #. ESRD on HD.  Patient has been on dialysis since recent colectomy.
   Gets dialysis MWF.  Nephrology following.
   - vancomycin with dialysis/ check levels
   - nephrocaps
   - f/u nephrology recs
   .
   #.  Anasarca.  Patient is total body volume overlaoded in setting of
   severe malnutrition (colectomy, poor PO intake).  Getting volume
   removed at dailaysis at rehab.  However, extremities are cool and
   patient has low-normal blood pressure.  Would favor keeping patient
   even at dialysis in setting of infection.
   - tube feeds
   .
   #.  Thrombocytopenia.  Patient has 5 points (2 points for
   thrombocyptopenia, 1 point for timing, 0 for thrombosis, 2 for other
   causes) on the 4Ts scale, but has been on heparin for > 7 months due to
   dialysis.  No history of liver disease.  [**Month (only) 51**] be related to infection.
   HIT negative here.  DIC labs and peripheral smear negative.
   - trend platelet count
   - back on Hep SQ
   .
   #. HTN.  On nitropaste and amlodipine at home.
   - on captopril, will titrate as needed today
   - manage intravascular volume with HD.
   .
   FEN: No IVF, replete electrolytes, tube feeds
   .
   Prophylaxis: pneumoboots, Hep SQ, will start heparin gtt after bronch,
   PPI
   .
   Access: PICC, dialysis catheter, has A-line
   .
   Code: full, confirmed with patient
   .
   Communication: Patient, daughter, husband
   .
   Disposition: ICU care
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2190-4-13**] 04:35 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2190-4-8**] 09:23 PM
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Arterial Line - [**2190-4-12**] 07:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2190-04-14 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Bronchoscopy with note of ongoing bronchomalacia
   - BAL sent for gram stain (2+ PMNs and no organisms) and culture
   - Stool sent for c. diff
   - ID rec recheck galactomannan when off steroids, discontinue
   fluconazole, also rec CT chest
   - Heparin drip started for RUE DVT
   - Steroid dose decreased
   - Captopril being held [**2190-4-14**] AM prior to dialysis to allow for more
   optimal fluid removal with ultrafiltration
   - Had long 2.5hour SBT but did not tolerate at end
 BRONCHOSCOPY - At [**2190-4-13**] 02:51 PM
 BAL FLUID CULTURE - At [**2190-4-13**] 03:00 PM
 STOOL CULTURE - At [**2190-4-13**] 03:00 PM
   #2
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2190-4-11**] 04:32 PM
   Cefipime - [**2190-4-13**] 04:00 PM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-4-13**] 08:00 AM
   Midazolam (Versed) - [**2190-4-13**] 02:55 PM
   Fentanyl - [**2190-4-13**] 02:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-14**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.4
C (97.6
   HR: 102 (70 - 105) bpm
   BP: 199/70(99) {0/0(0) - 0/0(0)} mmHg
   RR: 21 (17 - 27) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65.6 kg (admission): 65.6 kg
             Total In:
                                                                  2,303 mL
                                                                    432 mL
   PO:
             TF:
                                                                    784 mL
                                                                    299 mL
   IVF:
                                                                    570 mL
                                                                    133 mL
   Blood products:
   Total out:
                                                                  1,507 mL
                                                                    200 mL
   Urine:
                                                                    157 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    796 mL
                                                                    232 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 350 (350 - 400) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 182
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   SpO2: 99%
   ABG: ///21/
   NIF: -24 cmH2O
   Ve: 9.7 L/min
   Physical Examination
   General: sedated, intubated, not following commands
   HEENT: Sclera anicteric, intubated
   Lungs: coarse BS
   CV: distant heart sounds, Regular rate and rhythm, normal S1 + S2, no
   murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: cool extremities, anasarca
   Lines: left picc, right tunneled HD line
 no exudate surrounding
   lines.
   Labs / Radiology
   146 K/uL
   10.0 g/dL
   144 mg/dL
   2.1 mg/dL
   21 mEq/L
   3.7 mEq/L
   42 mg/dL
   106 mEq/L
   138 mEq/L
   30.3 %
   26.9 K/uL
        [image002.jpg]
                             [**2190-4-10**]  03:29 AM
                             [**2190-4-11**]  02:07 AM
                             [**2190-4-11**]  03:32 AM
                             [**2190-4-12**]  02:50 AM
                             [**2190-4-12**]  03:17 PM
                             [**2190-4-12**]  03:44 PM
                             [**2190-4-13**]  02:10 AM
                             [**2190-4-13**]  02:34 AM
                             [**2190-4-13**]  04:00 AM
                             [**2190-4-14**]  04:10 AM
   WBC
   23.6
   31.2
   26.4
   36.0
   26.9
   Hct
   30.7
   30.5
   31.0
   33.4
   30.3
   Plt
   137
   164
   137
   155
   146
   Cr
   2.6
   1.8
   2.1
   1.3
   1.6
   2.1
   TCO2
   30
   30
   27
   Glucose
   128
   129
   135
   136
   149
   156
   144
   Other labs: PT / PTT / INR:13.3/150.0/1.1, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:49/34, Alk Phos / T Bili:167/0.3,
   Differential-Neuts:94.7 %, Band:0.0 %, Lymph:3.7 %, Mono:1.4 %, Eos:0.1
   %, Fibrinogen:373 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL,
   LDH:422 IU/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   This is a 81 yo f with HTN, HL, CHF, ESRD on HD, malnutrition, here
   with recurrent respiratory distress secondary to RLL lobar collapse
   (?TBM vs aspiration with mucous plugging vs HAP) now intubated.
   .
   #.  Respiratory failure.  Patient has recurrent lobar collapse with
   respiratory distress.  Reportedly has TBM but left sided lesion is too
   distal to stent.  OSH CT from [**3-15**] shows bilateral lower lobe collapse.
   Concern for malignancy as etiology is low.  Has elevated WBC and
   chronic cough (per daugher) without fever, but suspicious for HAP as
   well.  Recurrent symptoms in the setting of severe deconditioning also
   raises the possibility of recurrent aspiration. Now has positive
   galactomannan. Due to multiple respiratory problems, patient may
   ultimately require another trach and PEG.
   - bronch yesterday showed diffuse tracheomalacia, BAL obtained but
   little potential for further intervention
   - vancomycin (D1 [**4-10**]) & cefepime (D1 [**4-9**]) to cover HAP, fluconzole
   discontinued
   - f/u ID recs
   - CT chest
   - f/u blood culture
   - f/u fever curve, wbc
   - albuterol/atrovent nebs
   - frequent suctioning
   - slow taper of steroids instituted at OSH, drop to 30qday
   .
   #.  Leukocytosis.  Most likely source of leukocytosis is PNA, however,
   reportedly had yeast in urine at OSH.  Was getting amphotericin bladder
   washes at OSH, however, unlikley to be pathogenic.  More likely to be
   secondary to long-term broad spectrum Abx.  Urine culture here with no
   growth. BAL showing 3+ PMNs, but culture with no growth to date.
   C.diff. negative x2.
   - vanco/cefepime for HAP
   - f/u blood cultures
   - Check vanc level per HD protocol
   .
   #. NSVT/Afib. Patient does have known pafib and appears to have had the
   episodes of NSVT coinciding with dialysis. Given 150mg amio x1 on [**4-12**]
   and continued on drip at 1 then 0.5 per hour. ectopy has improved. now
   off drip and letting patient auto-taper; would try to avoid amio
   especially given her tenuous pulmonary status.
   - can restart amio and consider longer-term amio if ectopy returns
   - would try beta-blocker initially to cover tachy episodes during HD
   .
   #. HTN.  On nitropaste and amlodipine at home. Was on captopril and
   amlodipine here, however today will switch to single [**Doctor Last Name **] beta-blocker
   given concurrent rhythm issues.
   - manage with single [**Doctor Last Name **] beta-blocker as much as possible
   - manage intravascular volume with HD.
   .
   #. RUE DVT: DVT seen on U/S. plan to decrease heparin drip after PTT of
   150. Will have goal for PTT in 40-50 range and monitor for signs of
   bleeding as patient has had previous epistaxsis and trach bleed.
   .
   #. ESRD on HD.  Patient has been on dialysis since recent colectomy.
   Gets dialysis MWF.  Nephrology following.
   - vancomycin with dialysis/ check levels
   - nephrocaps
   - f/u nephrology recs
   .
   #.  Anasarca.  Patient is total body volume overlaoded in setting of
   severe malnutrition (colectomy, poor PO intake).  Getting volume
   removed at dailaysis at rehab.  However, extremities are cool and
   patient has low-normal blood pressure.  Would favor keeping patient
   even at dialysis in setting of infection.
   - tube feeds
   .
   #.  Thrombocytopenia.  Patient has 5 points (2 points for
   thrombocyptopenia, 1 point for timing, 0 for thrombosis, 2 for other
   causes) on the 4Ts scale, but has been on heparin for > 7 months due to
   dialysis.  No history of liver disease.  [**Month (only) 51**] be related to infection.
   HIT negative here.  DIC labs and peripheral smear negative.
   - trend platelet count now back on Hep gtt
   .
   FEN: No IVF, replete electrolytes, tube feeds
   .
   Prophylaxis: pneumoboots, Hep gtt, PPI
   .
   Access: PICC, dialysis catheter, has A-line
   .
   Code: full, confirmed with patient
   .
   Communication: Patient, daughter, husband
   .
   Disposition: ICU care
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2190-4-13**] 03:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2190-4-8**] 09:23 PM
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Arterial Line - [**2190-4-12**] 07:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2190-04-15 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CT chest prelim read: Widespread pulmonary infection and bilateral
   small pleural effusions, left greater than right. Discussed overnight
   and was not felt to be consistent with invasive fungal infection,
   therefore did not start Voriconazole.
   - Weaned methylprednisolone to 30mg IV q24
   - switched anti-hypertensive to beta-blocker alone
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2190-4-14**] 04:06 PM
   Infusions:
   Heparin Sodium - 150 units/hour
   Other ICU medications:
   Metoprolol - [**2190-4-14**] 10:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-15**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 79 (64 - 120) bpm
   BP: 146/49(80) {120/36(57) - 154/63(94)} mmHg
   RR: 22 (19 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.6 kg
             Total In:
                                                                  1,648 mL
                                                                    649 mL
   PO:
             TF:
                                                                    960 mL
                                                                    273 mL
   IVF:
                                                                    398 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  1,730 mL
                                                                    650 mL
   Urine:
                                                                    180 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -82 mL
                                                                     -1 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 327 (327 - 401) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 49
   PIP: 21 cmH2O
   Plateau: 21 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.49/35/141/23/4
   NIF: -14 cmH2O
   Ve: 6.1 L/min
   PaO2 / FiO2: 353
   Physical Examination
   General: sedated, intubated, not following commands
   HEENT: Sclera anicteric, intubated, dry blood around mouth and nares
   Lungs: coarse BS
   CV: distant heart sounds, Regular rate and rhythm, normal S1 + S2, no
   murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: cool extremities, anasarca
   Lines: left picc, right tunneled HD line
 no exudate surrounding
   lines.
   Labs / Radiology
   125 K/uL
   9.4 g/dL
   131 mg/dL
   1.4 mg/dL
   23 mEq/L
   3.4 mEq/L
   26 mg/dL
   105 mEq/L
   139 mEq/L
   27.9 %
   26.0 K/uL
        [image002.jpg]
                             [**2190-4-12**]  02:50 AM
                             [**2190-4-12**]  03:17 PM
                             [**2190-4-12**]  03:44 PM
                             [**2190-4-13**]  02:10 AM
                             [**2190-4-13**]  02:34 AM
                             [**2190-4-13**]  04:00 AM
                             [**2190-4-14**]  04:10 AM
                             [**2190-4-14**]  06:33 PM
                             [**2190-4-14**]  10:27 PM
                             [**2190-4-15**]  01:38 AM
   WBC
   26.4
   36.0
   26.9
   26.0
   Hct
   31.0
   33.4
   30.3
   29.0
   27.9
   Plt
   137
   155
   146
   125
   Cr
   2.1
   1.3
   1.6
   2.1
   1.4
   TCO2
   30
   27
   27
   Glucose
   135
   136
   149
   156
   144
   131
   Other labs: PT / PTT / INR:15.6/65.9/1.4, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:42/26, Alk Phos / T Bili:156/0.4,
   Differential-Neuts:94.7 %, Band:0.0 %, Lymph:3.7 %, Mono:1.4 %, Eos:0.1
   %, Fibrinogen:373 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.6 g/dL,
   LDH:361 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   This is a 81 yo f with HTN, HL, CHF, ESRD on HD, malnutrition, here
   with recurrent respiratory distress secondary to RLL lobar collapse
   (?TBM vs aspiration with mucous plugging vs HAP) now intubated.
   .
   #.  Respiratory failure.  Patient has recurrent lobar collapse with
   respiratory distress.  Reportedly has TBM but left sided lesion is too
   distal to stent.  CT on [**4-14**] showing diffuse disease, possibly invasive
   fungal infection.  Has elevated WBC and chronic cough (per daugher)
   without fever, but suspicious for HAP as well.  Recurrent symptoms in
   the setting of severe deconditioning also raises the possibility of
   recurrent aspiration. Has positive glucan/galactomannan, and given CT
   on [**4-14**], concerning for invasive aspergilliosis. Due to multiple
   respiratory problems, patient may ultimately require another trach and
   PEG. bronch on [**4-13**] showed diffuse tracheomalacia, BAL obtained but
   little potential for further intervention.
   - vancomycin (D1 [**4-10**]) & cefepime (D1 [**4-9**]) to cover HAP, fluconzole
   discontinued
   - would start voriconazole given possibility of invasive fungal
   infection
   - f/u ID recs
   - f/u cultures
   - f/u fever curve, wbc
   - albuterol/atrovent nebs
   - frequent suctioning
   - slow taper of steroids instituted at OSH, cont at 30qday
   - on PSV, wean as tolerated today
   .
   #.  Leukocytosis.  Most likely source of leukocytosis is PNA, however,
   reportedly had yeast in urine at OSH.  Was getting amphotericin bladder
   washes at OSH, however, unlikley to be pathogenic.  More likely to be
   secondary to long-term broad spectrum Abx.  Urine culture here with no
   growth. BAL showing 3+ PMNs, but culture with no growth to date.
   C.diff. negative x2.
   - vanco/cefepime for HAP
   - start vori for possible invasive aspergilliosis
   - f/u cultures
   - vanc per HD protocol
   .
   #. NSVT/Afib. Patient does have known pafib and appears to have had the
   episodes of NSVT coinciding with dialysis. Given 150mg amio x1 on [**4-12**]
   and continued on drip at 1 then 0.5 per hour. ectopy has improved. now
   off drip and letting patient auto-taper; would try to avoid amio
   especially given her tenuous pulmonary status.
   - can titrate beta-blocker to cover tachy episodes during HD, as well
   as control BP
   - can restart amio and consider longer-term amio if ectopy returns
   .
   #. HTN.  On nitropaste and amlodipine at home. Was on captopril and
   amlodipine here, however switched to single [**Doctor Last Name **] beta-blocker given
   concurrent rhythm issues.
   - manage with single [**Doctor Last Name **] beta-blocker as much as possible
   - manage intravascular volume with HD.
   .
   #. RUE DVT: DVT seen on U/S. Patient is very sensitive to heparin,
   currently on heparin drip at 150 with a PTT of 65.9. Will discuss with
   family regarding risks and benefits of anticoagulation given her
   tendency to bleed with the heparin.
   .
   #. ESRD on HD.  Patient has been on dialysis since recent colectomy.
   Gets dialysis MWF.  Nephrology following.
   - vancomycin with dialysis/ check levels
   - nephrocaps
   - f/u nephrology recs
   .
   #.  Anasarca.  Patient is total body volume overlaoded in setting of
   severe malnutrition (colectomy, poor PO intake).  Getting volume
   removed at dailaysis at rehab.  However, extremities are cool and
   patient has low-normal blood pressure.  Would favor keeping patient
   even at dialysis in setting of infection.
   - tube feeds
   .
   #.  Thrombocytopenia.  Patient has 5 points (2 points for
   thrombocyptopenia, 1 point for timing, 0 for thrombosis, 2 for other
   causes) on the 4Ts scale, but has been on heparin for > 7 months due to
   dialysis.  No history of liver disease.  [**Month (only) 51**] be related to infection.
   HIT negative here.  DIC labs and peripheral smear negative.
   - trend platelet count now, especially while back on Hep gtt
   .
   FEN: No IVF, replete electrolytes, tube feeds
   .
   Prophylaxis: pneumoboots, Hep gtt, PPI
   .
   Access: PICC, dialysis catheter, has A-line
   .
   Code: full, confirmed with patient
   .
   Communication: Patient, daughter, husband
   .
   Disposition: ICU care
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2190-4-14**] 03:57 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2190-4-8**] 09:23 PM
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Arterial Line - [**2190-4-12**] 07:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2190-04-16 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ID recs likely pulm aspergillosis given sputum/CT findings, start
   voriconazole po, wean steroids to off, cont vanc/cef
   - Renal recs agree d/c amlodipine/captopril, cont metop.
   - Dialysis with UF 2L, tolerated well
   - increased metoprolol to 37.5mg [**Hospital1 **]
   - tolerated PS 10/5 for only half hour, then back on [**12-21**] overnight
   - d/c heparin due to bleeding, cont pneumoboots
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2190-4-15**] 03:58 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-16**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.7
C (96.2
   HR: 78 (63 - 87) bpm
   BP: 143/53(84) {105/36(59) - 157/62(91)} mmHg
   RR: 21 (19 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.6 kg
             Total In:
                                                                  1,641 mL
                                                                    408 mL
   PO:
             TF:
                                                                    965 mL
                                                                    278 mL
   IVF:
                                                                    416 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  3,145 mL
                                                                    115 mL
   Urine:
                                                                     95 mL
                                                                     15 mL
   NG:
   Stool:
                                                                    450 mL
   Drains:
   Balance:
                                                                 -1,504 mL
                                                                    293 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 362 (320 - 411) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 8.2 L/min
   Physical Examination
   General: sedated, intubated, not following commands
   HEENT: Sclera anicteric, intubated, dry blood around mouth and nares
   Lungs: coarse BS
   CV: distant heart sounds, Regular rate and rhythm, normal S1 + S2, no
   murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: cool extremities, anasarca
   Lines: left picc, right tunneled HD line
 no exudate surrounding
   lines.
   Labs / Radiology
   115 K/uL
   8.4 g/dL
   114 mg/dL
   2.0 mg/dL
   21 mEq/L
   4.8 mEq/L
   47 mg/dL
   107 mEq/L
   138 mEq/L
   25.4 %
   27.9 K/uL
        [image002.jpg]
                             [**2190-4-12**]  03:17 PM
                             [**2190-4-12**]  03:44 PM
                             [**2190-4-13**]  02:10 AM
                             [**2190-4-13**]  02:34 AM
                             [**2190-4-13**]  04:00 AM
                             [**2190-4-14**]  04:10 AM
                             [**2190-4-14**]  06:33 PM
                             [**2190-4-14**]  10:27 PM
                             [**2190-4-15**]  01:38 AM
                             [**2190-4-16**]  01:58 AM
   WBC
   36.0
   26.9
   26.0
   27.9
   Hct
   33.4
   30.3
   29.0
   27.9
   25.4
   Plt
   155
   146
   125
   115
   Cr
   1.3
   1.6
   2.1
   1.4
   2.0
   TCO2
   30
   27
   27
   Glucose
   136
   149
   156
   144
   131
   114
   Other labs: PT / PTT / INR:14.7/30.2/1.3, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:66/44, Alk Phos / T Bili:207/0.4,
   Differential-Neuts:94.9 %, Band:0.0 %, Lymph:3.8 %, Mono:1.0 %, Eos:0.1
   %, Fibrinogen:373 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.6 g/dL,
   LDH:402 IU/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   This is a 81 yo f with HTN, HL, CHF, ESRD on HD, malnutrition, here
   with recurrent respiratory distress secondary to RLL lobar collapse
   (?TBM vs aspiration with mucous plugging vs HAP) now intubated.
   .
   #.  Respiratory failure.  Patient has recurrent lobar collapse with
   respiratory distress.  Reportedly has TBM but left sided lesion is too
   distal to stent.  CT on [**4-14**] showing diffuse disease, possibly invasive
   fungal infection.  Has elevated WBC and chronic cough (per daugher)
   without fever, but suspicious for HAP as well.  Recurrent symptoms in
   the setting of severe deconditioning also raises the possibility of
   recurrent aspiration. Has positive glucan/galactomannan, and given CT
   on [**4-14**], concerning for invasive aspergilliosis. Due to multiple
   respiratory problems, patient may ultimately require another trach and
   PEG. bronch on [**4-13**] showed diffuse tracheomalacia, BAL obtained but
   little potential for further intervention.
   - vancomycin (D1 [**4-10**]) & cefepime (D1 [**4-9**]) to cover HAP, fluconzole
   discontinued
   - would start voriconazole given possibility of invasive fungal
   infection
   - f/u ID recs
   - f/u cultures
   - f/u fever curve, wbc
   - albuterol/atrovent nebs
   - frequent suctioning
   - slow taper of steroids instituted at OSH, cont at 30qday
   - on PSV, wean as tolerated today
   .
   #.  Leukocytosis.  Most likely source of leukocytosis is PNA, however,
   reportedly had yeast in urine at OSH.  Was getting amphotericin bladder
   washes at OSH, however, unlikley to be pathogenic.  More likely to be
   secondary to long-term broad spectrum Abx.  Urine culture here with no
   growth. BAL showing 3+ PMNs, but culture with no growth to date.
   C.diff. negative x2.
   - vanco/cefepime for HAP
   - start vori for possible invasive aspergilliosis
   - f/u cultures
   - vanc per HD protocol
   .
   #. NSVT/Afib. Patient does have known pafib and appears to have had the
   episodes of NSVT coinciding with dialysis. Given 150mg amio x1 on [**4-12**]
   and continued on drip at 1 then 0.5 per hour. ectopy has improved. now
   off drip and letting patient auto-taper; would try to avoid amio
   especially given her tenuous pulmonary status.
   - can titrate beta-blocker to cover tachy episodes during HD, as well
   as control BP
   - can restart amio and consider longer-term amio if ectopy returns
   .
   #. HTN.  On nitropaste and amlodipine at home. Was on captopril and
   amlodipine here, however switched to single [**Doctor Last Name **] beta-blocker given
   concurrent rhythm issues.
   - manage with single [**Doctor Last Name **] beta-blocker as much as possible
   - manage intravascular volume with HD.
   .
   #. RUE DVT: DVT seen on U/S. Patient is very sensitive to heparin,
   currently on heparin drip at 150 with a PTT of 65.9. Will discuss with
   family regarding risks and benefits of anticoagulation given her
   tendency to bleed with the heparin.
   .
   #. ESRD on HD.  Patient has been on dialysis since recent colectomy.
   Gets dialysis MWF.  Nephrology following.
   - vancomycin with dialysis/ check levels
   - nephrocaps
   - f/u nephrology recs
   .
   #.  Anasarca.  Patient is total body volume overlaoded in setting of
   severe malnutrition (colectomy, poor PO intake).  Getting volume
   removed at dailaysis at rehab.  However, extremities are cool and
   patient has low-normal blood pressure.  Would favor keeping patient
   even at dialysis in setting of infection.
   - tube feeds
   .
   #.  Thrombocytopenia.  Patient has 5 points (2 points for
   thrombocyptopenia, 1 point for timing, 0 for thrombosis, 2 for other
   causes) on the 4Ts scale, but has been on heparin for > 7 months due to
   dialysis.  No history of liver disease.  [**Month (only) 51**] be related to infection.
   HIT negative here.  DIC labs and peripheral smear negative.
   - trend platelet count now, especially while back on Hep gtt
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2190-4-15**] 04:46 PM 40 mL/hour
   Glycemic Control:  Insulin SS
   Lines:
   PICC Line - [**2190-4-8**] 09:23 PM
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Arterial Line - [**2190-4-12**] 07:07 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Patient, daughter, husband
   [**Name (NI) 36**] status: full, confirmed with patient
   Disposition: ICU care

2190-04-17 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ID recs consider stopping Vanc and cefepime, continue voriconazle,
   sinus CT given likely aspergillosis and epistaxis
   - Renal recommended ongoing UF with HD, also PTH draw on AM labs
   - Dialysis with UF 1.9 L, tolerated well
   - Had SBT with pre-SBT ABG of 7.52/35/156 and post-SBT ABG of 7.50/
   39/119. NIF was -13
   - Had sinus CT in the evening without incident
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2190-4-15**] 03:58 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-17**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 82 (63 - 92) bpm
   BP: 148/56(88) {88/39(53) - 159/61(92)} mmHg
   RR: 26 (18 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.6 kg
             Total In:
                                                                  1,411 mL
                                                                    588 mL
   PO:
             TF:
                                                                    961 mL
                                                                    287 mL
   IVF:
                                                                    240 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                    135 mL
                                                                    150 mL
   Urine:
                                                                     35 mL
                                                                     10 mL
   NG:
   Stool:
   140 mL
   Drains:
   Balance:
                                                                  1,276 mL
                                                                    438 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 402 (305 - 402) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 78
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.50/39/119/26/7
   NIF: -13 cmH2O
   Ve: 7.2 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General: sedated, intubated, not following commands
   HEENT: Sclera anicteric, intubated, dry blood around mouth and nares
   Lungs: coarse BS
   CV: distant heart sounds, Regular rate and rhythm, normal S1 + S2, no
   murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: cool extremities, anasarca
   Lines: left picc, right tunneled HD line
 no exudate, tenderness, or
   erythema surrounding lines.
   Labs / Radiology
   113 K/uL
   8.0 g/dL
   138 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.2 mEq/L
   27 mg/dL
   104 mEq/L
   142 mEq/L
   24.1 %
   31.8 K/uL
        [image002.jpg]
                             [**2190-4-13**]  02:10 AM
                             [**2190-4-13**]  02:34 AM
                             [**2190-4-13**]  04:00 AM
                             [**2190-4-14**]  04:10 AM
                             [**2190-4-14**]  06:33 PM
                             [**2190-4-14**]  10:27 PM
                             [**2190-4-15**]  01:38 AM
                             [**2190-4-16**]  01:58 AM
                             [**2190-4-16**]  06:30 PM
                             [**2190-4-17**]  02:43 AM
   WBC
   36.0
   26.9
   26.0
   27.9
   31.8
   Hct
   33.4
   30.3
   29.0
   27.9
   25.4
   24.1
   Plt
   155
   146
   125
   115
   113
   Cr
   1.6
   2.1
   1.4
   2.0
   1.3
   TCO2
   27
   27
   31
   Glucose
   149
   156
   144
   131
   114
   138
   Other labs: PT / PTT / INR:12.7/23.5/1.1, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:72/50, Alk Phos / T Bili:299/0.4,
   Differential-Neuts:94.9 %, Band:0.0 %, Lymph:3.8 %, Mono:1.0 %, Eos:0.1
   %, Fibrinogen:373 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.6 g/dL,
   LDH:455 IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
   This is a 81 yo f with HTN, HL, CHF, ESRD on HD, malnutrition, here
   with recurrent respiratory distress secondary to RLL lobar collapse
   (?TBM vs aspiration with mucous plugging vs HAP) now intubated.
   .
   #.  Respiratory failure:
   Patient has recurrent lobar collapse with respiratory distress.
   Reportedly has TBM but left sided lesion is too distal to stent. Has
   positive glucan/galactomannan, and CT on [**4-14**] showing diffuse disease,
   possibly invasive aspergilliosis. Was started on oral voriconazole on
   [**2190-4-15**]. Due to multiple respiratory problems, patient may ultimately
   require another trach and PEG.  Will probide her with as much advantage
   for successful vent liberation as possible with ongoing UF dialysis.
   Must also consider that some component of resp failure could be PE from
   known RUE DVT, though did not tolerate anticoagulation.
   - can d/c Vancomycin (D1 [**4-10**]) & cefepime (D1 [**4-9**]) as now completed
   course for HAP
   - Voriconazole (D1 [**4-16**])
   - f/u ID recs
   - will discuss with ENT re:sinus CT and is there is any concern for
   fungus which would likely require surgery.
   - f/u cultures
   - f/u fever curve, wbc
   - albuterol/atrovent nebs
   - frequent suctioning
   - Continuing to taper Methylpred, reduce to 10 IV every 24 hours
   - on PSV, will try SBT again today to assess patient
s overall
   respiratory status however will likely need a trach for prolonged wean
   #. Anemia: Has been trending down. Not currently concerned for bleeding
   however will continue to monitor.
   - minimize phlebotomy
   - guaiac all stool
   #.  Leukocytosis:
   Was trending down reliably with tapering of steroid and ongoing ABx
   treatment; however, up today with still unclear etiology.
   - s/p vanco/cefepime for HAP
   - Continue vori for possible invasive aspergilliosis
   - f/u cultures
   #. NSVT/Afib:
   Patient does have known pafib and appears to have had the episodes of
   NSVT coinciding with dialysis. Given 150mg amio x1 on [**4-12**] and
   continued on drip at 1 then 0.5 per hour. ectopy has improved. now off
   drip and letting patient auto-taper; would try to avoid amio especially
   given her tenuous pulmonary status. Attempted anticoagulation was not
   tolerated by patient due to epistaxis and IV site bleeding.
   - can titrate beta-blocker to cover tachy episodes during HD, as well
   as control BP
   - can restart amio and consider longer-term amio if ectopy returns
   #. HTN.  On nitropaste and amlodipine at home. Was on captopril and
   amlodipine here, however switched to single [**Doctor Last Name **] beta-blocker given
   concurrent rhythm issues.
   - cont single [**Doctor Last Name **] metoprolol to 37.5 three times daily
   - Manage intravascular volume with HD and UF
   #. RUE DVT:
    DVT seen on U/S. Patient at risk for PE; however, was intolerant of
   anticoagulation.
   #. ESRD on HD:
   Patient has been on dialysis since recent colectomy.  Gets dialysis
   MWF.  Nephrology following.
   - ongoing UF dialysis
   - nephrocaps
   - f/u nephrology recs
   #.  Thrombocytopenia.:
   HIT neg and resolving thrombocytopenia.
   - Trend platelet count
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2190-4-16**] 05:44 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2190-4-8**] 09:23 PM
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Arterial Line - [**2190-4-12**] 07:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2190-04-18 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Discontinued vanc and cefepime (completed course for HAP)
   - CT sinus showed only air/fluid levels in mastoids, which is expected
   in intubated patients (per ENT), without evidence of bony destruction
   (no evidence of invasive fungal infection in the sinuses).
   - continued to wean steroid to 10mg IV q24.
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2190-4-15**] 03:58 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-18**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98
   HR: 57 (57 - 80) bpm
   BP: 143/39(69) {86/39(60) - 164/81(89)} mmHg
   RR: 18 (18 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.6 kg
             Total In:
                                                                  1,939 mL
                                                                    350 mL
   PO:
             TF:
                                                                    974 mL
                                                                    280 mL
   IVF:
                                                                    240 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                    190 mL
                                                                      0 mL
   Urine:
                                                                     50 mL
   NG:
   Stool:
                                                                    140 mL
   Drains:
   Balance:
                                                                  1,749 mL
                                                                    350 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 385 (260 - 385) mL
   PS : 8 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 95
   PIP: 13 cmH2O
   SpO2: 99%
   ABG: 7.39/46/111/26/2
   Ve: 8.8 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General: Awake and alert, following commands, intubated.
   HEENT: Sclera anicteric, intubated, dry blood around mouth and nares
   Lungs: coarse BS
   CV: distant heart sounds, Regular rate and rhythm, normal S1 + S2, no
   murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: cool extremities, anasarca
   Lines: left picc, right tunneled HD line
 no exudate, tenderness, or
   erythema surrounding lines.
   Labs / Radiology
   121 K/uL
   7.7 g/dL
   161 mg/dL
   2.1 mg/dL
   26 mEq/L
   4.3 mEq/L
   53 mg/dL
   106 mEq/L
   140 mEq/L
   24.1 %
   27.9 K/uL
        [image002.jpg]
                             [**2190-4-13**]  04:00 AM
                             [**2190-4-14**]  04:10 AM
                             [**2190-4-14**]  06:33 PM
                             [**2190-4-14**]  10:27 PM
                             [**2190-4-15**]  01:38 AM
                             [**2190-4-16**]  01:58 AM
                             [**2190-4-16**]  06:30 PM
                             [**2190-4-17**]  02:43 AM
                             [**2190-4-17**]  05:22 PM
                             [**2190-4-18**]  03:13 AM
   WBC
   26.9
   26.0
   27.9
   31.8
   27.9
   Hct
   30.3
   29.0
   27.9
   25.4
   24.1
   24.1
   Plt
   146
   125
   115
   113
   121
   Cr
   2.1
   1.4
   2.0
   1.3
   2.1
   TCO2
   27
   31
   29
   Glucose
   156
   144
   131
   114
   138
   161
   Other labs: PT / PTT / INR:12.4/22.0/1.0, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:86/53, Alk Phos / T Bili:369/0.3,
   Differential-Neuts:93.9 %, Band:0.0 %, Lymph:4.7 %, Mono:1.3 %, Eos:0.1
   %, Fibrinogen:373 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL,
   LDH:435 IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   This is a 81 yo f with HTN, HL, CHF, ESRD on HD, malnutrition, here
   with recurrent respiratory distress secondary to RLL lobar collapse
   (?TBM vs aspiration with mucous plugging vs HAP) now intubated.
   .
   #.  Respiratory failure:
   Patient has recurrent lobar collapse with respiratory distress.
   Reportedly has TBM but left sided lesion is too distal to stent. Has
   positive glucan/galactomannan, and CT on [**4-14**] showing diffuse disease,
   possibly invasive aspergilliosis. Was started on oral voriconazole on
   [**2190-4-15**]. Due to multiple respiratory problems, patient may ultimately
   require another trach and PEG.  Will provide her with as much advantage
   for successful vent liberation as possible with ongoing UF dialysis.
   Must also consider that some component of resp failure could be PE from
   known RUE DVT, though did not tolerate anticoagulation.  Improved
   respiratory status, tolerated 2 hour SBT yesterday [**4-17**].
   - completed course for HAP with Vancomycin (D1 [**4-10**]) & cefepime (D1
   [**4-9**]), both d/c on [**4-17**]
   - cont Voriconazole (D1 [**4-16**])
   - f/u ID recs, question of length of treatment with voriconazole.
   - ENT recs CT sinus c/w intubation status, will discuss with radiology
   extent of air/fluid in sinuses.
   - f/u cultures
   - f/u fever curve, wbc
   - albuterol/atrovent nebs
   - d/c steroids today
   - plan extubation today
   #. Anemia: Has been trending down. Not currently concerned for bleeding
   however will continue to monitor.
   - minimize phlebotomy
   - guaiac all stool
   #.  Leukocytosis:
   Was trending down reliably with tapering of steroid and ongoing ABx
   treatment; however, up today with still unclear etiology.
   - s/p vanco/cefepime for HAP
   - Continue vori for possible invasive aspergilliosis
   - f/u cultures
   - will obtain LFTs due to voriconazole
   - B-glucan, galactomannan
   - c.diff negative from [**4-17**]
   #. NSVT/Afib:
   Patient does have known pafib and appears to have had the episodes of
   NSVT coinciding with dialysis. Given 150mg amio x1 on [**4-12**] and
   continued on drip at 1 then 0.5 per hour. ectopy has improved. now off
   drip and letting patient auto-taper; would try to avoid amio especially
   given her tenuous pulmonary status. Attempted anticoagulation was not
   tolerated by patient due to epistaxis and IV site bleeding.
   - can titrate beta-blocker to cover tachy episodes during HD, as well
   as control BP
   - can restart amio and consider longer-term amio if ectopy returns
   #. HTN.  On nitropaste and amlodipine at home. Was on captopril and
   amlodipine here, however switched to single [**Doctor Last Name **] beta-blocker given
   concurrent rhythm issues.
   - cont single [**Doctor Last Name **] metoprolol to 37.5 three times daily
   - will restart amlodipine today
   - Manage intravascular volume with HD and UF
   #. RUE DVT:
    DVT seen on U/S. Patient at risk for PE; however, was intolerant of
   anticoagulation.
   #. ESRD on HD:
   Patient has been on dialysis since recent colectomy.  Gets dialysis
   MWF.  Nephrology following.
   - ongoing UF dialysis, plan HD on [**4-19**]
   - nephrocaps
   - f/u nephrology recs
   - daily weights
   #.  Thrombocytopenia.:
   HIT neg and resolving thrombocytopenia.
   - Trend platelet count
   FEN: NPO for extubation, will assess for PO diet once extubated
   Prophylaxis:  Pneumoboots for DVT prophylaxis, PPI, colace, senna
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2190-4-17**] 06:16 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2190-4-8**] 09:23 PM
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Arterial Line - [**2190-4-12**] 07:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2190-04-18 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Went in to afib w/RVR. Used IV Metoprolol to control initially. OGT
   replaced and PO dilt restarted.
   - During day on [**8-23**] -> became tachypnic in PM, placed on [**10-23**], then
   rested on AC overnight.  ABG on PEEP 10, 8 PSV: 7.40/56/73, looking
   well, however remained tachypnic.
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2190-4-15**] 03:58 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-18**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98
   HR: 63 (57 - 80) bpm
   BP: 168/52(89) {86/39(60) - 168/81(89)} mmHg
   RR: 22 (18 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.6 kg
             Total In:
                                                                  1,939 mL
                                                                    358 mL
   PO:
             TF:
                                                                    974 mL
                                                                    286 mL
   IVF:
                                                                    240 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                    190 mL
                                                                      0 mL
   Urine:
                                                                     50 mL
   NG:
   Stool:
                                                                    140 mL
   Drains:
   Balance:
                                                                  1,749 mL
                                                                    358 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 385 (260 - 385) mL
   PS : 8 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 95
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: 7.39/46/111/26/2
   Ve: 8.8 L/min
   PaO2 / FiO2: 277
   Labs / Radiology
   121 K/uL
   7.7 g/dL
   161 mg/dL
   2.1 mg/dL
   26 mEq/L
   4.3 mEq/L
   53 mg/dL
   106 mEq/L
   140 mEq/L
   24.1 %
   27.9 K/uL
        [image002.jpg]
                             [**2190-4-13**]  04:00 AM
                             [**2190-4-14**]  04:10 AM
                             [**2190-4-14**]  06:33 PM
                             [**2190-4-14**]  10:27 PM
                             [**2190-4-15**]  01:38 AM
                             [**2190-4-16**]  01:58 AM
                             [**2190-4-16**]  06:30 PM
                             [**2190-4-17**]  02:43 AM
                             [**2190-4-17**]  05:22 PM
                             [**2190-4-18**]  03:13 AM
   WBC
   26.9
   26.0
   27.9
   31.8
   27.9
   Hct
   30.3
   29.0
   27.9
   25.4
   24.1
   24.1
   Plt
   146
   125
   115
   113
   121
   Cr
   2.1
   1.4
   2.0
   1.3
   2.1
   TCO2
   27
   31
   29
   Glucose
   156
   144
   131
   114
   138
   161
   Other labs: PT / PTT / INR:12.4/22.0/1.0, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:86/53, Alk Phos / T Bili:369/0.3,
   Differential-Neuts:93.9 %, Band:0.0 %, Lymph:4.7 %, Mono:1.3 %, Eos:0.1
   %, Fibrinogen:373 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL,
   LDH:435 IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ELECTROLYTE & FLUID DISORDER, OTHER
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 CARDIAC DYSRHYTHMIA OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O BACTEREMIA
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2190-4-17**] 06:16 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2190-4-8**] 09:23 PM
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Arterial Line - [**2190-4-12**] 07:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2190-04-19 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Extubated in AM without events, well post-extubation
   - ID recs check b-glucan/galactomannan qweek, check 2 more c.diff,
   monitor LFT
   - Renal recs HD tomorrow, will UF with run, epo at HD
   - d/c steroids
   - started amlodipine, persistent HTN
 INVASIVE VENTILATION - STOP [**2190-4-18**] 01:02 PM
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Voriconazole - [**2190-4-19**] 12:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2190-4-18**] 08:03 AM
   Hydralazine - [**2190-4-18**] 11:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-19**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 56 (56 - 72) bpm
   BP: 146/49(80) {137/43(73) - 171/64(101)} mmHg
   RR: 26 (17 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.6 kg
             Total In:
                                                                    825 mL
                                                                    101 mL
   PO:
             30 mL
   TF:
                                                                    435 mL
   IVF:
                                                                    240 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                    660 mL
                                                                      0 mL
   Urine:
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    165 mL
                                                                    101 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 285 (263 - 285) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 60%
   RSBI: 87
   PIP: 5 cmH2O
   SpO2: 100%
   ABG: 7.40/38/168/23/0
   Ve: 6.3 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General: Awake and alert, NAD.
   HEENT: Sclera anicteric, dry blood around mouth and nares
   Lungs: coarse BS
   CV: distant heart sounds, Regular rate and rhythm, normal S1 + S2, no
   murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: cool extremities, anasarca
   Lines: left picc, right tunneled HD line
 no exudate, tenderness, or
   erythema surrounding lines.
   Labs / Radiology
   143 K/uL
   8.6 g/dL
   110 mg/dL
   2.6 mg/dL
   23 mEq/L
   5.2 mEq/L
   76 mg/dL
   105 mEq/L
   138 mEq/L
   25.9 %
   27.9 K/uL
        [image002.jpg]
                             [**2190-4-14**]  06:33 PM
                             [**2190-4-14**]  10:27 PM
                             [**2190-4-15**]  01:38 AM
                             [**2190-4-16**]  01:58 AM
                             [**2190-4-16**]  06:30 PM
                             [**2190-4-17**]  02:43 AM
                             [**2190-4-17**]  05:22 PM
                             [**2190-4-18**]  03:13 AM
                             [**2190-4-18**]  11:35 PM
                             [**2190-4-19**]  03:52 AM
   WBC
   26.0
   27.9
   31.8
   27.9
   27.9
   Hct
   29.0
   27.9
   25.4
   24.1
   24.1
   25.9
   Plt
   125
   115
   113
   121
   143
   Cr
   1.4
   2.0
   1.3
   2.1
   2.6
   TCO2
   27
   31
   29
   24
   Glucose
   131
   114
   138
   161
   110
   Other labs: PT / PTT / INR:12.4/22.0/1.0, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:112/71, Alk Phos / T Bili:437/0.6,
   Differential-Neuts:93.9 %, Band:0.0 %, Lymph:4.7 %, Mono:1.3 %, Eos:0.1
   %, Fibrinogen:373 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL,
   LDH:520 IU/L, Ca++:9.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   This is a 81 yo f with HTN, HL, CHF, ESRD on HD, malnutrition, here
   with recurrent respiratory distress secondary to RLL lobar collapse
   (?TBM vs aspiration with mucous plugging vs HAP) now extubated.
   .
   #.  Respiratory failure:
   Patient has recurrent lobar collapse with respiratory distress.
   Reportedly has TBM but left sided lesion is too distal to stent. Has
   positive glucan/galactomannan, and CT on [**4-14**] showing diffuse disease,
   possibly invasive aspergilliosis. Was started on oral voriconazole on
   [**2190-4-15**]. Due to multiple respiratory problems, patient may ultimately
   require another intubation which she has stated she would want.  Will
   continue to remove fluid with dialysis. Must also consider that some
   component of resp failure could be PE from known RUE DVT, though did
   not tolerate anticoagulation.  Improved respiratory status.  Now off
   steroids. CT sinus showing fluid in mastoids not concerning for
   invasive fungal disease there.
   - completed course for HAP with Vancomycin (D1 [**4-10**]) & cefepime (D1
   [**4-9**]), both d/c on [**4-17**]
   - cont Voriconazole (D1 [**4-16**])
   - f/u ID recs, question of long-term LFT monitoring and vori dosing as
   patient is likely to go to rehab soon.
   - f/u cultures
   - f/u fever curve, wbc
   - albuterol/atrovent nebs
   - PT
   - monitor PO today, consider speech and swallow eval if needed.
   #. Anemia: Has been trending down. Not currently concerned for bleeding
   however will continue to monitor.
   - minimize phlebotomy
   - guaiac all stool
   #.  Leukocytosis:
   Was trending down reliably with tapering of steroid and ongoing ABx
   treatment; however, up today with still unclear etiology.
   - s/p vanco/cefepime for HAP
   - Continue vori for possible invasive aspergilliosis
   - f/u cultures
   - will obtain regular LFTs due to voriconazole
   - weekly B-glucan, galactomannan
   - c.diff negative from [**4-17**]
   #. NSVT/Afib:
   Patient does have known pafib and appears to have had the episodes of
   NSVT coinciding with dialysis. Given 150mg amio x1 on [**4-12**] and
   continued on drip at 1 then 0.5 per hour. ectopy has improved. now off
   drip and letting patient auto-taper; would try to avoid amio especially
   given her tenuous pulmonary status. Attempted anticoagulation was not
   tolerated by patient due to epistaxis and IV site bleeding.
   - can titrate beta-blocker to cover tachy episodes during HD, as well
   as control BP
   - can restart amio and consider longer-term amio if ectopy returns
   #. HTN.  On nitropaste and amlodipine at home. Was on captopril and
   amlodipine here, however switched to single [**Doctor Last Name **] beta-blocker given
   concurrent rhythm issues.
   - cont single [**Doctor Last Name **] metoprolol to 37.5 three times daily
   - will avoid additional agents and focus on removing fluids during HD
   - Manage intravascular volume with HD and UF
   #. RUE DVT:
    DVT seen on U/S. Patient at risk for PE; however, was intolerant of
   anticoagulation.
   - will consider low-dose Coumadin after acute issues are resolved.
   #. ESRD on HD:
   Patient has been on dialysis since recent colectomy.  Gets dialysis
   MWF.  Nephrology following.
   - ongoing UF dialysis, plan HD today
   - nephrocaps
   - f/u nephrology recs
   - daily weights
   #.  Thrombocytopenia.:
   HIT neg and resolving thrombocytopenia.
   - Trend platelet count
   FEN: NPO for extubation, will try to advance diet today
   Prophylaxis:  Pneumoboots for DVT prophylaxis, PPI, colace, senna
   Dispo: begin planning for rehab to go in the next day or two.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2190-4-8**] 09:23 PM
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Arterial Line - [**2190-4-12**] 07:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2190-04-20 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Discontinued amlodipine
   - HD performed with minimal UF due to limiting hypotension (~300cc)
   - Screened for rehab with beds available at several centers
   - NG tube attempted at 2300; however, pt found to be minimally
   responsive to all stimuli, including sternal rub. Normal blood sugar,
   ABG was acceptable at 7.45/41/81, relative hypotension with systolics
   in the mid-90s, body temp was 94.7 axillary.
   - Sent for head CT with prelim negative read.
   - After coming back from CT patient with rectal temp of 97.2. Was more
   responsive to simple vocal commands.
   - Bolused with 500 mL and pressure coming up to 110s to 120s systolic
   - Elevated LFT
s, discontinued voriconazole.
 ARTERIAL LINE - STOP [**2190-4-19**] 09:58 PM
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Voriconazole - [**2190-4-19**] 12:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2190-4-20**] 03:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-20**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.3
C (95.6
   HR: 81 (52 - 81) bpm
   BP: 122/77(99) {85/21(37) - 162/106(99)} mmHg
   RR: 33 (24 - 40) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.5 kg
   Height: 61 Inch
             Total In:
                                                                    475 mL
                                                                    597 mL
   PO:
                                                                    210 mL
             TF:
   IVF:
                                                                    240 mL
                                                                    572 mL
   Blood products:
   Total out:
                                                                    565 mL
                                                                     10 mL
   Urine:
                                                                     35 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -90 mL
                                                                    587 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.45/41/81.[**Numeric Identifier 218**]/24/3
   PaO2 / FiO2: 135
   Physical Examination
   General: Awake but non-verbal, tachypnic, opens eyes to command, does
   not move limbs to command.
   HEENT: Sclera anicteric, dry blood around mouth and nares
   Lungs: coarse BS, exp wheezes
   CV: distant heart sounds, Regular rate and rhythm, normal S1 + S2, no
   murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: cool extremities, anasarca
   Lines: left picc, right tunneled HD line
 no exudate, tenderness, or
   erythema surrounding lines.
   Labs / Radiology
   99 K/uL
   7.6 g/dL
   75 mg/dL
   1.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   43 mg/dL
   106 mEq/L
   143 mEq/L
   23.2 %
   14.2 K/uL
        [image002.jpg]
                             [**2190-4-16**]  01:58 AM
                             [**2190-4-16**]  06:30 PM
                             [**2190-4-17**]  02:43 AM
                             [**2190-4-17**]  05:22 PM
                             [**2190-4-18**]  03:13 AM
                             [**2190-4-18**]  11:35 PM
                             [**2190-4-19**]  03:52 AM
                             [**2190-4-19**]  12:29 PM
                             [**2190-4-19**]  11:38 PM
                             [**2190-4-20**]  05:00 AM
   WBC
   27.9
   31.8
   27.9
   27.9
   14.2
   Hct
   25.4
   24.1
   24.1
   25.9
   23.2
   Plt
   115
   113
   121
   143
   99
   Cr
   2.0
   1.3
   2.1
   2.6
   1.7
   TCO2
   31
   29
   24
   28
   29
   Glucose
   114
   138
   161
   110
   75
   Other labs: PT / PTT / INR:15.5/25.8/1.4, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:[**Telephone/Fax (1) 6823**], Alk Phos / T Bili:344/0.9,
   Differential-Neuts:83.1 %, Band:0.0 %, Lymph:13.9 %, Mono:1.9 %,
   Eos:0.5 %, Fibrinogen:373 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.8
   g/dL, LDH:4010 IU/L, Ca++:9.1 mg/dL, Mg++:1.8 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   This is a 81 yo f with HTN, HL, CHF, ESRD on HD, malnutrition, here
   with recurrent respiratory distress secondary to RLL lobar collapse
   (?TBM vs aspiration with mucous plugging vs HAP) now extubated.
   .
   #. Liver:
   Patient has had rising LFT
s with today in the thousands. Med effect
   vs. hypotensive/shock liver. Vori is discontinued with ID to recommend
   potential alternative treatment. Will support pressures to keep SBP
   above 100.
   - Consult hepatology
   - liver US with dopplers
   - check ammonia
   - monitor LFT
   # AMS:
   Given timing with liver damage, likely related. [**Month (only) 51**] be encephalopathy
   vs. hypotension/hypoxia. CT scan prelim negative, final read pending,
   Plan as above for liver. Continue to monitor for encephalopathy/signs
   of stroke.
   #.  Respiratory failure:
   Patient has recurrent lobar collapse with respiratory distress.
   Reportedly has TBM but left sided lesion is too distal to stent. Has
   positive glucan/galactomannan, and CT on [**4-14**] showing diffuse disease,
   possibly invasive aspergilliosis. Was started on oral voriconazole on
   [**2190-4-15**], but with elevated LFT
s to thousands today, vori is
   discontinued. Due to multiple respiratory problems, patient may
   ultimately require another intubation which she has stated she would
   want.  Will continue to remove fluid as possible with dialysis. Must
   also consider that some component of resp failure could be PE from
   known RUE DVT, though did not tolerate anticoagulation.  Improved
   respiratory status overall though today is tachypnic.  Now off
   steroids. CT sinus showing fluid in mastoids not concerning for
   invasive fungal disease there.
   - completed course for HAP with Vancomycin (D1 [**4-10**]) & cefepime (D1
   [**4-9**]), both d/c on [**4-17**]
   - discontinued Voriconazole (D1 was [**4-16**])
   - f/u ID recs.
   - f/u cultures
   - f/u fever curve, wbc
   - albuterol/atrovent nebs
   - PT
   - monitor mental status today
   - failed speech and swallow eval.
   #. Anemia: Has been trending down. Not currently concerned for bleeding
   however will continue to monitor.
   - minimize phlebotomy
   - guaiac all stool
   #.  Leukocytosis:
   Trending down with tapering of steroid and ongoing ABx treatment; down
   today with still unclear etiology.
   - s/p vanco/cefepime for HAP
   - discontinued vori (was for possible invasive aspergilliosis, and may
   start alternative in the future)
   - f/u cultures
   - weekly B-glucan, galactomannan
   - c.diff negative
   #. NSVT/Afib:
   Patient does have known pafib and appears to have had the episodes of
   NSVT coinciding with dialysis. Given 150mg amio x1 on [**4-12**] and
   continued on drip at 1 then 0.5 per hour. ectopy has improved. now off
   drip and letting patient auto-taper; would try to avoid amio especially
   given her tenuous pulmonary status. Attempted anticoagulation was not
   tolerated by patient due to epistaxis and IV site bleeding.
   - can titrate beta-blocker to cover tachy episodes during HD, as well
   as control BP
   - can restart amio and consider longer-term amio if ectopy returns
   #. HTN.  On nitropaste and amlodipine at home. Was on captopril and
   amlodipine here, however switched to single [**Doctor Last Name **] beta-blocker given
   concurrent rhythm issues.
   - cont single [**Doctor Last Name **] metoprolol if needed, IV while without tube (will
   place NG today)
   - will avoid additional agents and focus on removing fluids during HD
   - Manage intravascular volume with HD and UF
   #. RUE DVT:
    DVT seen on U/S. Patient at risk for PE; however, was intolerant of
   anticoagulation.
   - will consider low-dose Coumadin after acute issues are resolved.
   #. ESRD on HD:
   Patient has been on dialysis since recent colectomy.  Gets dialysis
   MWF.  Nephrology following.
   - ongoing UF dialysis, plan HD MWF
   - nephrocaps
   - f/u nephrology recs
   - daily weights
   #.  Thrombocytopenia.:
   HIT neg and resolving thrombocytopenia.
   - Trend platelet count
   - consider sending DIC labs, though PTT remains normal
   FEN: NPO for now, plan to place NG today
   Prophylaxis:  Pneumoboots for DVT prophylaxis, PPI
   Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2190-4-8**] 09:23 PM
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2190-04-21 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2190-4-20**] 01:00 PM
 EKG - At [**2190-4-21**] 02:29 AM
   - LFT's increased to thousands, vori discontinued.
   - Patient became non-verbal overnight; was previously speaking in full
   sentences
   - Liver US with dopplers: Normal right lobe of the liver, limited view
   of the left lobe. No portal vein thrombosis. Echogenic kidneys are
   consistent with parenchymal disease.
   - Hepatology following, feel that ischemic/shock liver is likely, could
   also be due to voriconazole; had normal ammonia
   - NGT placed, tube feeds started
   - Neo started briefly for BP support, however became tachycardic and
   was discontinued.
   - received metoprolol today prior to HD.
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Voriconazole - [**2190-4-19**] 12:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2190-4-20**] 02:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-21**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 106 (82 - 114) bpm
   BP: 132/42(63) {100/26(42) - 155/126(133)} mmHg
   RR: 34 (31 - 38) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65.6 kg (admission): 65.5 kg
   Height: 61 Inch
             Total In:
                                                                  1,186 mL
                                                                    199 mL
   PO:
             TF:
                                                                    180 mL
                                                                    143 mL
   IVF:
                                                                    876 mL
                                                                     56 mL
   Blood products:
   Total out:
                                                                     30 mL
                                                                     10 mL
   Urine:
                                                                     30 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,156 mL
                                                                    189 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: 7.46/34/77.[**Numeric Identifier 143**]/23/0
   PaO2 / FiO2: 130
   Physical Examination
   General: Awake but non-verbal, tachypnic, opens eyes to command, does
   not move limbs to command.
   HEENT: Sclera anicteric, dry blood around mouth and nares
   Lungs: coarse BS, exp wheezes
   CV: distant heart sounds, Regular rate and rhythm, normal S1 + S2, no
   murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: cool extremities, anasarca
   Lines: left picc, right tunneled HD line
 no exudate, tenderness, or
   erythema surrounding lines.
   Labs / Radiology
   118 K/uL
   7.5 g/dL
   126 mg/dL
   2.4 mg/dL
   23 mEq/L
   3.7 mEq/L
   55 mg/dL
   105 mEq/L
   144 mEq/L
   22.9 %
   13.9 K/uL
        [image002.jpg]
                             [**2190-4-17**]  05:22 PM
                             [**2190-4-18**]  03:13 AM
                             [**2190-4-18**]  11:35 PM
                             [**2190-4-19**]  03:52 AM
                             [**2190-4-19**]  12:29 PM
                             [**2190-4-19**]  11:38 PM
                             [**2190-4-20**]  05:00 AM
                             [**2190-4-20**]  03:20 PM
                             [**2190-4-21**]  01:50 AM
                             [**2190-4-21**]  03:42 AM
   WBC
   27.9
   27.9
   14.2
   13.9
   Hct
   24.1
   25.9
   23.2
   22.9
   Plt
   121
   143
   99
   118
   Cr
   2.1
   2.6
   1.7
   2.1
   2.4
   TCO2
   29
   24
   28
   29
   25
   Glucose
   161
   110
   75
   130
   126
   Other labs: PT / PTT / INR:15.7/24.0/1.4, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:3098/1283, Alk Phos / T Bili:327/0.7,
   Differential-Neuts:83.1 %, Band:0.0 %, Lymph:13.9 %, Mono:1.9 %,
   Eos:0.5 %, D-dimer:5524 ng/mL, Fibrinogen:331 mg/dL, Lactic Acid:1.9
   mmol/L, Albumin:2.6 g/dL, LDH:675 IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.7 mg/dL
   Assessment and Plan
   This is a 81 yo f with HTN, HL, CHF, ESRD on HD, malnutrition, here
   with recurrent respiratory distress secondary to RLL lobar collapse
   (?TBM vs aspiration with mucous plugging vs HAP) now extubated.
   .
   #. Liver:
   Patient has had rising LFT
s with today in the thousands. Med effect
   vs. hypotensive/shock liver. Vori is discontinued, currently on
   liposomal amphoterocin. Will support pressures to keep SBP above 100.
   - hepatology following, improving LFT
   - liver US with dopplers
 Normal right lobe of the liver, limited view
   of the left lobe. No portal vein thrombosis. Echogenic kidneys are
   consistent with parenchymal disease.
   - ammonia nml
   - cont to trend LFT
s, decreasing well since acute elevation yesterday
   # AMS:
   Given timing with liver damage, likely related. [**Month (only) 51**] be encephalopathy
   vs. hypotension/hypoxia. CT scan negative.  Plan as above for liver.
   Continue to monitor for encephalopathy/signs of stroke.
   #.  Respiratory failure:
   Patient has recurrent lobar collapse with respiratory distress.
   Reportedly has TBM but left sided lesion is too distal to stent. Has
   positive glucan/galactomannan, and CT on [**4-14**] showing diffuse disease,
   possibly invasive aspergilliosis. Was started on oral voriconazole on
   [**2190-4-15**], but with elevated LFT
s to thousands today, vori is
   discontinued. Due to multiple respiratory problems, patient may
   ultimately require another intubation which she has stated she would
   want.  Will continue to remove fluid as possible with dialysis. Must
   also consider that some component of resp failure could be PE from
   known RUE DVT, though did not tolerate anticoagulation.  Improved
   respiratory status overall though today is tachypnic.  Now off
   steroids. CT sinus showing fluid in mastoids not concerning for
   invasive fungal disease there.
   - completed course for HAP with Vancomycin (D1 [**4-10**]) & cefepime (D1
   [**4-9**]), both d/c on [**4-17**]
   - discontinued Voriconazole (D1 was [**4-16**]) due to LFT elevation
   - cont liposomal ampho (D1 was [**4-20**])
   - f/u ID recs.
   - f/u cultures
   - f/u fever curve, wbc
   - albuterol/atrovent nebs
   - PT
   - monitor mental status today
   - failed speech and swallow eval.
   #. Anemia: Has been trending down. Not currently concerned for bleeding
   however will continue to monitor.
   - minimize phlebotomy
   - guaiac all stool
   #.  Leukocytosis:
   Trending down with tapering of steroid, currently off steroids, and
   ongoing ABx treatment.
   - s/p vanco/cefepime for HAP
   - discontinued vori (was for possible invasive aspergilliosis, and may
   start alternative in the future)
   - cont amphotericin
   - f/u cultures
   - weekly B-glucan, galactomannan
   - c.diff negative
   #. NSVT/Afib:
   Patient does have known pafib and appears to have had the episodes of
   NSVT coinciding with dialysis. Given 150mg amio x1 on [**4-12**] and
   continued on drip at 1 then 0.5 per hour. ectopy has improved. now off
   drip and letting patient auto-taper; would try to avoid amio especially
   given her tenuous pulmonary status. Attempted anticoagulation was not
   tolerated by patient due to epistaxis and IV site bleeding.  Received
   metoprolol today before HD
   - will clarify that patient should not receive BB on HD days,
   especially before HD.
   - consider midodrine before HD instead of BB
   - can restart amio and consider longer-term amio if ectopy returns
   #. HTN.  On nitropaste and amlodipine at home. Was on captopril and
   amlodipine here, however switched to single [**Doctor Last Name **] beta-blocker given
   concurrent rhythm issues.  In ICU has had very labile hypertensive
   blood pressure
   - will control on metoprolol on non-HD days
   - will avoid additional agents and focus on removing fluids during HD
   - Manage intravascular volume with HD and UF
   #. RUE DVT:
    DVT seen on U/S. Patient at risk for PE; however, was intolerant of
   anticoagulation.
   #. ESRD on HD:
   Patient has been on dialysis since recent colectomy.  Gets dialysis
   MWF.  Nephrology following.
   - ongoing UF dialysis, plan HD MWF
   - nephrocaps
   - f/u nephrology recs
   - daily weights
   #.  Thrombocytopenia.:
   HIT neg and resolving thrombocytopenia.
   - Trend platelet count
   - consider sending DIC labs, though PTT remains normal
   FEN: NPO for now, plan to place NG today
   Prophylaxis:  Pneumoboots for DVT prophylaxis, PPI
   Dispo: ICU
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2190-4-20**] 03:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2190-4-8**] 09:23 PM
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2190-04-22 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ID recs ambisome non renally dosed, cont ampho, no vori
   - Liver recs LFT trending down c/w ischemic hepatopathy, sign off
   - Renal HD -1.8L today, recs next HD 2d, cont epogen
   - consider midodrine before HD, DO NOT GIVE METOPROLOL on day of HD
   - PICC line not drawing back this AM, given tPA through line without
   good effect.
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2190-4-21**] 12:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-22**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 92 (67 - 118) bpm
   BP: 160/31(60) {92/21(44) - 167/115(124)} mmHg
   RR: 22 (22 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.5 kg
   Height: 61 Inch
             Total In:
                                                                  1,402 mL
                                                                    361 mL
   PO:
             TF:
                                                                    748 mL
                                                                    310 mL
   IVF:
                                                                    454 mL
                                                                     51 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  1,725 mL
                                                                      0 mL
   Urine:
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -323 mL
                                                                    361 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General: Awake but non-verbal, tachypnic, opens eyes to command, does
   not move limbs to command.
   HEENT: Sclera anicteric, dry blood around mouth and nares
   Lungs: coarse BS, exp wheezes
   CV: distant heart sounds, Regular rate and rhythm, normal S1 + S2, no
   murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: cool extremities, anasarca
   Lines: left picc, right tunneled HD line
 no exudate, tenderness, or
   erythema surrounding lines.
   Labs / Radiology
   107 K/uL
   6.9 g/dL
   153 mg/dL
   1.8 mg/dL
   27 mEq/L
   3.5 mEq/L
   33 mg/dL
   104 mEq/L
   142 mEq/L
   21.7 %
   10.6 K/uL
        [image002.jpg]
                             [**2190-4-18**]  03:13 AM
                             [**2190-4-18**]  11:35 PM
                             [**2190-4-19**]  03:52 AM
                             [**2190-4-19**]  12:29 PM
                             [**2190-4-19**]  11:38 PM
                             [**2190-4-20**]  05:00 AM
                             [**2190-4-20**]  03:20 PM
                             [**2190-4-21**]  01:50 AM
                             [**2190-4-21**]  03:42 AM
                             [**2190-4-22**]  03:51 AM
   WBC
   27.9
   27.9
   14.2
   13.9
   10.6
   Hct
   24.1
   25.9
   23.2
   22.9
   21.7
   Plt
   121
   143
   99
   118
   107
   Cr
   2.1
   2.6
   1.7
   2.1
   2.4
   1.8
   TCO2
   24
   28
   29
   25
   Glucose
   161
   110
   75
   130
   126
   153
   Other labs: PT / PTT / INR:15.7/24.0/1.4, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:1681/350, Alk Phos / T Bili:383/0.7,
   Differential-Neuts:81.1 %, Band:0.0 %, Lymph:15.3 %, Mono:2.1 %,
   Eos:1.2 %, D-dimer:5524 ng/mL, Fibrinogen:331 mg/dL, Lactic Acid:1.9
   mmol/L, Albumin:2.6 g/dL, LDH:565 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL,
   PO4:1.9 mg/dL
   Assessment and Plan
   This is a 81 yo f with HTN, HL, CHF, ESRD on HD, malnutrition, here
   with recurrent respiratory distress secondary to RLL lobar collapse
   (?TBM vs aspiration with mucous plugging vs HAP) now extubated.
   .
   #. Liver:
   Patient has had rising LFT
s with today in the thousands. Med effect
   vs. hypotensive/shock liver. Vori is discontinued, currently on
   liposomal amphoterocin. Will support pressures to keep SBP above 100.
   Downward trending LFT
s since period of hypotension.
   - Hepatology signed off.  LFT
s improving, likely related to ischemic
   liver
   - liver US with dopplers
 Normal right lobe of the liver, limited view
   of the left lobe. No portal vein thrombosis. Echogenic kidneys are
   consistent with parenchymal disease.
   - ammonia nml
   - cont to trend LFT
   # AMS:
   Given timing with liver damage, likely related. [**Month (only) 51**] be encephalopathy
   vs. hypotension/hypoxia. CT scan negative.  Plan as above for liver.
   Continue to monitor for encephalopathy/signs of stroke.
   #.  Respiratory failure:
   Patient has recurrent lobar collapse with respiratory distress.
   Reportedly has TBM but left sided lesion is too distal to stent. Has
   positive glucan/galactomannan, and CT on [**4-14**] showing diffuse disease,
   possibly invasive aspergilliosis. Was started on oral voriconazole on
   [**2190-4-15**], but with elevated LFT
s to thousands today, vori is
   discontinued. Due to multiple respiratory problems, patient may
   ultimately require another intubation which she has stated she would
   want.  Will continue to remove fluid as possible with dialysis. Must
   also consider that some component of resp failure could be PE from
   known RUE DVT, though did not tolerate anticoagulation.  Improved
   respiratory status overall though today is tachypnic.  Now off
   steroids. CT sinus showing fluid in mastoids not concerning for
   invasive fungal disease there.
   - completed course for HAP with Vancomycin (D1 [**4-10**]) & cefepime (D1
   [**4-9**]), both d/c on [**4-17**]
   - discontinued Voriconazole (D1 was [**4-16**]) due to LFT elevation
   - cont liposomal ampho (D1 was [**4-20**])
   - f/u ID recs, cultures, fever curve, wbc
   - albuterol/atrovent nebs
   - PT
   - failed speech and swallow eval.
   #. Anemia: Has been trending down. Not currently concerned for bleeding
   however will continue to monitor.
   - minimize phlebotomy
   - will plan to transfuse 1u PRBC with HD tomorrow
   - Iron studies
   #.  Leukocytosis:
   Trending down off steroids and ongoing ABx treatment.  Peak WBC had
   been 28, currently 11.
   - s/p vanco/cefepime for HAP
   - discontinued vori (was for possible invasive aspergilliosis, and may
   start alternative in the future)
   - cont amphotericin
   - f/u cultures
   - weekly B-glucan, galactomannan
   - c.diff negative
   #. NSVT/Afib:
   Patient does have known pafib and appears to have had the episodes of
   NSVT coinciding with dialysis. Given 150mg amio x1 on [**4-12**] and
   continued on drip at 1 then 0.5 per hour. ectopy has improved. now off
   drip and letting patient auto-taper; would try to avoid amio especially
   given her tenuous pulmonary status. Attempted anticoagulation was not
   tolerated by patient due to epistaxis and IV site bleeding.  Received
   metoprolol today before HD
   - will clarify that patient should not receive BB on HD days,
   especially before HD.
   - plan to hold metoprolol 6hrs before HD, hold if SBP<120, hold 8am
   dose
   - consider midodrine 10mg before HD if SBP<120
   - can restart amio and consider longer-term amio if ectopy returns
   #. HTN/Hypotension.  On nitropaste and amlodipine at home. Was on
   captopril and amlodipine here, however switched to single [**Doctor Last Name **]
   beta-blocker given concurrent rhythm issues.  In ICU has had very
   labile hypertensive blood pressure
   - will control on metoprolol on non-HD days as per above
   - Manage intravascular volume with HD and UF
   #. RUE DVT:
    DVT seen on U/S. Patient at risk for PE; however, was intolerant of
   anticoagulation.
   #. ESRD on HD:
   Patient has been on dialysis since recent colectomy.  Gets dialysis
   MWF.  Nephrology following.
   - ongoing UF dialysis, plan HD MWF
   - nephrocaps
   - f/u nephrology recs
   - daily weights
   #.  Thrombocytopenia.:  Resolved.  HIT neg and resolving
   thrombocytopenia.  Daily CBC
   FEN: TF through NGT
   Prophylaxis:  Pneumoboots for DVT prophylaxis, PPI, stooling
   Code: Full
   Access: PICC
 not drawing back today, will plan possible IR rewire if
   needed.
   Dispo: ICU for now, will plan for acute care facility likely Monday
   morning [**4-26**].
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2190-4-22**] 01:47 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2190-4-8**] 09:23 PM
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-04-23 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Renal rec rule-out of GI blood loss, check of iron panel, epo at HD
   - Voriconazole level still pending
   - Repeat aspergillus galactamannan antigen returned as negative
   - Repeat B-glucan assay returned positive at >500 pg/mL
   - ID would like to continue ambisome for now and consider rechallenge
   with voriconazole if LFTs normalize
   - Planning on 1 U PRBC with HD today
   - Had a guaiac positive stool
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Ambisome - [**2190-4-22**] 08:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2190-4-22**] 10:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-23**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 84 (67 - 96) bpm
   BP: 115/34(51) {106/23(47) - 161/125(133)} mmHg
   RR: 20 (19 - 39) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.5 kg
   Height: 61 Inch
             Total In:
                                                                  1,561 mL
                                                                    350 mL
   PO:
             TF:
                                                                    963 mL
                                                                    295 mL
   IVF:
                                                                    338 mL
                                                                     55 mL
   Blood products:
   Total out:
                                                                    360 mL
                                                                     25 mL
   Urine:
                                                                     30 mL
                                                                     25 mL
   NG:
                                                                     80 mL
   Stool:
   Drains:
   Balance:
                                                                  1,201 mL
                                                                    325 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General: Awake but non-verbal, tachypnic, opens eyes to command, does
   not move limbs to command.
   HEENT: Sclera anicteric, dry blood around mouth and nares
   Lungs: coarse BS, exp wheezes
   CV: distant heart sounds, Regular rate and rhythm, normal S1 + S2, no
   murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: cool extremities, anasarca
   Lines: left picc, right tunneled HD line
 no exudate, tenderness, or
   erythema surrounding lines.
   Labs / Radiology
   93 K/uL
   6.8 g/dL
   150 mg/dL
   2.4 mg/dL
   26 mEq/L
   4.1 mEq/L
   50 mg/dL
   104 mEq/L
   139 mEq/L
   21.4 %
   13.5 K/uL
        [image002.jpg]
                             [**2190-4-18**]  11:35 PM
                             [**2190-4-19**]  03:52 AM
                             [**2190-4-19**]  12:29 PM
                             [**2190-4-19**]  11:38 PM
                             [**2190-4-20**]  05:00 AM
                             [**2190-4-20**]  03:20 PM
                             [**2190-4-21**]  01:50 AM
                             [**2190-4-21**]  03:42 AM
                             [**2190-4-22**]  03:51 AM
                             [**2190-4-23**]  04:15 AM
   WBC
   27.9
   14.2
   13.9
   10.6
   13.5
   Hct
   25.9
   23.2
   22.9
   21.7
   21.4
   Plt
   143
   99
   118
   107
   93
   Cr
   2.6
   1.7
   2.1
   2.4
   1.8
   2.4
   TCO2
   24
   28
   29
   25
   Glucose
   110
   75
   130
   126
   153
   150
   Other labs: PT / PTT / INR:12.8/23.0/1.1, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:1018/115, Alk Phos / T Bili:408/0.5,
   Differential-Neuts:81.9 %, Band:0.0 %, Lymph:14.2 %, Mono:2.3 %,
   Eos:1.1 %, D-dimer:5524 ng/mL, Fibrinogen:331 mg/dL, Lactic Acid:1.9
   mmol/L, Albumin:2.7 g/dL, LDH:512 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL,
   PO4:1.7 mg/dL
   Assessment and Plan
   This is a 81 yo f with HTN, HL, CHF, ESRD on HD, malnutrition, here
   with recurrent respiratory distress secondary to RLL lobar collapse
   (?TBM vs aspiration with mucous plugging vs HAP) now extubated.
   .
   #.  Respiratory failure:
   Patient has recurrent lobar collapse with respiratory distress.
   Reportedly has TBM but left sided lesion is too distal to stent. Has
   positive glucan/galactomannan, and CT on [**4-14**] showing diffuse disease,
   possibly invasive aspergilliosis. Was started on oral voriconazole on
   [**2190-4-15**], but with elevated LFT
s to thousands; vori is discontinued.
   Due to multiple respiratory problems, patient may ultimately require
   another intubation which she has stated she would want.  Will continue
   to remove fluid as possible with dialysis. Must also consider that some
   component of resp failure could be PE from known RUE DVT, though did
   not tolerate anticoagulation.  Tenuous respiratory status overall today
   and is visibly tired and tachypnic.  Now off steroids. CT sinus showing
   fluid in mastoids not concerning for invasive fungal disease there.
   - completed course for HAP with Vancomycin (D1 [**4-10**]) & cefepime (D1
   [**4-9**]), both d/c on [**4-17**]
   - discontinued Voriconazole (D1 was [**4-16**]) due to LFT elevation
   - cont liposomal ampho (D1 was [**4-20**])
   - f/u ID recs, cultures, fever curve, wbc
   - albuterol/atrovent nebs
   - PT
   - failed speech and swallow eval.
   - consider non-invasive ventilation
   - resend ABG
   - consider repeat CT, though patient would not be able to tolerate the
   study at this time.
   #. NSVT/Afib:
   Patient does have known pafib and appears to have had the episodes of
   NSVT coinciding with dialysis. Given 150mg amio x1 on [**4-12**] and
   continued on drip at 1 then 0.5 per hour. ectopy has improved. now off
   drip and letting patient auto-taper; would try to avoid amio especially
   given her tenuous pulmonary status. Attempted anticoagulation was not
   tolerated by patient due to epistaxis and IV site bleeding.  Did not
   receive metoprolol today before HD
   - will plan for beta-blocker after HD to control afib
   - cont plan to hold metoprolol 6hrs before HD, hold if SBP<120, hold
   8am dose
   - consider midodrine 10mg before HD if SBP<120
   - can restart amio and consider longer-term amio if ectopy returns
   #. HTN/Hypotension.  On nitropaste and amlodipine at home. Was on
   captopril and amlodipine here, however switched to single [**Doctor Last Name **]
   beta-blocker given concurrent rhythm issues.  In ICU has had very
   labile hypertensive blood pressure but is hypotensive today
   - will control on metoprolol on non-HD days as per above
   - restart neo to maintain perfusion
   - replace a-line
   - Manage intravascular volume with HD and UF
   #. Liver:
   Patient has had rising LFT
s with peak in the thousands. Med effect vs.
   hypotensive/shock liver. Vori is discontinued, currently on liposomal
   amphoterocin. Will support pressures to keep SBP above 100.  Downward
   trending LFT
s since period of hypotension.
   - Hepatology signed off.  LFT
s improving, likely related to ischemic
   liver
   - liver US with dopplers
 Normal right lobe of the liver, limited view
   of the left lobe. No portal vein thrombosis. Echogenic kidneys are
   consistent with parenchymal disease.
   - ammonia nml
   - cont to trend LFT
   # AMS:
   Given timing with liver damage, likely related. [**Month (only) 51**] be encephalopathy
   vs. hypotension/hypoxia. CT scan negative.  Plan as above for liver.
   Continue to monitor for encephalopathy/signs of stroke.
   #. Anemia: Has been trending down. Not currently concerned for bleeding
   however will continue to monitor.
   - minimize phlebotomy
   - will plan to transfuse 1u PRBC with HD
   #.  Leukocytosis:
   Trending down off steroids and ongoing ABx treatment.  Peak WBC had
   been 28, currently 11.
   - s/p vanco/cefepime for HAP
   - discontinued vori (was for possible invasive aspergilliosis, and may
   start alternative in the future)
   - cont amphotericin
   - f/u cultures
   - weekly B-glucan, galactomannan
   - c.diff negative
   - could restart vori for long-term treatment of aspergilliosis
   #. RUE DVT:
    DVT seen on U/S. Patient at risk for PE; however, was intolerant of
   anticoagulation.
   #. ESRD on HD:
   Patient has been on dialysis since recent colectomy.  Gets dialysis
   MWF.  Nephrology following.
   - ongoing UF dialysis, plan HD MWF
   - nephrocaps
   - f/u nephrology recs
   - daily weights
   #.  Thrombocytopenia.:  Stable.  HIT neg and resolving
   thrombocytopenia.  Daily CBC
   FEN: TF through NGT
   Prophylaxis:  Pneumoboots for DVT prophylaxis, PPI, stooling
   Code: Full
   Access: PICC.
   Dispo: ICU for now, with plan for acute care facility after ICU.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2190-4-23**] 01:36 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2190-4-8**] 09:23 PM
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-04-24 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - During HD, patient became hypotensive and had increased HR to 150's.
   Was given back approximately 700cc but still had net 1500cc removed
   during HD.
   - Levophed was breifly started however after placement of A-line, BP
   was recorded in 130's and Levophed discontinued.
   - Patient was hyperventilating and appeared tired so was placed on mask
   ventilation PSV 15, PEEP 5 during the afternoon which she responded
   well to.
 ARTERIAL LINE - START [**2190-4-23**] 12:00 PM
   WNL
 NON-INVASIVE VENTILATION - START [**2190-4-23**] 01:33 PM
 NON-INVASIVE VENTILATION - STOP [**2190-4-23**] 05:00 PM
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Ambisome - [**2190-4-23**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-24**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.2
C (95.3
   HR: 78 (74 - 97) bpm
   BP: 132/41(69) {107/35(54) - 181/73(91)} mmHg
   RR: 26 (20 - 47) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.5 kg
   Height: 61 Inch
                  Total In:
                                                                    961 mL
                  PO:
                  TF:
                                                                    564 mL
   IVF:
                                                                    287 mL
   Blood products:
   Total out:
                                                                    883 mL
                                                                     50 mL
   Urine:
                                                                     33 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     78 mL
                                                                    -50 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 562 (562 - 602) mL
   PS : 10 cmH2O
   RR (Spontaneous): 37
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.41/50/126/27/6
   Ve: 9.6 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General: Awake but non-verbal, tachypnic, opens eyes to command, does
   not move limbs to command.
   HEENT: Sclera anicteric, dry blood around mouth and nares
   Lungs: coarse BS, exp wheezes
   CV: distant heart sounds, Regular rate and rhythm, normal S1 + S2, no
   murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: cool extremities, anasarca
   Lines: left picc, right tunneled HD line
 no exudate, tenderness, or
   erythema surrounding lines.
   Labs / Radiology
   60 K/uL
   8.6 g/dL
   115 mg/dL
   1.7 mg/dL
   27 mEq/L
   3.9 mEq/L
   30 mg/dL
   102 mEq/L
   140 mEq/L
   26.8 %
   16.4 K/uL
        [image002.jpg]
                             [**2190-4-21**]  01:50 AM
                             [**2190-4-21**]  03:42 AM
                             [**2190-4-22**]  03:51 AM
                             [**2190-4-23**]  04:15 AM
                             [**2190-4-23**]  09:20 AM
                             [**2190-4-23**]  12:50 PM
                             [**2190-4-23**]  12:52 PM
                             [**2190-4-23**]  02:28 PM
                             [**2190-4-23**]  11:26 PM
                             [**2190-4-24**]  05:06 AM
   WBC
   13.9
   10.6
   13.5
   16.4
   Hct
   22.9
   21.7
   21.4
   26.8
   Plt
   118
   107
   93
   60
   Cr
   2.4
   1.8
   2.4
   1.9
   0.6
   1.7
   TCO2
   25
   28
   26
   33
   Glucose
   126
   153
   150
   115
   Other labs: PT / PTT / INR:14.0/24.7/1.2, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:598/74, Alk Phos / T Bili:339/0.9,
   Differential-Neuts:81.9 %, Band:0.0 %, Lymph:14.2 %, Mono:2.3 %,
   Eos:1.1 %, D-dimer:5524 ng/mL, Fibrinogen:331 mg/dL, Lactic Acid:1.9
   mmol/L, Albumin:2.7 g/dL, LDH:512 IU/L, Ca++:8.8 mg/dL, Mg++:1.5 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
   This is a 81 yo f with HTN, HL, CHF, ESRD on HD, malnutrition, here
   with recurrent respiratory distress secondary to RLL lobar collapse
   (?TBM vs aspiration with mucous plugging vs HAP) now extubated.
   .
   #.  Respiratory failure:
   Patient has recurrent lobar collapse with respiratory distress.
   Reportedly has TBM but left sided lesion is too distal to stent. Has
   positive glucan/galactomannan, and CT on [**4-14**] showing diffuse disease,
   possibly invasive aspergilliosis. Was started on oral voriconazole on
   [**2190-4-15**], but with elevated LFT
s to thousands; vori was discontinued.
   Due to multiple respiratory problems, patient may ultimately require
   another intubation which she has stated she would want.  Will continue
   to remove fluid as possible with dialysis. Must also consider that some
   component of resp failure could be PE from known RUE DVT, though did
   not tolerate anticoagulation.  Tenuous respiratory status overall today
   and is visibly tired and tachypnic.  Now off steroids. CT sinus showing
   fluid in mastoids not concerning for invasive fungal disease there. Did
   benefit from periodic BIPAP yesterday. Has new MRSA growing in sputum.
   - completed course for HAP with Vancomycin (D1 [**4-10**]) & cefepime (D1
   [**4-9**]), both d/c
d on [**4-17**]
   - gave vanc dose for MRSA in sputum, this will last until dialysis
   Monday, check vanc level. Will need to decide over the weekend whether
   to commit to another course of vanc
   - initially discontinued Voriconazole (D1 was [**4-16**]) due to LFT elevation
   now LFT
s normal and will restart vori today ([**4-24**], see below)
   - d/c liposomal ampho (D1 was [**4-20**])
   - f/u ID recs, cultures, fever curve, wbc
   - albuterol/atrovent nebs
   - PT
   - failed speech and swallow eval.
   - consider non-invasive ventilation, CPAP today at 5 and can go up as
   needed
   - resend ABG
   - consider repeat CT, though patient would not be able to tolerate the
   study at this time.
   #.  Thrombocytopenia.:  Dropped today.  HIT neg. Possibly due to
   Amphoterocin.
   - Discontinue amphoterocin and restart vori as LFT
s have improved.
   - cont to monitor
   #. NSVT/Afib:
   Patient does have known pafib and appears to have had the episodes of
   NSVT coinciding with dialysis. Given 150mg amio x1 on [**4-12**] and
   continued on drip at 1 then 0.5 per hour. ectopy has improved. now off
   drip and letting patient auto-taper; would try to avoid amio especially
   given her tenuous pulmonary status. Attempted anticoagulation was not
   tolerated by patient due to epistaxis and IV site bleeding.  Did not
   receive metoprolol on [**4-23**] before HD
   - will plan for beta-blocker as needed after HD to control afib
   - cont plan to hold metoprolol 6hrs before HD, hold if SBP<120, hold
   8am dose
   - midodrine 10mg before HD if SBP<120
   - can restart amio and consider longer-term amio if ectopy returns
   #. HTN/Hypotension.  On nitropaste and amlodipine at home. Was on
   captopril and amlodipine here, however switched to single [**Doctor Last Name **]
   beta-blocker given concurrent rhythm issues.  In ICU has had very
   labile hypertensive blood pressure but is hypotensive
   today/normotensive today
   - will control on metoprolol as needed on non-HD days as per above
   - can restart neo as needed to maintain perfusion
   - maintain a-line for now
   - Manage intravascular volume with HD and UF
   #. Liver:
   Patient has had rising LFT
s with peak in the thousands. Med effect vs.
   hypotensive/shock liver. Vori was discontinued, and liposomal
   amphoterocin started. Will cont to support pressures to keep SBP above
   100.  Downward trending LFT
s since period of hypotension.  Now today
   has low platlets, concerning for Amphoterocin effect
   - Hepatology signed off.  LFT
s improving, likely related to ischemic
   liver
   - liver US with dopplers
 Normal right lobe of the liver, limited view
   of the left lobe. No portal vein thrombosis. Echogenic kidneys are
   consistent with parenchymal disease.
   - ammonia nml
   - cont to trend LFT
   - discontinue amphoterocin and restart vori due to concern for low
   platlets, now that LFT
s are improving vori is restarted
   # AMS:
   Given timing with liver damage, likely related. [**Month (only) 51**] be encephalopathy
   vs. hypotension/hypoxia. CT scan negative.  Plan as above for liver.
   Continue to monitor for encephalopathy/signs of stroke.
   #. Anemia: Has been trending down. Not currently concerned for bleeding
   however will continue to monitor. Transfused 1u PRBC with HD on [**4-23**].
   - minimize phlebotomy
   #.  Leukocytosis:
   Trending down off steroids and ongoing ABx treatment.  Peak WBC had
   been 28. c.diff negative
   - s/p vanco/cefepime for HAP
   - back on vori (for possible invasive aspergilliosis)
   - discontinue amphotericin
   - f/u cultures
   - weekly B-glucan, galactomannan
   #. RUE DVT:
    DVT seen on U/S. Patient at risk for PE; however, was intolerant of
   anticoagulation.
   #. ESRD on HD:
   Patient has been on dialysis since recent colectomy.  Gets dialysis
   MWF.  Nephrology following.
   - ongoing UF dialysis, plan HD MWF
   - nephrocaps
   - f/u nephrology recs
   - daily weights
   - d/c foley as does not make significant urine
   FEN: TF through NGT
   Prophylaxis:  Pneumoboots for DVT prophylaxis, PPI, stooling
   Code: Full
   Access: PICC.
   Dispo: ICU for now, with plan for acute care facility after ICU.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2190-4-8**] 09:23 PM
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Arterial Line - [**2190-4-23**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-04-24 08:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 ARTERIAL LINE - START [**2190-4-23**] 12:00 PM
   WNL
 NON-INVASIVE VENTILATION - START [**2190-4-23**] 01:33 PM
 NON-INVASIVE VENTILATION - STOP [**2190-4-23**] 05:00 PM
   Hypotensive during HD, briefly on pressors
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Ambisome - [**2190-4-23**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-24**] 08:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.2
C (95.3
   HR: 78 (74 - 97) bpm
   BP: 132/41(69) {107/35(54) - 181/73(91)} mmHg
   RR: 26 (20 - 47) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.5 kg
   Height: 61 Inch
                  Total In:
                                                                    961 mL
                  PO:
                  TF:
                                                                    564 mL
   IVF:
                                                                    287 mL
   Blood products:
   Total out:
                                                                    883 mL
                                                                     50 mL
   Urine:
                                                                     33 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     78 mL
                                                                    -50 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: BIPAP
   Vt (Spontaneous): 562 (562 - 602) mL
   PS : 10 cmH2O
   RR (Spontaneous): 37
   PEEP: 5 cmH2O
   Now on 50% Pox 93%
   FiO2: 70%
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.41/50/126/27/6
   Ve: 9.6 L/min
   PaO2 / FiO2: 210
   Physical Examination
   Awake, responsive
   Lungs bronchial bs
s in bases
   Rrr
   Abd obese
   Labs / Radiology
   8.6 g/dL
   60 K/uL
   115 mg/dL
   1.7 mg/dL
   27 mEq/L
   3.9 mEq/L
   30 mg/dL
   102 mEq/L
   140 mEq/L
   26.8 %
   16.4 K/uL
        [image002.jpg]
                             [**2190-4-21**]  01:50 AM
                             [**2190-4-21**]  03:42 AM
                             [**2190-4-22**]  03:51 AM
                             [**2190-4-23**]  04:15 AM
                             [**2190-4-23**]  09:20 AM
                             [**2190-4-23**]  12:50 PM
                             [**2190-4-23**]  12:52 PM
                             [**2190-4-23**]  02:28 PM
                             [**2190-4-23**]  11:26 PM
                             [**2190-4-24**]  05:06 AM
   WBC
   13.9
   10.6
   13.5
   16.4
   Hct
   22.9
   21.7
   21.4
   26.8
   Plt
   118
   107
   93
   60
   Cr
   2.4
   1.8
   2.4
   1.9
   0.6
   1.7
   TCO2
   25
   28
   26
   33
   Glucose
   126
   153
   150
   115
   Other labs: PT / PTT / INR:14.0/24.7/1.2, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:598/74, Alk Phos / T Bili:339/0.9,
   Differential-Neuts:81.9 %, Band:0.0 %, Lymph:14.2 %, Mono:2.3 %,
   Eos:1.1 %, D-dimer:5524 ng/mL, Fibrinogen:331 mg/dL, Lactic Acid:1.9
   mmol/L, Albumin:2.7 g/dL, LDH:512 IU/L, Ca++:8.8 mg/dL, Mg++:1.5 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
 hypotension
 improved, follow BP

 LIVER FUNCTION ABNORMALITIES  - improving, seems to be ischemic in
   origin, will return to vori
 thrombocytopenia
 follow off of ampho
    DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 unable to
   anti-coagulate
 RESPIRATORY distress
 related to lower lobe volume loss, ? invasive
   aspergillus infection, staph in sputum
 received vanco last night,
   continue CPAP, return to voriconazole
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 continue HD, hold
   anti-hypertensives on HD days
   Anemia
 transfused yesterday
   ICU Care
   Nutrition: TF
   Glycemic Control:
   Lines:
   PICC Line - [**2190-4-8**] 09:23 PM
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Arterial Line - [**2190-4-23**] 12:00 PM
   Prophylaxis:
   DVT:   pneumoboots
   Stress ulcer:   ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent:    36

2190-04-25 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ID recs okay to switch to voriconazole, started vori at 300mg q12
   - d/c ampho
   - Sputum cx [**4-21**] MRSA [**Last Name (un) 270**] vanco/bactrim
   - Tube feeds cont
   - CPAP 5 -> 8
   - Phenylephrine started for low SBP at 2pm
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Ambisome - [**2190-4-23**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-25**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.6
C (96
   HR: 89 (77 - 100) bpm
   BP: 124/43(65) {108/33(53) - 143/56(84)} mmHg
   RR: 23 (19 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.5 kg
   Height: 61 Inch
                  Total In:
                                                                    546 mL
                                                                    301 mL
   PO:
                  TF:
                                                                    486 mL
                                                                    301 mL
   IVF:
   Blood products:
   Total out:
                                                                     60 mL
                                                                      0 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    486 mL
                                                                    301 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,861 (431 - 1,861) mL
   PS : 10 cmH2O
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 70%
   PIP: 0 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 6 L/min
   Physical Examination
   General: Awake but non-verbal, tachypnic, opens eyes to command, does
   not move limbs to command.
   HEENT: Sclera anicteric, dry blood around mouth and nares
   Lungs: coarse BS, exp wheezes
   CV: distant heart sounds, Regular rate and rhythm, normal S1 + S2, no
   murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: cool extremities, anasarca
   Lines: left picc, right tunneled HD line
 no exudate, tenderness, or
   erythema surrounding lines.
   Labs / Radiology
   55 K/uL
   8.8 g/dL
   172 mg/dL
   2.5 mg/dL
   26 mEq/L
   4.3 mEq/L
   44 mg/dL
   102 mEq/L
   141 mEq/L
   26.9 %
   15.0 K/uL
        [image002.jpg]
                             [**2190-4-21**]  03:42 AM
                             [**2190-4-22**]  03:51 AM
                             [**2190-4-23**]  04:15 AM
                             [**2190-4-23**]  09:20 AM
                             [**2190-4-23**]  12:50 PM
                             [**2190-4-23**]  12:52 PM
                             [**2190-4-23**]  02:28 PM
                             [**2190-4-23**]  11:26 PM
                             [**2190-4-24**]  05:06 AM
                             [**2190-4-25**]  03:41 AM
   WBC
   13.9
   10.6
   13.5
   16.4
   15.0
   Hct
   22.9
   21.7
   21.4
   26.8
   26.9
   Plt
   118
   107
   93
   60
   55
   Cr
   2.4
   1.8
   2.4
   1.9
   0.6
   1.7
   2.5
   TCO2
   28
   26
   33
   Glucose
   126
   153
   150
   115
   172
   Other labs: PT / PTT / INR:13.4/24.2/1.1, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:410/60, Alk Phos / T Bili:416/0.6,
   Differential-Neuts:81.9 %, Band:0.0 %, Lymph:14.2 %, Mono:2.3 %,
   Eos:1.1 %, D-dimer:5524 ng/mL, Fibrinogen:331 mg/dL, Lactic Acid:1.9
   mmol/L, Albumin:2.7 g/dL, LDH:546 IU/L, Ca++:9.3 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
   81 yo f with HTN, HL, CHF, ESRD on HD, malnutrition, here with
   recurrent respiratory distress secondary to RLL lobar collapse (?TBM vs
   aspiration with mucous plugging vs HAP) now extubated.
   .
   #.  Respiratory failure:
   Patient has recurrent lobar collapse with respiratory distress.
   Reportedly has TBM but left sided lesion is too distal to stent. Has
   positive glucan/galactomannan, and CT on [**4-14**] showing diffuse disease,
   possibly invasive aspergilliosis. Was started on oral voriconazole on
   [**2190-4-15**], but with elevated LFT
s to thousands; vori was discontinued.
   Due to multiple respiratory problems, patient may ultimately require
   another intubation which she has stated she would want.  Will continue
   to remove fluid as possible with dialysis. Must also consider that some
   component of resp failure could be PE from known RUE DVT, though did
   not tolerate anticoagulation.  Tenuous respiratory status overall today
   and is visibly tired and tachypnic.  Now off steroids. CT sinus showing
   fluid in mastoids not concerning for invasive fungal disease there. Did
   benefit from periodic BIPAP yesterday. Has new MRSA growing in sputum.
   - completed course for HAP with Vancomycin (D1 [**4-10**]) & cefepime (D1
   [**4-9**]), both d/c
d on [**4-17**]
   - gave vanc dose for MRSA in sputum, this will last until dialysis
   Monday, check vanc level. Will need to decide over the weekend whether
   to commit to another course of vanc
   - initially discontinued Voriconazole (D1 was [**4-16**]) due to LFT elevation
   now LFT
s normal and will restart vori today ([**4-24**], see below)
   - d/c liposomal ampho (D1 was [**4-20**])
   - f/u ID recs, cultures, fever curve, wbc
   - albuterol/atrovent nebs
   - PT
   - failed speech and swallow eval.
   - consider non-invasive ventilation, CPAP today at 5 and can go up as
   needed
   - resend ABG
   - consider repeat CT, though patient would not be able to tolerate the
   study at this time.
   #.  Thrombocytopenia.:  Dropped today.  HIT neg. Possibly due to
   Amphoterocin.
   - Discontinue amphoterocin and restart vori as LFT
s have improved.
   - cont to monitor
   #. NSVT/Afib:
   Patient does have known pafib and appears to have had the episodes of
   NSVT coinciding with dialysis. Given 150mg amio x1 on [**4-12**] and
   continued on drip at 1 then 0.5 per hour. ectopy has improved. now off
   drip and letting patient auto-taper; would try to avoid amio especially
   given her tenuous pulmonary status. Attempted anticoagulation was not
   tolerated by patient due to epistaxis and IV site bleeding.  Did not
   receive metoprolol on [**4-23**] before HD
   - will plan for beta-blocker as needed after HD to control afib
   - cont plan to hold metoprolol 6hrs before HD, hold if SBP<120, hold
   8am dose
   - midodrine 10mg before HD if SBP<120
   - can restart amio and consider longer-term amio if ectopy returns
   #. HTN/Hypotension.  On nitropaste and amlodipine at home. Was on
   captopril and amlodipine here, however switched to single [**Doctor Last Name **]
   beta-blocker given concurrent rhythm issues.  In ICU has had very
   labile hypertensive blood pressure but is hypotensive
   today/normotensive today
   - will control on metoprolol as needed on non-HD days as per above
   - can restart neo as needed to maintain perfusion
   - maintain a-line for now
   - Manage intravascular volume with HD and UF
   #. Liver:
   Patient has had rising LFT
s with peak in the thousands. Med effect vs.
   hypotensive/shock liver. Vori was discontinued, and liposomal
   amphoterocin started. Will cont to support pressures to keep SBP above
   100.  Downward trending LFT
s since period of hypotension.  Now today
   has low platlets, concerning for Amphoterocin effect
   - Hepatology signed off.  LFT
s improving, likely related to ischemic
   liver
   - liver US with dopplers
 Normal right lobe of the liver, limited view
   of the left lobe. No portal vein thrombosis. Echogenic kidneys are
   consistent with parenchymal disease.
   - ammonia nml
   - cont to trend LFT
   - discontinue amphoterocin and restart vori due to concern for low
   platlets, now that LFT
s are improving vori is restarted
   # AMS:
   Given timing with liver damage, likely related. [**Month (only) 51**] be encephalopathy
   vs. hypotension/hypoxia. CT scan negative.  Plan as above for liver.
   Continue to monitor for encephalopathy/signs of stroke.
   #. Anemia: Has been trending down. Not currently concerned for bleeding
   however will continue to monitor. Transfused 1u PRBC with HD on [**4-23**].
   - minimize phlebotomy
   #.  Leukocytosis:
   Trending down off steroids and ongoing ABx treatment.  Peak WBC had
   been 28. c.diff negative
   - s/p vanco/cefepime for HAP
   - back on vori (for possible invasive aspergilliosis)
   - discontinue amphotericin
   - f/u cultures
   - weekly B-glucan, galactomannan
   #. RUE DVT:
    DVT seen on U/S. Patient at risk for PE; however, was intolerant of
   anticoagulation.
   #. ESRD on HD:
   Patient has been on dialysis since recent colectomy.  Gets dialysis
   MWF.  Nephrology following.
   - ongoing UF dialysis, plan HD MWF
   - nephrocaps
   - f/u nephrology recs
   - daily weights
   - d/c foley as does not make significant urine
   FEN: TF through NGT
   Prophylaxis:  Pneumoboots for DVT prophylaxis, PPI, stooling
   Code: Full
   Access: PICC.
   Dispo: ICU for now, with plan for acute care facility after ICU.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2190-4-25**] 12:19 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2190-4-8**] 09:23 PM
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Arterial Line - [**2190-4-23**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-04-25 08:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Voriconazole restarted
   Off/on CPAP
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Ambisome - [**2190-4-23**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-25**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.6
C (96
   HR: 89 (77 - 100) bpm
   BP: 124/43(65) {108/33(53) - 143/56(84)} mmHg
   RR: 23 (19 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.5 kg
   Height: 61 Inch
                  Total In:
                                                                    546 mL
                                                                    324 mL
   PO:
                  TF:
                                                                    486 mL
                                                                    324 mL
   IVF:
   Blood products:
   Total out:
                                                                     60 mL
                                                                      0 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    486 mL
                                                                    324 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,861 (431 - 1,861) mL
   PS : 10 cmH2O
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 70%
   PIP: 0 cmH2O
   SpO2: 99%
   ABG: 7.38/49/107/26/2
   Ve: 6 L/min
   PaO2 / FiO2: 178
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   55 K/uL
   172 mg/dL
   2.5 mg/dL
   26 mEq/L
   4.3 mEq/L
   44 mg/dL
   102 mEq/L
   141 mEq/L
   26.9 %
   15.0 K/uL
        [image002.jpg]
                             [**2190-4-22**]  03:51 AM
                             [**2190-4-23**]  04:15 AM
                             [**2190-4-23**]  09:20 AM
                             [**2190-4-23**]  12:50 PM
                             [**2190-4-23**]  12:52 PM
                             [**2190-4-23**]  02:28 PM
                             [**2190-4-23**]  11:26 PM
                             [**2190-4-24**]  05:06 AM
                             [**2190-4-25**]  03:41 AM
                             [**2190-4-25**]  07:47 AM
   WBC
   10.6
   13.5
   16.4
   15.0
   Hct
   21.7
   21.4
   26.8
   26.9
   Plt
   107
   93
   60
   55
   Cr
   1.8
   2.4
   1.9
   0.6
   1.7
   2.5
   TCO2
   28
   26
   33
   30
   Glucose
   153
   150
   115
   172
   Other labs: PT / PTT / INR:13.4/24.2/1.1, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:410/60, Alk Phos / T Bili:416/0.6,
   Differential-Neuts:81.9 %, Band:0.0 %, Lymph:14.2 %, Mono:2.3 %,
   Eos:1.1 %, D-dimer:5524 ng/mL, Fibrinogen:331 mg/dL, Lactic Acid:1.9
   mmol/L, Albumin:2.7 g/dL, LDH:546 IU/L, Ca++:9.3 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.8 mg/dL
   CXR bibasilar volume loss, stable
   Assessment and Plan
 hypotension
 improved, follow BP

 LIVER FUNCTION ABNORMALITIES  - improving, seems to be ischemic in
   origin, thus far tolerating vori
 thrombocytopenia
 follow off of ampho, ? consumptive
    DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 unable to
   anti-coagulate
 RESPIRATORY distress
 related to lower lobe volume loss, ? invasive
   aspergillus infection - returned to voriconazole yesterday, staph in
   sputum
 received vanco 2 days ago, continue CPAP as needed, wean O2 as
   tolerated
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 continue HD, hold
   anti-hypertensives on HD days
   Anemia
 transfused 2 days ago, now stable
   PAF
 lopressor as needed
   ICU Care
   Nutrition:  TFs
   Nutren 2.0 (Full) - [**2190-4-25**] 12:19 AM 40 mL/hour
   Glycemic Control:   SSI
   Lines:
   PICC Line - [**2190-4-8**] 09:23 PM
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Arterial Line - [**2190-4-23**] 12:00 PM
   Prophylaxis:
   DVT:  boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  icu
   Total time spent:   39

2190-04-26 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Uneventful day with no periods of hypotension, MAPs stable ~ 60
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Ambisome - [**2190-4-23**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-26**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 97 (77 - 110) bpm
   BP: 119/38(62) {106/36(57) - 140/49(74)} mmHg
   RR: 31 (21 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.5 kg
   Height: 61 Inch
                  Total In:
                                                                  1,081 mL
                                                                    306 mL
   PO:
                  TF:
                                                                    961 mL
                                                                    306 mL
   IVF:
   Blood products:
   Total out:
                                                                    100 mL
                                                                    200 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    981 mL
                                                                    106 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 407 (343 - 438) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 19 cmH2O
   SpO2: 97%
   ABG: 7.30/56/91.[**Numeric Identifier 143**]/26/0
   Ve: 10.9 L/min
   PaO2 / FiO2: 153
   Physical Examination
   General: NAD
   HEENT: Sclera anicteric, dry blood around mouth and nares
   Lungs: coarse BS, exp wheezes
   CV: distant heart sounds, Regular rate and rhythm, normal S1 + S2, no
   murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm extremities, anasarca
   NEURO: conversant, follows commands
   Labs / Radiology
   59 K/uL
   8.4 g/dL
   145 mg/dL
   3.0 mg/dL
   26 mEq/L
   4.6 mEq/L
   61 mg/dL
   101 mEq/L
   140 mEq/L
   25.8 %
   10.5 K/uL
        [image002.jpg]
                             [**2190-4-23**]  09:20 AM
                             [**2190-4-23**]  12:50 PM
                             [**2190-4-23**]  12:52 PM
                             [**2190-4-23**]  02:28 PM
                             [**2190-4-23**]  11:26 PM
                             [**2190-4-24**]  05:06 AM
                             [**2190-4-25**]  03:41 AM
                             [**2190-4-25**]  07:47 AM
                             [**2190-4-26**]  04:40 AM
                             [**2190-4-26**]  05:21 AM
   WBC
   16.4
   15.0
   10.5
   Hct
   26.8
   26.9
   25.8
   Plt
   60
   55
   59
   Cr
   1.9
   0.6
   1.7
   2.5
   3.0
   TCO2
   28
   26
   33
   30
   29
   Glucose
   115
   172
   145
   Other labs: PT / PTT / INR:12.6/22.5/1.1, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:262/44, Alk Phos / T Bili:421/0.6,
   Differential-Neuts:84.0 %, Band:3.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:1.0
   %, D-dimer:5524 ng/mL, Fibrinogen:331 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:2.7 g/dL, LDH:546 IU/L, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   81 yo f with HTN, HL, CHF, ESRD on HD, malnutrition, here with
   recurrent respiratory distress secondary to RLL lobar collapse (?TBM vs
   aspiration with mucous plugging vs HAP) now extubated.
   #.  Respiratory failure:
   Patient has recurrent lobar collapse with respiratory distress.
   Reportedly has TBM but left sided lesion is too distal to stent. Has
   positive glucan/galactomannan, and CT on [**4-14**] showing diffuse disease,
   possibly invasive aspergilliosis. Was started on oral voriconazole on
   [**2190-4-15**], but with elevated LFT
s to thousands; vori was discontinued
   and ambisome was started. Voriconazole was restarted on [**2190-4-24**].
   Completed course for HAP with Vancomycin (D1 [**4-10**]) & cefepime (D1
   [**4-9**]), both d/c
d on [**4-17**]. Due to multiple respiratory problems, patient
   may ultimately require another intubation which she has stated she
   would want.  Will continue to remove fluid as possible with dialysis.
   Must also consider that some component of resp failure could be PE from
   known RUE DVT, though did not tolerate anticoagulation. On periodic
   CPAP Has new MRSA growing in sputum.
   - Vanc dosing at HD protocol
   - Continue voriconazole
   - f/u ID recs, cultures, fever curve, wbc
   - albuterol/atrovent nebs
   - consider non-invasive ventilation, CPAP at 8 as needed today
   #. HTN/Hypotension:
   On nitropaste and amlodipine at home. Was on captopril and amlodipine
   here, however switched to single [**Doctor Last Name **] beta-blocker given concurrent
   rhythm issues.  In ICU has had labile blood pressure.  Significant
   labile BP
s with HD, this AM with hypotension  requiring Neo for BP
   support despite Midodrine given prior to HD.
   - will d/w renal options for better BP control during HD.
   - will control on metoprolol as needed on non-HD days as per above
   - Neo for BP control during HD
   - maintain a-line for now
   - Manage intravascular volume with HD and UF
   #.  Thrombocytopenia:
   Platelets have dropped acutely from 118 5 days ago to 55 today. HIT
   neg. Possibly due to Amphoterocin. No drop in HCT to suggest TTP,
   though should check a smear.
   - Add-on smear to morning labs
   - cont Voriconazole
   - daily LFT
   - cont to monitor
   #. NSVT/Afib:
   Patient does have known pafib and appears to have had the episodes of
   NSVT coinciding with dialysis. Given 150mg amio x1 on [**4-12**] and
   continued on drip at 1 then 0.5 per hour. ectopy has improved. now off
   drip and letting patient auto-taper; would try to avoid amio especially
   given her tenuous pulmonary status. Attempted anticoagulation was not
   tolerated by patient due to epistaxis and IV site bleeding.  Did not
   receive metoprolol on [**4-23**] before HD
   - will plan for beta-blocker as needed after HD to control afib
   - cont plan to hold metoprolol 6hrs before HD, hold if SBP<120, hold
   8am dose
   - midodrine 10mg before HD if SBP<120
   - can restart amio and consider longer-term amio if ectopy returns
   #. Liver:
   Patient had rising LFT
s with peak in the thousands. Though to be shock
   liver due to hypotension following HD. Vori was discontinued, and
   liposomal amphoterocin started. Now that liver enzymes have recovered
   to ALT = 410, AST = 60 have discontinued amphoterocin andrestarted
   voriconazole. Will cont to support pressures to keep SBP above 100.
   Liver ultrasound showed normal right lobe of the liver, limited view of
   the left lobe. No portal vein thrombosis. Echogenic kidneys are
   consistent with parenchymal disease.
   - cont to trend LFTs now that voriconazole restarted
   #.  Leukocytosis:
   Peak WBC had been 28. Is 15 today and has been fluctuating in last 5
   days. Is now back on voriconazole for invasive aspergillosis. Also
   restarted Vancomycin for MRSA positive sputum.
   - follow-up cultures
   - weekly B-glucan, galactomannan
   #. RUE DVT:
    DVT seen on U/S. Patient at risk for PE; however, was intolerant of
   anticoagulation.  Patient with new complaint of bilateral calf pain
   this AM, exam without swelling or cellulitis.
   - BLE U/S for r/o DVT
   #. ESRD on HD:
   Patient has been on dialysis since recent colectomy.  Gets dialysis
   MWF.  Nephrology following.
   - ongoing UF dialysis, plan HD MWF
   - nephrocaps
   - f/u nephrology recs
   - daily weights
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2190-4-26**] 12:28 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2190-4-8**] 09:23 PM
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Arterial Line - [**2190-4-23**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-04-26 11:24:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   81 yo AF RVR,ESRD oh HD, CHF, admitted with  multifactorial
   respiratory failure with IA, weakness, TBM.  Has had freqent periods of
   HOTN especially during HD for which she requires neo.  Had increased
   LFTs last week though to be secondary to shock liver.  Is now extubated
   and treated for fungal PNA, MSRSA PNA, and continues on HD.  Did well
   overnight.
   24 Hour Events:
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Ambisome - [**2190-4-23**] 08:00 PM
   Infusions:
   Phenylephrine - 2.3 mcg/Kg/min
   Other ICU medications:
   Other medications:
   MVI
   colace
   atrovent
   albuterol
   folate
   asa
   prevacid
   miconazole powder
   voriconazole
   midodrine
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-26**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.7
C (96.3
   HR: 113 (77 - 113) bpm
   BP: 87/39(51) {73/31(44) - 140/49(74)} mmHg
   RR: 36 (23 - 37) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.5 kg
   Height: 61 Inch
             Total In:
                                                                  1,081 mL
                                                                    513 mL
   PO:
             TF:
                                                                    961 mL
                                                                    431 mL
   IVF:
   22 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                    200 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    981 mL
                                                                    313 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 407 (343 - 438) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 8 cmH2O
   FiO2: 70%
   PIP: 19 cmH2O
   SpO2: 95%
   ABG: 7.30/56/91.[**Numeric Identifier 143**]/26/0
   Ve: 10.9 L/min
   PaO2 / FiO2: 153
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   59 K/uL
   145 mg/dL
   3.0 mg/dL
   26 mEq/L
   4.6 mEq/L
   61 mg/dL
   101 mEq/L
   140 mEq/L
   25.8 %
   10.5 K/uL
        [image002.jpg]
                             [**2190-4-23**]  09:20 AM
                             [**2190-4-23**]  12:50 PM
                             [**2190-4-23**]  12:52 PM
                             [**2190-4-23**]  02:28 PM
                             [**2190-4-23**]  11:26 PM
                             [**2190-4-24**]  05:06 AM
                             [**2190-4-25**]  03:41 AM
                             [**2190-4-25**]  07:47 AM
                             [**2190-4-26**]  04:40 AM
                             [**2190-4-26**]  05:21 AM
   WBC
   16.4
   15.0
   10.5
   Hct
   26.8
   26.9
   25.8
   Plt
   60
   55
   59
   Cr
   1.9
   0.6
   1.7
   2.5
   3.0
   TCO2
   28
   26
   33
   30
   29
   Glucose
   115
   172
   145
   Other labs: PT / PTT / INR:12.6/22.5/1.1, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:262/44, Alk Phos / T Bili:421/0.6,
   Differential-Neuts:84.0 %, Band:3.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:1.0
   %, D-dimer:5524 ng/mL, Fibrinogen:331 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:2.7 g/dL, LDH:546 IU/L, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY:  RUE, not getting
   heparin because of high bleeding risk.  c/o of calf pain.  will check
   LENIS.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):  Add morphine for LBP
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Has been extubated for 1
   week.  At times looks tenuos, but has been overall stable.
   Hypotension:  Associated with HD.  Getting midodrine and neo during HD.
   PNA:  on vanco and vori for MRSA and aspergillus
   Chronic renal failure on HD.
   Thrombocytopenia:  has improved
   AF:  on lopressor, limited by HOTN during HD.
   Liver dysfunction:  enzymes improving, likely shock liver.
   chronic diastolic failure.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2190-4-26**] 12:28 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2190-4-8**] 09:23 PM
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Arterial Line - [**2190-4-23**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   Critical Care Staff Addendum
   11p
   Called to see Ms. [**Known lastname 6562**] for progressive respiratory decline.  Clear
   respiratory distress, difficulty clearing secretions, and requesting
   intubation.  Proceeded with intubation by anesthesia without events
   except for peri-intubation hypotension now improved.  CXR pending.
   Discussed with daughter.
   30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2190-4-26**] 23:13 ------

2190-04-27 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Again became hypotensive 25min. after beginning of dialysis. Received
   Levophed.
   - Complaining of back pain. Low-dose morphine as well as Lidocaine
   patch started.
   - Worsening ABG's, tachypnea, intubated around 11pm.
   - Had episodes of decreased BP requiring increase on Neo and fluid
   boluses of 250-500cc. Did not tolerate increased PEEP (for BP reasons)
   and occassionally had to max out on the Neo. Has double lumen power
   PICC and no other access.
 NON-INVASIVE VENTILATION - START [**2190-4-26**] 04:00 PM
 NON-INVASIVE VENTILATION - STOP [**2190-4-26**] 10:50 PM
 INVASIVE VENTILATION - START [**2190-4-26**] 10:55 PM
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2190-4-26**] 04:00 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Phenylephrine - 4.8 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2190-4-26**] 12:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-27**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 94 (72 - 113) bpm
   BP: 96/31(44) {69/29(38) - 164/60(85)} mmHg
   RR: 19 (15 - 43) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.5 kg
   Height: 61 Inch
             Total In:
                                                                  1,443 mL
                                                                  1,419 mL
   PO:
             TF:
                                                                    920 mL
                                                                    279 mL
   IVF:
                                                                    383 mL
                                                                  1,080 mL
   Blood products:
   Total out:
                                                                  1,820 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -377 mL
                                                                  1,419 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 354 (354 - 374) mL
   PS : 14 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 80%
   RSBI Deferred: Hemodynamic Instability
   PIP: 34 cmH2O
   Plateau: 29 cmH2O
   Compliance: 20.8 cmH2O/mL
   SpO2: 98%
   ABG: 7.42/38/81.[**Numeric Identifier 508**]/23/0
   Ve: 13.9 L/min
   PaO2 / FiO2: 103
   Physical Examination
   General: intubated, sedated
   HEENT: Sclera anicteric, dry blood around mouth and nares
   Lungs: coarse BS, exp wheezes
   CV: distant heart sounds, Regular rate and rhythm, normal S1 + S2, no
   murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm extremities, anasarca
   Neurologic: sedated, withdraws to painful stimuli
   Labs / Radiology
   84 K/uL
   8.8 g/dL
   91 mg/dL
   2.0 mg/dL
   23 mEq/L
   4.0 mEq/L
   35 mg/dL
   105 mEq/L
   140 mEq/L
   28.9 %
   16.8 K/uL
        [image002.jpg]
                             [**2190-4-25**]  07:47 AM
                             [**2190-4-26**]  04:40 AM
                             [**2190-4-26**]  05:21 AM
                             [**2190-4-26**]  03:23 PM
                             [**2190-4-26**]  04:58 PM
                             [**2190-4-26**]  06:33 PM
                             [**2190-4-26**]  10:00 PM
                             [**2190-4-27**]  12:09 AM
                             [**2190-4-27**]  03:34 AM
                             [**2190-4-27**]  05:24 AM
   WBC
   10.5
   16.8
   Hct
   25.8
   28.9
   Plt
   59
   84
   Cr
   3.0
   2.0
   TCO2
   30
   29
   31
   32
   29
   31
   30
   25
   Glucose
   145
   91
   Other labs: PT / PTT / INR:14.3/24.6/1.2, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:175/43, Alk Phos / T Bili:337/0.7,
   Differential-Neuts:84.0 %, Band:3.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:1.0
   %, D-dimer:5524 ng/mL, Fibrinogen:331 mg/dL, Lactic Acid:4.3 mmol/L,
   Albumin:2.2 g/dL, LDH:427 IU/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   81 yo f with HTN, HL, CHF, ESRD on HD, malnutrition, here with
   recurrent respiratory distress secondary to RLL lobar collapse (?TBM vs
   aspiration with mucous plugging vs HAP) extubated and now reintubated.
   #.  Respiratory failure:
   Patient has recurrent lobar collapse with respiratory distress.
   Reportedly has TBM but left sided lesion is too distal to stent. Has
   positive glucan/galactomannan, and CT on [**4-14**] showing diffuse disease,
   possibly invasive aspergilliosis. Was started on oral voriconazole on
   [**2190-4-15**], but with elevated LFT
s to thousands; vori was discontinued
   and ambisome was started. Voriconazole was restarted on [**2190-4-24**].
   Completed course for HAP with Vancomycin (D1 [**4-10**]) & cefepime (D1
   [**4-9**]), both d/c
d on [**4-17**]. Due to multiple respiratory problems, patient
   ultimately required another intubation overnight ([**4-26**]) which she
   agreed to.  Will continue to remove fluid as possible with dialysis.
   Must also consider that some component of resp failure could be PE from
   known RUE DVT, though did not tolerate anticoagulation. On periodic
   CPAP Has MRSA growing in sputum.
   - cont vent, did not tolerate increased PEEP from BP standpoint
   - Vanc dosing at HD protocol
   - Continue voriconazole
   - start meropenem
   - f/u ID recs, cultures, fever curve, wbc
   - albuterol/atrovent nebs
   - start stress dose steroid
   - will need additional access
   - consider trach and PEG, will need to discuss goals of care with
   family.
   #. HTN/Hypotension:
   On nitropaste and amlodipine at home. Was on captopril and amlodipine
   here, however switched to single [**Doctor Last Name **] beta-blocker given concurrent
   rhythm issues.  In ICU has had labile blood pressure.  Significant
   labile BP
s with HD, this AM with hypotension  requiring Neo as well as
   fluid boluses for BP support. Will possibly need two pressors at some
   point.
   - Neo and levo for BP control
   - will need additional access (currently on two-lumen PICC), no
   peripherals. Does have HD catheter
   - maintain a-line for now
   - will d/w renal options for better BP control during HD.
   - will rate control on metoprolol as needed on non-HD days as per above
   - Manage intravascular volume with HD and UF
   #.  Thrombocytopenia:
   Platelets had dropped acutely from 118 5 days ago to 55. HIT neg.
   Possibly due to Amphoterocin which is now discontinued and platelets
   are up again. No drop in HCT to suggest TTP.
   - cont Voriconazole
   - daily LFT
   - cont to monitor
   #. NSVT/Afib:
   Patient does have known pafib and appears to have had the episodes of
   NSVT coinciding with dialysis. Given 150mg amio x1 on [**4-12**] and
   continued on drip at 1 then 0.5 per hour. ectopy has improved. now off
   drip and letting patient auto-taper; would try to avoid amio especially
   given her tenuous pulmonary status. Attempted anticoagulation was not
   tolerated by patient due to epistaxis and IV site bleeding.  Not
   receiving metoprolol. Currently on pressors.
   - cont plan to hold metoprolol for now
   - midodrine 10mg before HD if SBP<120 (though currently on pressors)
   - will plan for beta-blocker as needed after HD to control afib (though
   currently on pressors)
   #. Liver:
   Patient had rising LFT
s with peak in the thousands. Though to be shock
   liver due to hypotension following HD. Vori was discontinued, and
   liposomal amphoterocin started. Now that liver enzymes have recovered
   to ALT = 410, AST = 60 have discontinued amphoterocin andrestarted
   voriconazole. Will cont to support pressures to keep SBP above 100.
   Liver ultrasound showed normal right lobe of the liver, limited view of
   the left lobe. No portal vein thrombosis. Echogenic kidneys are
   consistent with parenchymal disease.
   - cont to trend LFTs now that voriconazole restarted
   #.  Leukocytosis:
   Peak WBC had been 28. Is 16.8 today and has been fluctuating in last 5
   days. Is now back on voriconazole for invasive aspergillosis. Also
   restarted Vancomycin for MRSA positive sputum.
   - follow-up cultures
   - weekly B-glucan, galactomannan
   #. RUE DVT:
    DVT seen on U/S. Patient at risk for PE; however, was intolerant of
   anticoagulation.
   #. ESRD on HD:
   Patient has been on dialysis since recent colectomy.  Gets dialysis
   MWF.  Nephrology following.
   - ongoing UF dialysis, plan HD MWF
   - nephrocaps
   - f/u nephrology recs
   - daily weights
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2190-4-27**] 02:16 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2190-4-8**] 09:23 PM
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Arterial Line - [**2190-4-23**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-04-27 09:39:00 Physician Attending Progress Note
Chief Complaint: respiratory failure and sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with continued HOTN after HD yesterday requiring continued neo
   synephrine.  Would respond to fluid boluses briefly and then become
   hypotensive again.    Respiratory status got worse and required in
   tubation.  Increases in peep led to worsened hypotension.  Neo dose
   continued to increase over the course of the night.  Required addition
   of levophed.
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2190-4-26**] 04:00 PM
 NON-INVASIVE VENTILATION - STOP [**2190-4-26**] 10:50 PM
 INVASIVE VENTILATION - START [**2190-4-26**] 10:55 PM
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2190-4-26**] 04:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2190-4-26**] 12:08 PM
   Other medications:
   protonix
   folate
   chlorehexadin
   colace
   MVI
   midodrine
   insulin SS
   lidocaine
   morphine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-27**] 09:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 94 (72 - 113) bpm
   BP: 106/33(48) {69/29(38) - 164/60(85)} mmHg
   RR: 21 (15 - 43) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.5 kg
   Height: 61 Inch
             Total In:
                                                                  1,443 mL
                                                                  1,918 mL
   PO:
             TF:
                                                                    920 mL
                                                                    370 mL
   IVF:
                                                                    383 mL
                                                                  1,488 mL
   Blood products:
   Total out:
                                                                  1,820 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -377 mL
                                                                  1,918 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 354 (354 - 374) mL
   PS : 14 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 80%
   RSBI Deferred: Hemodynamic Instability
   PIP: 34 cmH2O
   Plateau: 29 cmH2O
   Compliance: 20.8 cmH2O/mL
   SpO2: 98%
   ABG: 7.42/38/81.[**Numeric Identifier 508**]/23/0
   Ve: 12.7 L/min
   PaO2 / FiO2: 103
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   84 K/uL
   91 mg/dL
   2.0 mg/dL
   23 mEq/L
   4.0 mEq/L
   35 mg/dL
   105 mEq/L
   140 mEq/L
   28.9 %
   16.8 K/uL
        [image002.jpg]
                             [**2190-4-25**]  07:47 AM
                             [**2190-4-26**]  04:40 AM
                             [**2190-4-26**]  05:21 AM
                             [**2190-4-26**]  03:23 PM
                             [**2190-4-26**]  04:58 PM
                             [**2190-4-26**]  06:33 PM
                             [**2190-4-26**]  10:00 PM
                             [**2190-4-27**]  12:09 AM
                             [**2190-4-27**]  03:34 AM
                             [**2190-4-27**]  05:24 AM
   WBC
   10.5
   16.8
   Hct
   25.8
   28.9
   Plt
   59
   84
   Cr
   3.0
   2.0
   TCO2
   30
   29
   31
   32
   29
   31
   30
   25
   Glucose
   145
   91
   Other labs: PT / PTT / INR:14.3/24.6/1.2, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:175/43, Alk Phos / T Bili:337/0.7,
   Differential-Neuts:84.0 %, Band:3.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:1.0
   %, D-dimer:5524 ng/mL, Fibrinogen:331 mg/dL, Lactic Acid:4.3 mmol/L,
   Albumin:2.2 g/dL, LDH:427 IU/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   Respiratory failure:  New RLL infiltrate on CXR.  Will add meropenem to
   cover for HAP.
   HOTN:  Blood pressure continually dropping.  Neosynephrine is on max,
   and levophed dose is going up.
   Will need new access to give aggressive fluids.
   ESRD on HD:  will not be able to be dialyzed during this hypotensive
   episode
   Will discuss with family about goals of care as her prognosis at this
   juncture is very poor.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2190-4-27**] 02:16 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2190-4-8**] 09:23 PM
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Arterial Line - [**2190-4-23**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   Had meeting with Mr. [**Known lastname 6562**], and Mrs. [**Known lastname 6562**]
s three daughters.  Discussed
   with them that Mrs. [**Known lastname 6562**]
s has had severe worsening in her status
   intubated and now on two pressors.  We would not be able to dialyze
   her.  She likely has a VAP which we are treating with the addition of
   meropenem.  Given her prolonged illness since [**Month (only) 539**], multiple
   complications, ESRD on HD, her overall prognosis is very poor and the
   chances of her ever getting home are minimal.    Addressed whether she
   would want us to go on with aggressive care given this and whether CPR
   would make sense given that it will not likely benefit her.  They said
   that they would like to think about it.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2190-4-27**] 15:23 ------
   Above meeting took 40 minutes cc.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2190-4-27**] 15:23 ------

2190-04-28 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - AM worsening BP, requiring incr. neo with addition of levophed, given
   2.5L NS of fluids with semi-stable BP's throughout day on neo 4/levo
   0.02.
   - Renal recs possible CVVH tomorrow
   - Nutrition recs [**Month (only) **] TF to 35cc/hr
   - Meropenem started for possible HAP
   - Family discussion x2 (Dr. [**Last Name (STitle) 347**]/Dr. [**Last Name (STitle) 775**], family deciding on code
   status still, currently full code
   - Elevated lactate 4.3->4
   - LFT's increased so vori stopped and ambisome started.
 MULTI LUMEN - START [**2190-4-27**] 10:44 AM
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2190-4-26**] 04:00 PM
   Meropenem - [**2190-4-27**] 11:32 AM
   Infusions:
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-28**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.3
C (97.3
   HR: 74 (74 - 94) bpm
   BP: 126/41(67) {100/30(48) - 139/47(77)} mmHg
   RR: 18 (18 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.5 kg
   Height: 61 Inch
             Total In:
                                                                  5,199 mL
                                                                    206 mL
   PO:
             TF:
                                                                    534 mL
                                                                      4 mL
   IVF:
                                                                  4,545 mL
                                                                    203 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,649 mL
                                                                    206 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 168
   PIP: 25 cmH2O
   Plateau: 24 cmH2O
   SpO2: 99%
   ABG: 7.39/31/91.[**Numeric Identifier 143**]/17/-4
   Ve: 8.7 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General: intubated
   HEENT: Sclera anicteric, pupils very sluggishly reactive, dry blood
   around mouth and nares
   Lungs: coarse BS
   CV: distant heart sounds, Regular rate and rhythm, normal S1 + S2, no
   murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm extremities, anasarca
   Neurologic: does not respond to painful stimuli
   Labs / Radiology
   83 K/uL
   8.2 g/dL
   122 mg/dL
   2.6 mg/dL
   17 mEq/L
   5.0 mEq/L
   47 mg/dL
   105 mEq/L
   138 mEq/L
   26.6 %
   22.8 K/uL
        [image002.jpg]
                             [**2190-4-27**]  03:34 AM
                             [**2190-4-27**]  05:24 AM
                             [**2190-4-27**]  11:30 AM
                             [**2190-4-27**]  03:44 PM
                             [**2190-4-27**]  06:25 PM
                             [**2190-4-27**]  06:45 PM
                             [**2190-4-27**]  11:44 PM
                             [**2190-4-28**]  01:13 AM
                             [**2190-4-28**]  03:06 AM
                             [**2190-4-28**]  06:02 AM
   WBC
   16.8
   22.8
   Hct
   28.9
   26.6
   Plt
   84
   83
   Cr
   2.0
   2.6
   TCO2
   25
   23
   21
   18
   17
   16
   17
   19
   Glucose
   91
   122
   Other labs: PT / PTT / INR:17.3/28.8/1.6, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:370/481, Alk Phos / T Bili:265/0.5,
   Differential-Neuts:84.0 %, Band:3.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:1.0
   %, D-dimer:5524 ng/mL, Fibrinogen:331 mg/dL, Lactic Acid:5.3 mmol/L,
   Albumin:2.2 g/dL, LDH:925 IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:4.7
   mg/dL
   Assessment and Plan
   81 yo f with HTN, HL, CHF, ESRD on HD, malnutrition, here with
   recurrent respiratory distress secondary to RLL lobar collapse (?TBM vs
   aspiration with mucous plugging vs HAP) extubated and now reintubated.
   #.  Respiratory failure:
   Patient has recurrent lobar collapse with respiratory distress.
   Reportedly has TBM but left sided lesion is too distal to stent. Has
   positive glucan/galactomannan, and CT on [**4-14**] showing diffuse disease,
   possibly invasive aspergilliosis. Was started on oral voriconazole on
   [**2190-4-15**], but with elevated LFT
s to thousands; vori was discontinued
   and ambisome was started. Voriconazole was restarted on [**2190-4-24**] and
   again today with elevated LFT
s. [**Month (only) 51**] be repeat shock liver however Vori
   is again discontinued and Ambisome restarted. Has completed course for
   HAP with Vancomycin (D1 [**4-10**]) & cefepime (D1 [**4-9**]) on [**4-17**]. Due to
   multiple respiratory problems, patient ultimately required another
   intubation overnight ([**4-26**]) which she agreed to.  Will continue to
   remove fluid as possible with dialysis though this does cause large
   blood pressure swings. Must also consider that some component of resp
   failure could be PE from known RUE DVT, though did not tolerate
   anticoagulation. On periodic CPAP Has MRSA growing in sputum. Now back
   on vanc for g+ve cocci on sputum from [**4-27**].
   - cont vent, did not tolerate increased PEEP from BP standpoint
   - Vanc dosing at HD protocol
   - Continue ambisome (watch platlets)
   - cont meropenem
   - f/u ID recs, cultures, fever curve, wbc
   - albuterol/atrovent nebs
   - cont stress dose steroid
   - consider trach and PEG, will need to discuss goals of care with
   family.
   #. HTN/Hypotension:
   On nitropaste and amlodipine at home. Was on captopril and amlodipine
   here, however switched to single [**Doctor Last Name **] beta-blocker given concurrent
   rhythm issues.  In ICU has had labile blood pressure.  Significant
   labile BP
s with HD requiring Neo as well as periodic Levophed and
   fluid boluses for BP support.
   - Neo and levo for BP control
   - maintain a-line for now
   - will d/w renal options for better BP control during HD.
   - will rate control with metoprolol as needed
   - Manage intravascular volume with HD and UF
   #.  Thrombocytopenia:
   Platelets had dropped acutely from 118 5 days ago to 55. HIT neg.
   Possibly due to Amphoterocin which was briefly discontinued and
   platelets went up. No drop in HCT to suggest TTP, and today ambisome is
   restarted due to rising LFT
s while on vori
   - cont Ambisome for now and monitor platlets closely
   #. NSVT/Afib:
   Patient does have known pafib and appears to have had the episodes of
   NSVT coinciding with dialysis. Given 150mg amio x1 on [**4-12**] and
   continued on drip at 1 then 0.5 per hour. ectopy has improved. would
   try to avoid amio especially given her tenuous pulmonary status.
   Attempted anticoagulation was not tolerated by patient due to epistaxis
   and IV site bleeding.  Not receiving metoprolol. Currently on pressors.
   - cont plan to hold metoprolol for now
   - midodrine 10mg before HD if SBP<120 (though currently on pressors)
   - will plan for beta-blocker as needed after HD to control afib (though
   currently on pressors)
   #. Liver:
   Patient had rising LFT
s with peak in the thousands. Though to be shock
   liver due to hypotension following HD. Vori was discontinued, and
   liposomal amphoterocin started. After liver enzymes recovered,
   discontinued amphoterocin and restarted voriconazole. Today
   Amphotericin is restarted and vori discontinued due to rising LFTs.
   Will cont to support pressures to keep SBP above 100. Previous liver
   ultrasound showed normal right lobe of the liver, limited view of the
   left lobe. No portal vein thrombosis. Echogenic kidneys are consistent
   with parenchymal disease.
   - cont to trend LFTs
   #.  Leukocytosis:
   Peak WBC had been 28. Is 22.8 today and has been fluctuating. Is now
   back on amphotericin for invasive aspergillosis. Also restarted
   Vancomycin for g+ve cocci in sputum.
   - follow-up cultures
   - weekly B-glucan, galactomannan
   #. RUE DVT:
    DVT seen on U/S. Patient at risk for PE; however, was intolerant of
   anticoagulation.
   #. ESRD on HD:
   Patient has been on dialysis since recent colectomy.  Gets dialysis
   MWF.  Nephrology following.
   - ongoing UF dialysis, normally HD MWF; will likely miss HD today but
   may require CVVH in future.
   - nephrocaps
   - f/u nephrology recs
   - daily weights
   ICU Care
   Nutrition:
   Tubefeeding: Nutren 2.0 Full strength; Starting rate: 10 ml/hr; Advance
   rate by 10 ml q4h Goal rate: 35 ml/hr; Residual Check: q4h Hold feeding
   for residual >= : 100 ml; Flush w/ 50 ml water q6h
   Glycemic Control:  Sliding scale insulin
   Lines:
   PICC Line - [**2190-4-8**] 09:23 PM
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Arterial Line - [**2190-4-23**] 12:00 PM
   Multi Lumen - [**2190-4-27**] 10:44 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Husband and daughter
   [**Name (NI) 36**] status: Full code
   Disposition: ICU for now

2190-04-28 10:50:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   81 yo women with prolonged hospital course.  More recently VAP, with
   septic shock.  LFTs increased overnight so vori stopped.  BP improved
   and came down on pressors
   24 Hour Events:
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2190-4-26**] 04:00 PM
   Meropenem - [**2190-4-27**] 11:32 AM
   Infusions:
   Phenylephrine - 0.4 mcg/Kg/min
   Other ICU medications:
   Other medications:
   prevacid
   asa
   folate
   atrovent
   chlorhex
   docusate
   MVI
   midodrine
   SSI
   lidoderm
   hydrocort 50 q6h
   ambisome
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-28**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 35.6
C (96
   HR: 72 (72 - 94) bpm
   BP: 145/44(74) {100/30(50) - 147/63(84)} mmHg
   RR: 18 (18 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.5 kg
   Height: 61 Inch
             Total In:
                                                                  5,199 mL
                                                                    284 mL
   PO:
             TF:
                                                                    534 mL
                                                                      4 mL
   IVF:
                                                                  4,545 mL
                                                                    281 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,649 mL
                                                                    284 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 168
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.39/31/91.[**Numeric Identifier 143**]/17/-4
   Ve: 8.9 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Non -purposeful,
   Tone: Not assessed, opens eyes to voice
   Labs / Radiology
   8.2 g/dL
   83 K/uL
   122 mg/dL
   2.6 mg/dL
   17 mEq/L
   5.0 mEq/L
   47 mg/dL
   105 mEq/L
   138 mEq/L
   26.6 %
   22.8 K/uL
        [image002.jpg]
                             [**2190-4-27**]  03:34 AM
                             [**2190-4-27**]  05:24 AM
                             [**2190-4-27**]  11:30 AM
                             [**2190-4-27**]  03:44 PM
                             [**2190-4-27**]  06:25 PM
                             [**2190-4-27**]  06:45 PM
                             [**2190-4-27**]  11:44 PM
                             [**2190-4-28**]  01:13 AM
                             [**2190-4-28**]  03:06 AM
                             [**2190-4-28**]  06:02 AM
   WBC
   16.8
   22.8
   Hct
   28.9
   26.6
   Plt
   84
   83
   Cr
   2.0
   2.6
   TCO2
   25
   23
   21
   18
   17
   16
   17
   19
   Glucose
   91
   122
   Other labs: PT / PTT / INR:17.3/28.8/1.6, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:370/481, Alk Phos / T Bili:265/0.5,
   Differential-Neuts:84.0 %, Band:3.0 %, Lymph:7.0 %, Mono:3.0 %, Eos:1.0
   %, D-dimer:5524 ng/mL, Fibrinogen:331 mg/dL, Lactic Acid:5.3 mmol/L,
   Albumin:2.2 g/dL, LDH:925 IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:4.7
   mg/dL
   Microbiology: 4+ GPCs in sputum
   Assessment and Plan
   Respiratory failure:  Oxygenating well.  Has poor MS currently so won't
   try and wean yet
   Septic shock:  has improved, now only on low dose neo.  WIll hold off
   on further IVF as she is now grossly fluid overloaded
   ESRD on HD:  No acute need for HD today, but may need tomorrow.  WIll
   decide if she can tolerate HD vs. CVVH tomorrow
   AF RVR:  HR controlled currently
   aspergillus PNA:  changed to ambisome with increased LFTs
   increased liver enzymes:  likely due to shock again given events of
   last two days
   ICU Care
   Nutrition:
   Comments: Will try reglan TFs
   Glycemic Control:
   Lines:
   PICC Line - [**2190-4-8**] 09:23 PM
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Arterial Line - [**2190-4-23**] 12:00 PM
   Multi Lumen - [**2190-4-27**] 10:44 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2190-04-29 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - LFT's increased so voriconazole stopped and ambisome started.
   - Patient's code status was changed to DNR
   - Plan to begin CVVH; however, hemodialysis (HD) line unable to handle
   flow rates required by CVVH machine. Attempt to begin CVVH was aborted
   to be readdressed this morning.
 PICC LINE - STOP [**2190-4-28**] 11:52 AM
 ARTERIAL LINE - STOP [**2190-4-28**] 08:03 PM
   WNL
 PICC LINE - START [**2190-4-28**] 08:22 PM
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2190-4-26**] 04:00 PM
   Meropenem - [**2190-4-28**] 12:00 PM
   Ambisome - [**2190-4-29**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-29**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.3
   HR: 75 (72 - 83) bpm
   BP: 156/53(77) {128/50(71) - 181/91(94)} mmHg
   RR: 18 (18 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.5 kg
   Height: 61 Inch
             Total In:
                                                                    747 mL
                                                                    428 mL
   PO:
             TF:
                                                                     60 mL
                                                                    136 mL
   IVF:
                                                                    667 mL
                                                                    291 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    200 mL
   Urine:
   NG:
   Stool:
   200 mL
   Drains:
   Balance:
                                                                    747 mL
                                                                    228 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 269 (269 - 269) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 93
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: 7.38/31/108/17/-5
   Ve: 8.9 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General: intubated, does not respond to command
   HEENT: Sclera anicteric, pupils non-reactive, dry blood around mouth
   and nares
   Lungs: coarse BS
   CV: distant heart sounds, Regular rate and rhythm, normal S1 + S2, no
   murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm extremities, anasarca
   Neurologic: does not respond to painful stimuli
   Labs / Radiology
   69 K/uL
   7.6 g/dL
   81 mg/dL
   3.1 mg/dL
   17 mEq/L
   5.5 mEq/L
   62 mg/dL
   104 mEq/L
   136 mEq/L
   24.9 %
   22.3 K/uL
        [image002.jpg]
                             [**2190-4-27**]  06:25 PM
                             [**2190-4-27**]  06:45 PM
                             [**2190-4-27**]  11:44 PM
                             [**2190-4-28**]  01:13 AM
                             [**2190-4-28**]  03:06 AM
                             [**2190-4-28**]  06:02 AM
                             [**2190-4-28**]  02:24 PM
                             [**2190-4-28**]  03:12 PM
                             [**2190-4-28**]  06:06 PM
                             [**2190-4-29**]  02:38 AM
   WBC
   22.8
   22.3
   Hct
   26.6
   24.9
   Plt
   83
   69
   Cr
   2.6
   2.9
   2.9
   3.1
   TCO2
   18
   17
   16
   17
   19
   19
   Glucose
   122
   119
   104
   81
   Other labs: PT / PTT / INR:18.0/28.8/1.6, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:304/247, Alk Phos / T Bili:274/0.7,
   Differential-Neuts:90.0 %, Band:1.0 %, Lymph:7.0 %, Mono:1.0 %, Eos:0.0
   %, D-dimer:5524 ng/mL, Fibrinogen:331 mg/dL, Lactic Acid:3.1 mmol/L,
   Albumin:2.2 g/dL, LDH:777 IU/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:6.4
   mg/dL
   Assessment and Plan
   81 yo f with HTN, HL, CHF, ESRD on HD, malnutrition, here with
   recurrent respiratory distress secondary to RLL lobar collapse (?TBM vs
   aspiration with mucous plugging vs HAP) extubated and now reintubated.
   #. Neuro status:
   Received sedation during intubation two days ago, however has not
   received sedation since. Neuro exam not improving which is concerning
   for some possible infarct. Because CVVH is just started, will hold off
   on CT until a stable point can be found to transport for CT. Will
   follow neuro exam closely
   #.  Respiratory failure:
   Patient has recurrent lobar collapse with respiratory distress.
   Reportedly has TBM but left sided lesion is too distal to stent. Has
   positive glucan/galactomannan, and CT on [**4-14**] showing diffuse disease,
   possibly invasive aspergilliosis. Was started on oral voriconazole on
   [**2190-4-15**], but with elevated LFT
s to thousands; vori was discontinued
   and ambisome was started. Voriconazole was restarted on [**2190-4-24**] and
   again today with elevated LFT
s. [**Month (only) 51**] be repeat shock liver however Vori
   is again discontinued and Ambisome was restarted. Today ([**2190-4-29**]),
   patient has continually dropping platlets, thought to be due to
   Ambisome so this will be discontinued and micafungin started until
   LFT
s come down at which point, plan is to start Voriconazole again.
   Has completed course for HAP with Vancomycin (D1 [**4-10**]) & cefepime (D1
   [**4-9**]) on [**4-17**]. Due to multiple respiratory problems, patient ultimately
   required another intubation overnight ([**4-26**]) which she agreed to.  Will
   continue to remove fluid as possible with CVVH today. Must also
   consider that some component of resp failure could be PE from known RUE
   DVT, though did not tolerate anticoagulation. Has MRSA growing in
   sputum. Now back on vanc for g+ve cocci on sputum from [**4-27**].
   - cont vent, did not tolerate increased PEEP from BP standpoint
   - Vanc dosing per measured levels
   - discontinue ambisome (due to dropping platlets)
   - start micafungin
   - cont meropenem
   - f/u ID recs, cultures, fever curve, wbc
   - albuterol/atrovent nebs
   - cont stress dose steroid, being wean
   - consider trach and PEG, will need to discuss goals of care with
   family.
   #. HTN/Hypotension:
   On nitropaste and amlodipine at home. Was on captopril and amlodipine
   here, however switched to single [**Doctor Last Name **] beta-blocker given concurrent
   rhythm issues.  In ICU has had labile blood pressure.  Significant
   labile BP
s with HD requiring Neo as well as periodic Levophed and
   fluid boluses for BP support.
   - now off pressors, will use Neo and vasopressin for BP control (had
   tachycardia with levophed)
   - plan for CVVH today as patient had large BP swings with HD.
   - will rate control with metoprolol if needed
   - Manage intravascular volume with CVVH
   #.  Thrombocytopenia:
   Platelets had dropped acutely from 118 to 69. HIT neg. Possibly due to
   Amphoterocin which was briefly discontinued and platelets went up. No
   drop in HCT to suggest TTP, and today ambisome is being discontinued
   due to again dropping platlets.
   - discontinue Ambisome for now and monitor platlets closely
   #. NSVT/Afib:
   Patient does have known pafib and appears to have had the episodes of
   NSVT coinciding with dialysis. Given 150mg amio x1 on [**4-12**] and
   continued on drip at 1 then 0.5 per hour. ectopy has improved. would
   try to avoid amio especially given her tenuous pulmonary status.
   Attempted anticoagulation was not tolerated by patient due to epistaxis
   and IV site bleeding.  Not receiving metoprolol. Currently off
   pressors.
   - cont plan to hold metoprolol for now, but can use as needed to
   control afib
   #. Liver:
   Patient had rising LFT
s with peak in the thousands. Thought to be
   shock liver due to hypotension following HD. Vori was discontinued, and
   liposomal amphoterocin started. After liver enzymes recovered,
   discontinued amphoterocin and restarted voriconazole. Amphotericin was
   again started and vori discontinued due to rising LFTs, however these
   were in the setting of another episode of hypotension. Will cont to
   support pressures as needed to keep SBP above 100. Previous liver
   ultrasound showed normal right lobe of the liver, limited view of the
   left lobe. No portal vein thrombosis. Echogenic kidneys are consistent
   with parenchymal disease.
   - cont to trend LFTs
   #.  Leukocytosis:
   Peak WBC had been 28. Is 22.3 today and has been fluctuating. Is being
   placed on micafungin and stopped on amphotericin due to decreasing
   platlets. She will need months of treatment for invasive aspergillosis.
   Also restarted Vancomycin for g+ve cocci in sputum.
   - follow-up cultures
   - weekly B-glucan, galactomannan
   #. RUE DVT:
    DVT seen on U/S. Patient at risk for PE; however, was intolerant of
   anticoagulation.
   #. ESRD on HD:
   Patient has been on dialysis since recent colectomy.  Normally gets HD
   MWF.  Nephrology following. Will plan for CVVH today in attempt to
   prevent BP swings.
   - ongoing UF dialysis, normally HD MWF; will likely have CVVH beginning
   today.
   - nephrocaps
   - f/u nephrology recs
   - daily weights
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2190-4-28**] 11:38 PM 20 mL/hour
   Glycemic Control:  Insulin sliding scale.
   Lines:
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Multi Lumen - [**2190-4-27**] 10:44 AM
   PICC Line - [**2190-4-28**] 08:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition:

2190-04-29 12:33:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   81 yo women with respiratory failure, sepsis, recurrent hospital
   acquired infections
   24 Hour Events:
 PICC LINE - STOP [**2190-4-28**] 11:52 AM
 ARTERIAL LINE - STOP [**2190-4-28**] 08:03 PM
   WNL
 PICC LINE - START [**2190-4-28**] 08:22 PM
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2190-4-26**] 04:00 PM
   Meropenem - [**2190-4-28**] 12:00 PM
   Ambisome - [**2190-4-29**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2190-4-29**] 08:00 AM
   Other medications:
   miconazole
   lansprazole
   asa
   folate
   albuterol
   chlorhex
   colace
   MVI
   midodrine
   hydrocort
   reglan
   meropenem
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-29**] 12:33 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.5
C (95.9
   HR: 77 (75 - 83) bpm
   BP: 138/52(71) {128/48(70) - 181/91(94)} mmHg
   RR: 20 (18 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.5 kg
   Height: 61 Inch
             Total In:
                                                                    747 mL
                                                                  1,356 mL
   PO:
             TF:
                                                                     60 mL
                                                                    281 mL
   IVF:
                                                                    667 mL
                                                                  1,020 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    490 mL
   Urine:
   NG:
   Stool:
   200 mL
   Drains:
   Balance:
                                                                    747 mL
                                                                    871 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 269 (269 - 269) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 93
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.38/31/108/17/-5
   Ve: 11.4 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: No spontaneous movement, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   69 K/uL
   81 mg/dL
   3.1 mg/dL
   17 mEq/L
   5.5 mEq/L
   62 mg/dL
   104 mEq/L
   136 mEq/L
   24.9 %
   22.3 K/uL
        [image002.jpg]
                             [**2190-4-27**]  06:25 PM
                             [**2190-4-27**]  06:45 PM
                             [**2190-4-27**]  11:44 PM
                             [**2190-4-28**]  01:13 AM
                             [**2190-4-28**]  03:06 AM
                             [**2190-4-28**]  06:02 AM
                             [**2190-4-28**]  02:24 PM
                             [**2190-4-28**]  03:12 PM
                             [**2190-4-28**]  06:06 PM
                             [**2190-4-29**]  02:38 AM
   WBC
   22.8
   22.3
   Hct
   26.6
   24.9
   Plt
   83
   69
   Cr
   2.6
   2.9
   2.9
   3.1
   TCO2
   18
   17
   16
   17
   19
   19
   Glucose
   122
   119
   104
   81
   Other labs: PT / PTT / INR:18.0/28.8/1.6, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:304/247, Alk Phos / T Bili:274/0.7,
   Differential-Neuts:90.0 %, Band:1.0 %, Lymph:7.0 %, Mono:1.0 %, Eos:0.0
   %, D-dimer:5524 ng/mL, Fibrinogen:331 mg/dL, Lactic Acid:3.1 mmol/L,
   Albumin:2.2 g/dL, LDH:777 IU/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:6.4
   mg/dL
   Imaging: xr
   Assessment and Plan
   Respiratory failure:  Breathing well on current vent settings, but is
   unresponsive.
   Unresponsiveness:  [**Month (only) 51**] be due to sedation still hanging around due to
   renal and hepatic dysfunction.  Will consider CT head if doesn't wake
   up with HD
   stress steroids:  can start weaning
   Septic shock.  Off neo.  Continue antibiotics - likely had HAP with
   sepsis
   ESRD on HD.  will try CVVH today to attempt and take off fluid slowly
   aspergillus PNA:  change to micafungin with thrombocytopenia on
   ambisome
   AF: currently in sinus
   TFs
   d/c groin line
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2190-4-28**] 11:38 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Multi Lumen - [**2190-4-27**] 10:44 AM
   PICC Line - [**2190-4-28**] 08:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2190-04-30 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CVVH initiated.
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Ambisome - [**2190-4-29**] 04:00 AM
   Meropenem - [**2190-4-29**] 12:00 PM
   Micafungin - [**2190-4-29**] 03:24 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2190-4-29**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-30**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.8
C (96.4
   HR: 86 (70 - 100) bpm
   BP: 98/67(73) {98/47(65) - 185/130(143)} mmHg
   RR: 19 (17 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.5 kg
   Height: 61 Inch
             Total In:
                                                                  5,530 mL
                                                                  2,505 mL
   PO:
             TF:
                                                                    693 mL
                                                                    252 mL
   IVF:
                                                                  4,777 mL
                                                                  2,253 mL
   Blood products:
   Total out:
                                                                  5,369 mL
                                                                  2,816 mL
   Urine:
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    161 mL
                                                                   -311 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 81
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 9.4 L/min
   Physical Examination
   General: intubated, does not respond to command
   HEENT: Sclera anicteric, pupils sluggishly reactive, dry blood around
   mouth and nares
   Lungs: coarse BS
   CV: distant heart sounds, Regular rate and rhythm, normal S1 + S2, no
   murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm extremities, anasarca
   Neurologic: withdraws to painful stimuli
   Labs / Radiology
   50 K/uL
   7.6 g/dL
   168 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.6 mEq/L
   24 mg/dL
   97 mEq/L
   137 mEq/L
   25.0 %
   26.5 K/uL
        [image002.jpg]
                             [**2190-4-28**]  01:13 AM
                             [**2190-4-28**]  03:06 AM
                             [**2190-4-28**]  06:02 AM
                             [**2190-4-28**]  02:24 PM
                             [**2190-4-28**]  03:12 PM
                             [**2190-4-28**]  06:06 PM
                             [**2190-4-29**]  02:38 AM
                             [**2190-4-29**]  02:44 PM
                             [**2190-4-29**]  08:59 PM
                             [**2190-4-30**]  02:57 AM
   WBC
   22.8
   22.3
   26.5
   Hct
   26.6
   24.9
   25.0
   Plt
   83
   69
   50
   Cr
   2.6
   2.9
   2.9
   3.1
   1.5
   1.1
   TCO2
   17
   19
   19
   Glucose
   122
   119
   104
   81
   185
   201
   168
   Other labs: PT / PTT / INR:19.0/28.3/1.8, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:264/177, Alk Phos / T Bili:357/0.8,
   Differential-Neuts:90.0 %, Band:1.0 %, Lymph:7.0 %, Mono:1.0 %, Eos:0.0
   %, D-dimer:5524 ng/mL, Fibrinogen:331 mg/dL, Lactic Acid:2.3 mmol/L,
   Albumin:1.9 g/dL, LDH:868 IU/L, Ca++:9.5 mg/dL, Mg++:1.6 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   81 yo f with HTN, HL, CHF, ESRD on HD, malnutrition, here with
   recurrent respiratory distress secondary to RLL lobar collapse (?TBM vs
   aspiration with mucous plugging vs HAP) extubated and now reintubated.
   #. Neuro status:
   Received sedation during reintubation, however has not received
   sedation since. Neuro exam improving slightly today however still
   concerning for some possible infarct. Because CVVH is just started,
   will hold off on CT until a stable point can be found to transport for
   CT. Will follow neuro exam closely
   #.  Respiratory failure:
   Patient has recurrent lobar collapse with respiratory distress.
   Reportedly has TBM but left sided lesion is too distal to stent. Has
   positive glucan/galactomannan, and CT on [**4-14**] showing diffuse disease,
   possibly invasive aspergilliosis. Was started on oral voriconazole on
   [**2190-4-15**], but with elevated LFT
s to thousands; vori was discontinued
   and ambisome was started. Voriconazole was restarted on [**2190-4-24**] and
   again she had elevated LFT
s. [**Month (only) 51**] be repeat shock liver however Vori is
   again discontinued and Ambisome was restarted. On [**2190-4-29**], patient had
   continually dropping platlets, thought to be due to Ambisome so this
   was discontinued and micafungin started until LFT
s come down at which
   point, plan is to start Voriconazole again. Has completed course for
   HAP with Vancomycin (D1 [**4-10**]) & cefepime (D1 [**4-9**]) on [**4-17**]. Due to
   multiple respiratory problems, patient ultimately required another
   intubation overnight ([**4-26**]) which she agreed to.  Will continue to
   remove fluid as possible with CVVH today. Must also consider that some
   component of resp failure could be PE from known RUE DVT, though did
   not tolerate anticoagulation. Has MRSA growing in sputum. Now back on
   vanc for g+ve cocci on sputum from [**4-27**].
   - cont vent, did not tolerate increased PEEP from BP standpoint,
   however will try to switch to pressure support if possible today
   - Vanc dosing per measured levels to continue until the 19^th.
   - cont micafungin
   - cont meropenem until the 22nd
   - f/u ID recs, cultures, fever curve, wbc
   - albuterol/atrovent nebs
   - cont stress dose steroid, wean to daily dosing
   - consider trach and PEG, will need to discuss goals of care with
   family.
   #. HTN/Hypotension:
   On nitropaste and amlodipine at home. Was on captopril and amlodipine
   here, however switched to single [**Doctor Last Name **] beta-blocker given concurrent
   rhythm issues.  In ICU has had labile blood pressure.  Significant
   labile BP
s with HD requiring Neo as well as periodic Levophed and
   fluid boluses for BP support.
   - now off pressors, will use Neo and vasopressin for BP control (had
   tachycardia with levophed)
   - plan for continued CVVH today as patient had large BP swings with HD.
   - will rate control with metoprolol if needed
   - Manage intravascular volume with CVVH
   #.  Thrombocytopenia:
   Platelets had dropped acutely from 118 to 69 to 50 on [**2190-4-30**]. HIT neg.
   Possibly due to Amphoterocin which was briefly discontinued and
   platelets went up. No drop in HCT to suggest TTP, and ambisome was
   discontinued again due to dropping platlets.
   - off ambisome and monitor platlets closely
   #. NSVT/Afib:
   Patient does have known pafib and appears to have had the episodes of
   NSVT coinciding with dialysis. Given 150mg amio x1 on [**4-12**] and
   continued on drip at 1 then 0.5 per hour. ectopy has improved. would
   try to avoid amio especially given her tenuous pulmonary status.
   Attempted anticoagulation was not tolerated by patient due to epistaxis
   and IV site bleeding.  Not receiving metoprolol. Currently off
   pressors.
   - cont plan to hold metoprolol for now, but can use as needed to
   control afib
   #. Liver:
   Patient had rising LFT
s with peak in the thousands. Thought to be
   shock liver due to hypotension following HD. Vori was discontinued, and
   liposomal amphoterocin started. After liver enzymes recovered,
   discontinued amphoterocin and restarted voriconazole. Amphotericin was
   again started and vori discontinued due to rising LFTs, however these
   were in the setting of another episode of hypotension. Will cont to
   support pressures as needed to keep SBP above 100. Previous liver
   ultrasound showed normal right lobe of the liver, limited view of the
   left lobe. No portal vein thrombosis. Echogenic kidneys are consistent
   with parenchymal disease. Now off vori though plan is to restart this
   after LFTs improve
   - cont to trend LFTs
   #.  Leukocytosis:
   Peak WBC had been 28. Is 22.3 today and has been fluctuating. Is being
   placed on micafungin and stopped on amphotericin due to decreasing
   platlets. She will need months of treatment for invasive aspergillosis.
   Also restarted Vancomycin for g+ve cocci in sputum.
   - follow-up cultures
   - weekly B-glucan, galactomannan
   #. RUE DVT:
    DVT seen on U/S. Patient at risk for PE; however, was intolerant of
   anticoagulation.
   #. ESRD on HD:
   Patient has been on dialysis since recent colectomy.  Normally gets HD
   MWF.  Nephrology following. Will plan for CVVH today in attempt to
   prevent BP swings.
   - ongoing UF dialysis, normally HD MWF; will likely have CVVH beginning
   today.
   - nephrocaps
   - f/u nephrology recs
   - daily weights
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2190-4-29**] 05:56 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Multi Lumen - [**2190-4-27**] 10:44 AM
   PICC Line - [**2190-4-28**] 08:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments: with Husband and daughters
   [**Name (NI) 36**] status: DNR (do not resuscitate)
   Disposition: pending family discussion of goals of care

2190-04-30 10:32:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   81  yo women with HTN, CHF, ESRD on HD, prolonged hospitalization,
   multiple infections.  Currently in respiratory failure.
   24 Hour Events:
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Ambisome - [**2190-4-29**] 04:00 AM
   Meropenem - [**2190-4-29**] 12:00 PM
   Micafungin - [**2190-4-29**] 03:24 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2190-4-30**] 08:00 AM
   Other medications:
   KCL, potassium
   asa
   folate
   albuterol
   atrovent
   chlorhex
   MVI
   reglan
   meropenem
   micofungin
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-4-30**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.6
C (96.1
   HR: 84 (70 - 130) bpm
   BP: 114/54(65) {96/47(65) - 185/130(143)} mmHg
   RR: 18 (17 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.5 kg
   Height: 61 Inch
             Total In:
                                                                  5,530 mL
                                                                  3,630 mL
   PO:
             TF:
                                                                    694 mL
                                                                    351 mL
   IVF:
                                                                  4,777 mL
                                                                  3,219 mL
   Blood products:
   Total out:
                                                                  5,369 mL
                                                                  4,084 mL
   Urine:
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    161 mL
                                                                   -454 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 81
   PIP: 26 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Decreased
   Labs / Radiology
   7.6 g/dL
   50 K/uL
   165 mg/dL
   1.1 mg/dL
   28 mEq/L
   3.6 mEq/L
   24 mg/dL
   96 mEq/L
   137 mEq/L
   25.0 %
   26.5 K/uL
        [image002.jpg]
                             [**2190-4-28**]  03:06 AM
                             [**2190-4-28**]  06:02 AM
                             [**2190-4-28**]  02:24 PM
                             [**2190-4-28**]  03:12 PM
                             [**2190-4-28**]  06:06 PM
                             [**2190-4-29**]  02:38 AM
                             [**2190-4-29**]  02:44 PM
                             [**2190-4-29**]  08:59 PM
                             [**2190-4-30**]  02:57 AM
                             [**2190-4-30**]  08:54 AM
   WBC
   22.8
   22.3
   26.5
   Hct
   26.6
   24.9
   25.0
   Plt
   83
   69
   50
   Cr
   2.6
   2.9
   2.9
   3.1
   1.5
   1.1
   TCO2
   19
   19
   Glucose
   122
   119
   104
   81
   185
   201
   168
   165
   Other labs: PT / PTT / INR:19.0/28.3/1.8, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:264/177, Alk Phos / T Bili:357/0.8,
   Differential-Neuts:90.0 %, Band:1.0 %, Lymph:7.0 %, Mono:1.0 %, Eos:0.0
   %, D-dimer:5524 ng/mL, Fibrinogen:331 mg/dL, Lactic Acid:2.3 mmol/L,
   Albumin:1.9 g/dL, LDH:868 IU/L, Ca++:9.5 mg/dL, Mg++:1.6 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   Respiratory failure:  Oxygenation is adequate, but mental status is
   still very poor
   antibiotics:  has been on vanco since [**4-24**].  Will d/c vanco on [**5-2**] for
   8 day course.  D/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 614**] on [**5-5**] for 8 day course.
   aspergillus:  on micafungin
   wean stress dose steroids 1 more day then stop
   ESRD of HD:  unable to get fluid off because of HOTN will discuss with
   family. citrate toxicity so will have to stop citrate and may get clots
   in the system
   thrombocytopenia
   PAF:  HR controlled, but in AF
   LFTs trending down
   leukocytosis:  WBC increasing again.  Unclear cause may be due to
   steroids which are weaning down
   DM II - more agressive sliding scale
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2190-4-30**] 07:59 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Multi Lumen - [**2190-4-27**] 10:44 AM  - will d/c today
   PICC Line - [**2190-4-28**] 08:22 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2190-05-01 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2190-4-30**] 05:00 PM
   c-diff
   - ID recs cont vanco, [**Last Name (un) 614**], micafungin
   - Renal recs UF at 50cc/hr, then CVVH stopped due to impending clot
   - CVVH stopped in afternoon due to impending clot formation, no
   hemodynamic problems on HD
   - Placed on PS 15/8, tolerating well.
   - Plan d/c vanco [**5-2**], d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 614**] [**5-5**]
   - steroid taper now hydrocort 50 q24
   - stool for c.diff sent
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Ambisome - [**2190-4-29**] 04:00 AM
   Vancomycin - [**2190-4-30**] 01:00 PM
   Meropenem - [**2190-4-30**] 03:30 PM
   Micafungin - [**2190-4-30**] 04:30 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2190-4-30**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-5-1**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 82 (66 - 130) bpm
   BP: 150/57(76) {96/44(64) - 171/76(83)} mmHg
   RR: 28 (17 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59 kg (admission): 65.5 kg
   Height: 61 Inch
             Total In:
                                                                  6,137 mL
                                                                    364 mL
   PO:
             TF:
                                                                    840 mL
                                                                    260 mL
   IVF:
                                                                  5,147 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  7,005 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -868 mL
                                                                    364 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 398 (362 - 411) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 108
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 6.8 L/min
   Physical Examination
   General: intubated, does not respond to command
   HEENT: Sclera anicteric, pupils sluggishly reactive, dry blood around
   mouth and nares
   Lungs: coarse BS
   CV: distant heart sounds, Regular rate and rhythm, normal S1 + S2, no
   murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm extremities, anasarca
   Neurologic: withdraws to painful stimuli
   Labs / Radiology
   50 K/uL
   7.6 g/dL
   141 mg/dL
   0.9 mg/dL
   23 mEq/L
   4.8 mEq/L
   18 mg/dL
   103 mEq/L
   135 mEq/L
   25.0 %
   26.5 K/uL
        [image002.jpg]
                             [**2190-4-28**]  03:12 PM
                             [**2190-4-28**]  06:06 PM
                             [**2190-4-29**]  02:38 AM
                             [**2190-4-29**]  02:44 PM
                             [**2190-4-29**]  08:59 PM
                             [**2190-4-30**]  02:57 AM
                             [**2190-4-30**]  08:54 AM
                             [**2190-4-30**]  02:59 PM
                             [**2190-4-30**]  08:11 PM
                             [**2190-5-1**]  04:22 AM
   WBC
   22.3
   26.5
   Hct
   24.9
   25.0
   Plt
   69
   50
   Cr
   2.9
   3.1
   1.5
   1.1
   0.6
   0.6
   0.9
   TCO2
   19
   Glucose
   104
   81
   185
   201
   168
   165
   160
   124
   141
   Other labs: PT / PTT / INR:18.0/24.6/1.6, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:175/87, Alk Phos / T Bili:448/1.0,
   Differential-Neuts:90.0 %, Band:1.0 %, Lymph:7.0 %, Mono:1.0 %, Eos:0.0
   %, D-dimer:5524 ng/mL, Fibrinogen:331 mg/dL, Lactic Acid:2.4 mmol/L,
   Albumin:1.9 g/dL, LDH:798 IU/L, Ca++:8.9 mg/dL, Mg++:2.6 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   81 yo f with HTN, HL, CHF, ESRD on HD, malnutrition, here with
   recurrent respiratory distress secondary to RLL lobar collapse (?TBM vs
   aspiration with mucous plugging vs HAP) extubated and now reintubated.
   #. Neuro status:
   Received sedation during reintubation, however has not received
   sedation since. Neuro exam improving slightly today however still
   concerning for some possible infarct. Because CVVH is just started,
   will hold off on CT until a stable point can be found to transport for
   CT. Will follow neuro exam closely
   #.  Respiratory failure:
   Patient has recurrent lobar collapse with respiratory distress.
   Reportedly has TBM but left sided lesion is too distal to stent. Has
   positive glucan/galactomannan, and CT on [**4-14**] showing diffuse disease,
   possibly invasive aspergilliosis. Was started on oral voriconazole on
   [**2190-4-15**], but with elevated LFT
s to thousands; vori was discontinued
   and ambisome was started. Voriconazole was restarted on [**2190-4-24**] and
   again she had elevated LFT
s. [**Month (only) 51**] be repeat shock liver however Vori is
   again discontinued and Ambisome was restarted. On [**2190-4-29**], patient had
   continually dropping platlets, thought to be due to Ambisome so this
   was discontinued and micafungin started until LFT
s come down at which
   point, plan is to start Voriconazole again. Has completed course for
   HAP with Vancomycin (D1 [**4-10**]) & cefepime (D1 [**4-9**]) on [**4-17**]. Due to
   multiple respiratory problems, patient ultimately required another
   intubation overnight ([**4-26**]) which she agreed to.  Will continue to
   remove fluid as possible with CVVH today. Must also consider that some
   component of resp failure could be PE from known RUE DVT, though did
   not tolerate anticoagulation. Has MRSA growing in sputum. Now back on
   vanc for g+ve cocci on sputum from [**4-27**].
   - cont PS, wean vent as tolerated currently 15/5
   - Vanc dosing per levels, d/c date [**5-2**]
   - cont micafungin
   - cont meropenem until [**5-5**]
   - f/u ID recs, cultures, fever curve, wbc
   - albuterol/atrovent nebs
   - cont hydrocortisone 50mg q24 today, will taper again tomorrow.
   - consider trach and PEG, will need to discuss goals of care with
   family.
   #. HTN/Hypotension:
   On nitropaste and amlodipine at home. Was on captopril and amlodipine
   here, however switched to single [**Doctor Last Name **] beta-blocker given concurrent
   rhythm issues.  In ICU has had labile blood pressure.  Significant
   labile BP
s with HD requiring Neo as well as periodic Levophed and
   fluid boluses for BP support.
   - now off pressors, will use Neo and vasopressin for BP control (had
   tachycardia with levophed)
   - will rate control with metoprolol if needed
   - Unable to continued CVVH due to clot formation, unable to tolerate
   heparin, became citrate toxic.
   #.  Thrombocytopenia:
   Platelets had dropped acutely from 118 to 69 to 50 on [**2190-4-30**]. HIT neg.
   Possibly due to Amphoterocin which was briefly discontinued and
   platelets went up. No drop in HCT to suggest TTP, and ambisome was
   discontinued again due to dropping platlets.
   - off ambisome and monitor platlets closely
   #. NSVT/Afib:
   Patient does have known pafib and appears to have had the episodes of
   NSVT coinciding with dialysis. Given 150mg amio x1 on [**4-12**] and
   continued on drip at 1 then 0.5 per hour. ectopy has improved. would
   try to avoid amio especially given her tenuous pulmonary status.
   Attempted anticoagulation was not tolerated by patient due to epistaxis
   and IV site bleeding.  Not receiving metoprolol. Currently off
   pressors.
   - cont plan to hold metoprolol for now, but can use as needed to
   control afib
   #. Liver:
   Patient had rising LFT
s with peak in the thousands. Thought to be
   shock liver due to hypotension following HD. Vori was discontinued, and
   liposomal amphoterocin started. After liver enzymes recovered,
   discontinued amphoterocin and restarted voriconazole. Amphotericin was
   again started and vori discontinued due to rising LFTs, however these
   were in the setting of another episode of hypotension. Will cont to
   support pressures as needed to keep SBP above 100. Previous liver
   ultrasound showed normal right lobe of the liver, limited view of the
   left lobe. No portal vein thrombosis. Echogenic kidneys are consistent
   with parenchymal disease. Now off vori though plan is to restart this
   after LFTs improve
   - cont to trend LFTs
   #.  Leukocytosis:
   Peak WBC had been 28. Is 22.3 today and has been fluctuating. Is being
   placed on micafungin and stopped on amphotericin due to decreasing
   platlets. She will need months of treatment for invasive aspergillosis.
   Also restarted Vancomycin for g+ve cocci in sputum.
   - follow-up cultures
   - weekly B-glucan, galactomannan
   #. RUE DVT:
    DVT seen on U/S. Patient at risk for PE; however, was intolerant of
   anticoagulation.
   #. ESRD on HD:
   Patient has been on dialysis since recent colectomy.  Normally gets HD
   MWF.  Nephrology following.  CVVH initiated on [**4-30**] although was not
   continued due to clot formation and inability to take off volume.
   - f/u nephrology recs
   - nephrocaps
   - daily weights
   - unable to tolerate citrate or heparin, problems with CVVH due to clot
   formation.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2190-4-30**] 10:15 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Multi Lumen - [**2190-4-27**] 10:44 AM
   PICC Line - [**2190-4-28**] 08:22 PM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:   Family meeting today to discuss goals of
   care.
   Code status: DNR (do not resuscitate)
   Disposition: ICU for now

2190-05-01 10:49:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: aspergillus PNA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
CVVHD restarted yesterday - filter clotted last evening
changed to PSV, some progress weaning
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Ambisome - [**2190-4-29**] 04:00 AM
   Vancomycin - [**2190-4-30**] 01:00 PM
   Meropenem - [**2190-4-30**] 03:30 PM
   Micafungin - [**2190-4-30**] 04:30 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2190-5-1**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-5-1**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 85 (66 - 95) bpm
   BP: 156/48(73) {101/46(69) - 171/76(83)} mmHg
   RR: 27 (17 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59 kg (admission): 65.5 kg
   Height: 61 Inch
             Total In:
                                                                  6,137 mL
                                                                    622 mL
   PO:
             TF:
                                                                    840 mL
                                                                    359 mL
   IVF:
                                                                  5,147 mL
                                                                    103 mL
   Blood products:
   Total out:
                                                                  7,005 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -868 mL
                                                                    622 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 377 (362 - 411) mL
   PS : 15 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 108
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 10.6 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis
   Musculoskeletal: Unable to stand
   Skin:  Cool
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   7.2 g/dL
   47 K/uL
   141 mg/dL
   0.9 mg/dL
   23 mEq/L
   4.8 mEq/L
   18 mg/dL
   103 mEq/L
   135 mEq/L
   24.1 %
   24.5 K/uL
        [image002.jpg]
                             [**2190-4-28**]  06:06 PM
                             [**2190-4-29**]  02:38 AM
                             [**2190-4-29**]  02:44 PM
                             [**2190-4-29**]  08:59 PM
                             [**2190-4-30**]  02:57 AM
                             [**2190-4-30**]  08:54 AM
                             [**2190-4-30**]  02:59 PM
                             [**2190-4-30**]  08:11 PM
                             [**2190-5-1**]  04:22 AM
                             [**2190-5-1**]  07:45 AM
   WBC
   22.3
   26.5
   24.5
   Hct
   24.9
   25.0
   24.1
   Plt
   69
   50
   47
   Cr
   2.9
   3.1
   1.5
   1.1
   0.6
   0.6
   0.9
   Glucose
   104
   81
   185
   201
   168
   165
   160
   124
   141
   Other labs: PT / PTT / INR:18.0/24.6/1.6, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:175/87, Alk Phos / T Bili:448/1.0,
   Differential-Neuts:90.0 %, Band:1.0 %, Lymph:7.0 %, Mono:1.0 %, Eos:0.0
   %, D-dimer:5524 ng/mL, Fibrinogen:331 mg/dL, Lactic Acid:2.4 mmol/L,
   Albumin:1.9 g/dL, LDH:798 IU/L, Ca++:8.9 mg/dL, Mg++:2.6 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   Respiratory failure:
   -Acute on chronic resp failure
   -TBM with recurrent LLL collapse
   - mental status also limiting
   -aspergillus PNA
   -weaning vent as able
    Aspergillus:
   -cont micafungin
   ESRD:
   -CVVHD initiated.  Halted overnight b/c filter clotted
   -unable to tolerate heparin or citrate so filter clotting likely to be
   ongoing issue
   -unable to get significant fluid off b/c of hypotension
   Hemodynamic lability:
   -hypotension associated with HD/CVVHD
   -completing course of vanc/[**Last Name (un) 614**] started empirically for ? sepsis on
   [**5-2**] & [**5-5**] respectively
   thrombocytopenia
   -developed on ambisome
   Hepatitis
   -associated with vori & hypotensive
   -numbers trending downward
   PAF:
   -HR controlled
   -remains in AF
   DVT
   RUE DVT
   -unable to anticoagulate b/c due to intolerance of anticoag agents
    DM II
   -SSRI
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2190-4-30**] 10:15 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   Multi Lumen - [**2190-4-27**] 10:44 AM
   PICC Line - [**2190-4-28**] 08:22 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent: 50 minutes
   Patient is critically ill

2190-05-02 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Had shaking overnight refractory to warm blankets; had a normal body
   temperature
   - Increased responsiveness to command to close eyes
 MULTI LUMEN - STOP [**2190-5-1**] 02:00 PM
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2190-4-30**] 01:00 PM
   Meropenem - [**2190-5-1**] 03:10 PM
   Micafungin - [**2190-5-1**] 04:33 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2190-5-1**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-5-2**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 90 (72 - 99) bpm
   BP: 164/62(86) {121/41(65) - 177/63(86)} mmHg
   RR: 30 (20 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59 kg (admission): 65.5 kg
   Height: 61 Inch
             Total In:
                                                                  1,590 mL
                                                                    390 mL
   PO:
             TF:
                                                                    840 mL
                                                                    265 mL
   IVF:
                                                                    440 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                  1,000 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,190 mL
                                                                   -610 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 292 (292 - 411) mL
   PS : 15 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: ///21/
   Ve: 10.2 L/min
   Physical Examination
   General: intubated, does not respond to command
   HEENT: Sclera anicteric, pupils sluggishly reactive, dry blood around
   mouth and nares
   Lungs: coarse BS
   CV: distant heart sounds, Regular rate and rhythm, normal S1 + S2, no
   murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm extremities, anasarca
   Neurologic: withdraws to painful stimuli
   Labs / Radiology
   76 K/uL
   7.8 g/dL
   119 mg/dL
   1.6 mg/dL
   21 mEq/L
   5.2 mEq/L
   37 mg/dL
   107 mEq/L
   138 mEq/L
   26.0 %
   24.8 K/uL
        [image002.jpg]
                             [**2190-4-29**]  02:38 AM
                             [**2190-4-29**]  02:44 PM
                             [**2190-4-29**]  08:59 PM
                             [**2190-4-30**]  02:57 AM
                             [**2190-4-30**]  08:54 AM
                             [**2190-4-30**]  02:59 PM
                             [**2190-4-30**]  08:11 PM
                             [**2190-5-1**]  04:22 AM
                             [**2190-5-1**]  07:45 AM
                             [**2190-5-2**]  03:47 AM
   WBC
   22.3
   26.5
   24.5
   24.8
   Hct
   24.9
   25.0
   24.1
   26.0
   Plt
   69
   50
   47
   76
   Cr
   3.1
   1.5
   1.1
   0.6
   0.6
   0.9
   1.6
   Glucose
   81
   185
   201
   168
   165
   160
   124
   141
   119
   Other labs: PT / PTT / INR:18.3/24.7/1.7, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:175/87, Alk Phos / T Bili:448/1.0,
   Differential-Neuts:90.0 %, Band:1.0 %, Lymph:7.0 %, Mono:1.0 %, Eos:0.0
   %, D-dimer:5524 ng/mL, Fibrinogen:331 mg/dL, Lactic Acid:2.4 mmol/L,
   Albumin:1.9 g/dL, LDH:798 IU/L, Ca++:9.1 mg/dL, Mg++:2.8 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
   81 yo f with HTN, HL, CHF, ESRD on HD, malnutrition, here with
   recurrent respiratory distress secondary to RLL lobar collapse (?TBM vs
   aspiration with mucous plugging vs HAP) extubated and now reintubated.
   #. Neuro status:
   Received sedation during reintubation, however has not received
   sedation since. Neuro exam improving slightly today however still
   concerning for some possible infarct. Will hold off on CT at this point
   as would unlikely change management. Will discuss status and goals of
   care with family today. Will follow neuro exam closely.
   #.  Respiratory failure:
   Patient has recurrent lobar collapse with respiratory distress.
   Reportedly has TBM but left sided lesion is too distal to stent. Has
   positive glucan/galactomannan, and CT on [**4-14**] showing diffuse disease,
   possibly invasive aspergilliosis. Was started on oral voriconazole on
   [**2190-4-15**], but with elevated LFT
s to thousands; vori was discontinued
   and ambisome was started. Voriconazole was restarted on [**2190-4-24**] and
   again she had elevated LFT
s. [**Month (only) 51**] be repeat shock liver however Vori is
   again discontinued and Ambisome was restarted. On [**2190-4-29**], patient had
   continually dropping platlets, thought to be due to Ambisome so this
   was discontinued and micafungin started until LFT
s come down at which
   point, plan is to start Voriconazole again. Has completed course for
   HAP with Vancomycin (D1 [**4-10**]) & cefepime (D1 [**4-9**]) on [**4-17**]. Due to
   multiple respiratory problems, patient ultimately required another
   intubation overnight ([**4-26**]) which she agreed to.  CVVH now discontinued
   and so will avoid excess fluids as no way to remove fluid. Must also
   consider that some component of resp failure could be PE from known RUE
   DVT, though did not tolerate anticoagulation. Has MRSA growing in
   sputum. Now back on vanc for g+ve cocci on sputum from [**4-27**]. ID
   recommends switching mica back to vori. Will discuss goals of care with
   family today before making this adjustment.
   - cont PS, wean vent as tolerated currently 15/5
   - Vanc dosing per levels, d/c date [**5-2**]
   - cont micafungin, discuss treatment goals with family, consider
   switching to vori.
   - cont meropenem until [**5-5**]
   - f/u ID recs, cultures, fever curve, wbc
   - albuterol/atrovent nebs
   - cont hydrocortisone taper (was 50mg q24, will taper to 25mg q24).
   - consider trach and PEG, will need to discuss goals of care with
   family.
   #. HTN/Hypotension:
   On nitropaste and amlodipine at home. Was on captopril and amlodipine
   here, however switched to single [**Doctor Last Name **] beta-blocker given concurrent
   rhythm issues.  In ICU has had labile blood pressure.  Significant
   labile BP
s with HD requiring Neo as well as periodic Levophed and
   fluid boluses for BP support.
   - now off pressors, will use Neo and vasopressin for BP control (had
   tachycardia with levophed)
   - will rate control with metoprolol if needed
   - Unable to continued CVVH due to clot formation, unable to tolerate
   heparin, became citrate toxic.
   #.  Thrombocytopenia:
   Platelets had dropped acutely from 118 to 69 to 50 on [**2190-4-30**]. HIT neg.
   Possibly due to Amphoterocin which was briefly discontinued and
   platelets went up. No drop in HCT to suggest TTP, and ambisome was
   discontinued again due to dropping platlets. These have risen today
   - off ambisome and monitor platlets closely
   #. NSVT/Afib:
   Patient does have known pafib and appears to have had the episodes of
   NSVT coinciding with dialysis. Given 150mg amio x1 on [**4-12**] and
   continued on drip at 1 then 0.5 per hour. ectopy has improved. would
   try to avoid amio especially given her tenuous pulmonary status.
   Attempted anticoagulation was not tolerated by patient due to epistaxis
   and IV site bleeding.  Not receiving metoprolol. Currently off
   pressors.
   - cont plan to hold metoprolol for now, but can use as needed to
   control afib
   #. Liver:
   Patient had rising LFT
s with peak in the thousands. Thought to be
   shock liver due to hypotension following HD. Vori was discontinued, and
   liposomal amphoterocin started. After liver enzymes recovered,
   discontinued amphoterocin and restarted voriconazole. Amphotericin was
   again started and vori discontinued due to rising LFTs, however these
   were in the setting of another episode of hypotension. Will cont to
   support pressures as needed to keep SBP above 100. Previous liver
   ultrasound showed normal right lobe of the liver, limited view of the
   left lobe. No portal vein thrombosis. Echogenic kidneys are consistent
   with parenchymal disease. Now off vori though plan is to restart this
   as above, depending on outcome of family meetings
   - cont to trend LFTs
   #.  Leukocytosis:
   Peak WBC had been 28. Is 22.3 today and has been fluctuating. Is being
   placed on micafungin and stopped on amphotericin due to decreasing
   platlets. She will need months of treatment for invasive aspergillosis.
   Also restarted Vancomycin for g+ve cocci in sputum.
   - follow-up cultures
   - weekly B-glucan, galactomannan
   #. RUE DVT:
    DVT seen on U/S. Patient at risk for PE; however, was intolerant of
   anticoagulation.
   #. ESRD on HD:
   Patient has been on dialysis since recent colectomy.  Normally gets HD
   MWF.  Nephrology following.  CVVH initiated on [**4-30**] although was not
   continued due to clot formation and inability to take off volume.
   - f/u nephrology recs
   - nephrocaps
   - daily weights
   - unable to tolerate citrate or heparin, problems with CVVH due to clot
   formation.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2190-5-2**] 02:50 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   PICC Line - [**2190-4-28**] 08:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: pending family discussion, ICU for now.

2190-05-02 11:19:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: presumed aspergillus PNA, ESRD
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2190-5-1**] 02:00 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   Linezolid
   Unknown;
   Penicillin G
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2190-4-30**] 01:00 PM
   Meropenem - [**2190-5-1**] 03:10 PM
   Micafungin - [**2190-5-1**] 04:33 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-5-2**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 81 (72 - 99) bpm
   BP: 138/53(74) {121/41(65) - 177/63(86)} mmHg
   RR: 23 (20 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59 kg (admission): 65.5 kg
   Height: 61 Inch
             Total In:
                                                                  1,590 mL
                                                                    628 mL
   PO:
             TF:
                                                                    840 mL
                                                                    384 mL
   IVF:
                                                                    440 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                  1,000 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,190 mL
                                                                   -372 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 350 (292 - 411) mL
   PS : 15 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 10 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   76 K/uL
   119 mg/dL
   1.6 mg/dL
   21 mEq/L
   5.2 mEq/L
   37 mg/dL
   107 mEq/L
   138 mEq/L
   26.0 %
   24.8 K/uL
        [image002.jpg]
                             [**2190-4-29**]  02:38 AM
                             [**2190-4-29**]  02:44 PM
                             [**2190-4-29**]  08:59 PM
                             [**2190-4-30**]  02:57 AM
                             [**2190-4-30**]  08:54 AM
                             [**2190-4-30**]  02:59 PM
                             [**2190-4-30**]  08:11 PM
                             [**2190-5-1**]  04:22 AM
                             [**2190-5-1**]  07:45 AM
                             [**2190-5-2**]  03:47 AM
   WBC
   22.3
   26.5
   24.5
   24.8
   Hct
   24.9
   25.0
   24.1
   26.0
   Plt
   69
   50
   47
   76
   Cr
   3.1
   1.5
   1.1
   0.6
   0.6
   0.9
   1.6
   Glucose
   81
   185
   201
   168
   165
   160
   124
   141
   119
   Other labs: PT / PTT / INR:18.3/24.7/1.7, CK / CKMB /
   Troponin-T:31/8/0.16, ALT / AST:175/87, Alk Phos / T Bili:448/1.0,
   Differential-Neuts:90.0 %, Band:1.0 %, Lymph:7.0 %, Mono:1.0 %, Eos:0.0
   %, D-dimer:5524 ng/mL, Fibrinogen:331 mg/dL, Lactic Acid:2.4 mmol/L,
   Albumin:1.9 g/dL, LDH:798 IU/L, Ca++:9.1 mg/dL, Mg++:2.8 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
   Respiratory failure:
   -Acute on chronic resp failure
   -TBM with recurrent LLL collapse
   - mental status also limiting
   -aspergillus PNA (presumed - serum marker, no demonstration of invasive
   disease)
   -also on vanc/meropenem empirically for VAP
   -some progress weaning vent - PSV 15/5  FiO2 0.50
   -consider obtaining NIF to get sense of respiratory muscle strength
    ESRD:
   -CVVHD initiated halted secondary to filter clotting
   -unable to tolerate heparin or citrate (secondary to toxicity) so
   clotting likely to be ongoing issue
   -unable to get significant fluid off b/c of hypotension during dialysis
   Hemodynamic lability:
   -hypotension associated with HD/CVVHD
   -completing course of vanc/[**Last Name (un) 614**] started empirically for ? sepsis on
   [**5-2**] & [**5-5**] respectively
   thrombocytopenia
   -developed on ambisome- stable/improving
   Hepatitis
   -associated with vori & hypotension
   -numbers trending downward
   PAF:
   -HR controlled
   -remains in AF
    RUE DVT
   -unable to anticoagulate b/c due to intolerance of anticoag agents
    DM II
   -SSRI
    Remainder of plan per resident note
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2190-5-2**] 02:50 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2190-4-8**] 09:30 PM
   PICC Line - [**2190-4-28**] 08:22 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill